2104-12-08 05:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Cultured nasal swab given purulent drainage
   - D/C'd amio gtt, not changed to PO given inciting cause
   arrhythmia/cardiac arrest was tension PTX, now resolved
   - Still sedated on Fentanyl, Versed
   - TFs started
   - Talked with brother [**Name (NI) **] who is attempting to contact oldest son who
   would be health care proxy since he is closest relative (contact info
   in note from [**12-7**])
   - Lactate trending down, 1.6
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2104-12-5**] 04:46 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2104-12-8**] 12:57 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-12-8**] 05:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   HR: 75 (70 - 94) bpm
   BP: 112/61(77) {80/50(61) - 181/95(125)} mmHg
   RR: 20 (17 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 86.4 kg (admission): 79.4 kg
   Height: 70 Inch
             Total In:
                                                                  4,543 mL
                                                                    946 mL
   PO:
             TF:
                                                                    107 mL
                                                                    140 mL
   IVF:
                                                                  4,375 mL
                                                                    756 mL
   Blood products:
   Total out:
                                                                  1,362 mL
                                                                    480 mL
   Urine:
                                                                  1,260 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,181 mL
                                                                    466 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 520 (520 - 520) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Agitated
   PIP: 32 cmH2O
   Plateau: 19 cmH2O
   SpO2: 96%
   ABG: 7.38/43/118/27/0
   Ve: 9.9 L/min
   PaO2 / FiO2: 295
   Physical Examination
   GEN: elderly male, intubated and sedated, opens eyes to noxious
   stimuli.
   HEENT: pupils 2-3mm, minimally reactive bilaterally, sclera anicteric
   with L scleral edema, purulent drainage L nostril
   NECK: Trachea midline
   COR: RRR, no M/G/R, normal S1 S2, radial pulses +2
   PULM: Coarse vented breath sounds bilaterally with expirqtory wheezes
   throughout. CTs to suction bilaterally
   ABD: Soft, NT, ND, +BS, no HSM appreciated
   EXT: No C/C/E, no palpable cords. Pneumoboots
   NEURO: Sedated, positive corneal reflexes, negative dolls eyes, no
   spontaneous movements of UE or LE but opens eyes to noxious stimuli,
   not following commands
   SKIN: No jaundice, cyanosis, ecchymoses.
   Labs / Radiology
   153 K/uL
   10.3 g/dL
   129 mg/dL
   0.9 mg/dL
   27 mEq/L
   5.1 mEq/L
   29 mg/dL
   111 mEq/L
   140 mEq/L
   31.5 %
   17.0 K/uL
        [image002.jpg]
                            [**2104-12-6**]  02:07 AM
                            [**2104-12-6**]  02:12 AM
                            [**2104-12-6**]  02:23 AM
                            [**2104-12-6**]  05:56 AM
                            [**2104-12-6**]  06:03 AM
                            [**2104-12-6**]  12:38 PM
                            [**2104-12-6**]  11:29 PM
                            [**2104-12-7**]  04:12 AM
                            [**2104-12-7**]  05:59 PM
                            [**2104-12-8**]  03:24 AM
   WBC
   14.3
   18.5
   17.0
   Hct
   37.8
   34.3
   31.5
   Plt
   166
   168
   153
   Cr
   0.8
   0.8
   1.0
   0.9
   0.9
   TCO2
   25
   27
   26
   Glucose
   112
   165
   139
   147
   144
   129
   Other labs: PT / PTT / INR:12.6/30.3/1.1, CK / CKMB /
   Troponin-T:329/11/0.08, ALT / AST:70/50, Alk Phos / T Bili:33/0.3,
   Lactic Acid:1.6 mmol/L, LDH:454 IU/L, Ca++:8.2 mg/dL, Mg++:2.3 mg/dL,
   PO4:2.6 mg/dL
   Assessment and Plan
   64M homeless h/o COPD, asthma, EtOH abuse who intially presented with
   SOB, likely COPD exacerbation, left AMA, now s/p cardiac arrest x 2
   with bilateral CT placement for PTX.
   .
   # s/p cardiac arrest: Etiologies include pneumothorax, hypoxia,
   hyperkalemia, acidosis, among others. Seizure may have been a component
   of initial arrest given unresponsiveness, abnormal movements, and
   incontinence. Received multiple rounds epi and atropine in the ED, as
   well as 3x shocks. 2^nd arrest am [**12-5**] during cooling protocol.
   Current neoro exam 48 hours from arrest s/p cooling and rewarming with
   minimal reaction however still sedated since becomes tachypneic
   agitated when sedation weaned.
   - Completed Arctic Sun protocol [**12-6**] and rewarmed, off paralytics
   - Wean fentanyl and versed gtt as tolerated
   - Amiodarone gtt DCd since completed 24 hour load and ventricular
   arrhythmia occurred in setting of tension PTX, now resolved. Will not
   continue PO at this time unless further arrhythmias
   - Head CT prelim no pathology now cooling completed. F/U final read
   - Continue supportive care s/p arrest. Will more fully assess neuron
   exam 72 hours post arrest to determine prognosis
   .
   # SOB/Resp Failure: Multiple possible etiologies for initial
   presentation including COPD/asthma flare, PNA (especially consider
   aspiration given EtOH) or other pulmonary infections (e.g. TB given
   homeless).  ACS (ECG supports prior inferior MI and risk factors
   include male, smoker) or PE less likely given presentation. Most likely
   cause is COPD flare given long smoking history and wheezing on exam as
   no evidence for cavitation or infiltrate on CXR, no fever or
   leukocytosis and no cough, and denied CP per EMS and no evidence of
   acute ECG changes including no RV strain. Initial CXR without acute
   process but now s/p arrest ?R infiltrate which could represent
   aspiration from event or evolving PNA present prior to IVF. Unable to
   tolerate RSBI in am [**3-15**] agitation
   - Continue Solumedrol, Atrovent and albuterol nebs
   - Trend WBC count, fever curve
   - Continue chest tubes for pneumothorax
   - Follow ABGs and lactate
   - Daily SBT, no RSBI this am [**3-15**] bronchospasm, agitation . Maintain
   PEEP and decrease FiO2 as tol
   - Barriers to extubation include mental status, alertness, bronchospasm
   and agitation
   - Daily CXRs to assess CTs, PTX
   - Chest tubes to suction until extubated
   .
   #ETOH abuse: No known h/o withdrawal, seizures, or DTs. Urine tox was
   negative in ED. Serum tox initially with elevate EtOH. [**Month (only) 51**] have had
   seizure when leaving AMA.
   - Continue versed gtt for now
   - Monitor for signs of withdrawal once sedation and paralytics off
   # Hyperlactatemia: Elevated lactate on first admission with AG 13 and
   elevated bicarb. Bicarb likely elevated [**3-15**] acute/chronic respiratory
   acidosis. Lactate may be elevated [**3-15**] hypoperfusion, increased work of
   breathing with respiratory distress. No signs or symptoms of sepsis.
   Lactate now trended down, 1.3.
   - f/u cultures
   - Consider antibiotics if pt demonstrates s/s of infection.
   # ?Sinusitis: Pt
s head CT has fluid in sinuses and has purulent
   drainage L nostril c/w possible siunisits. Currently afebrile
   -          F/U cx nasal drainage, viral swab
   -          Abx if spikes, hold for now
   -
   # CAD s/p silent myocardial infarction: s/p cardiac arrest and multiple
   shocks. Recheck labs and consider adding ASA 325mg. Hold beta blocker
   until cooling complete. Consider statin.
   .
   # PTSD/bipolar disorder: Appears that he is not on medications as
   outpatient.
   .
   # History of alcoholic hepatitis: No LFTs in many years, but normal on
   check [**2104-12-4**], slightly elevated on repeat but has had episodes
   hypotension, cardiac arrest.
   .
   # FEN: Started TFs per nutrition recs. Will need to hold if planned
   extubation
   # Access:  Femoral CVL
   # PPx:  Heparin SC tid, VAP bundle
   # Code:  FULL presumed
   # Dispo:  MICU
   # Comm:  Spoke with brother [**Name (NI) **] [**Name (NI) 2269**] (Cell [**0-0-**]) and
   updated. Closest family member is oldest son [**Name (NI) 3062**].  [**Name2 (NI) **] has made
   several calls to try to contact [**Name (NI) 3062**] who he has not heard back from.
   He is hoping to hear tomorrow since [**Doctor Last Name 3062**] should be returning to work
   after weekend. Mr. [**Known lastname 2269**] has no family in the area. [**Doctor Last Name 3062**] and [**Doctor Last Name **]
   both in [**Location (un) 3063**].
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2104-12-7**] 03:45 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2104-12-5**] 04:35 AM
   Arterial Line - [**2104-12-5**] 11:06 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2104-12-09 05:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   PICC line inserted, pt went to IR for re-positioning, chest tubes put
   to water seal for transit and put back on wall suction, pt put briefly
   on propofol for procedure
   Femoral line d/c'd
   Increased steroids to 60mg q8
   Uop trailing off last night, bolused with 1L NS, 100ml/hr maintanence
   Versed increased for agitation and episodes of hypertension
 MULTI LUMEN - STOP [**2104-12-8**] 05:04 PM
 PICC LINE - START [**2104-12-8**] 07:05 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Fentanyl - [**2104-12-8**] 01:36 PM
   Heparin Sodium (Prophylaxis) - [**2104-12-8**] 03:49 PM
   Midazolam (Versed) - [**2104-12-9**] 05:04 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-12-9**] 05:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 103 (69 - 106) bpm
   BP: 183/98(127) {103/53(69) - 200/109(142)} mmHg
   RR: 22 (0 - 22) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 86.4 kg (admission): 79.4 kg
   Height: 70 Inch
             Total In:
                                                                  2,621 mL
                                                                  1,059 mL
   PO:
             TF:
                                                                    695 mL
                                                                    223 mL
   IVF:
                                                                  1,646 mL
                                                                    836 mL
   Blood products:
   Total out:
                                                                  1,394 mL
                                                                    103 mL
   Urine:
                                                                  1,364 mL
                                                                    103 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,227 mL
                                                                    956 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 520 (520 - 520) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 28 cmH2O
   Plateau: 17 cmH2O
   SpO2: 92%
   ABG: 7.36/52/123/28/3
   Ve: 9.9 L/min
   PaO2 / FiO2: 308
   Physical Examination
   GEN: elderly male, intubated and sedated, opens eyes to noxious
   stimuli; eyes twitching, & hypertensive to stimuli..
   HEENT: pupils 2-3mm, minimally reactive bilaterally, sclera anicteric
   with L scleral edema, purulent drainage L nostril
   NECK: Trachea midline
   COR: RRR, no M/G/R, normal S1 S2, radial pulses +2
   CHEST: subcutaneous crepitus.
   PULM: Coarse vented breath sounds bilaterally with expirqtory wheezes
   on the right side. CTs to suction bilaterally
   ABD: Soft, NT, ND, +BS, no HSM appreciated
   EXT: No C/C/E, no palpable cords. Pneumoboots
   NEURO: Sedated, positive corneal reflexes, negative dolls eyes, no
   spontaneous movements of UE or LE but opens eyes to noxious stimuli,
   not following commands
   SKIN: No jaundice, cyanosis, ecchymoses.
   Labs / Radiology
   175 K/uL
   11.2 g/dL
   122 mg/dL
   0.8 mg/dL
   28 mEq/L
   4.7 mEq/L
   28 mg/dL
   107 mEq/L
   141 mEq/L
   33.0 %
   17.4 K/uL
        [image002.jpg]
                            [**2104-12-6**]  06:03 AM
                            [**2104-12-6**]  12:38 PM
                            [**2104-12-6**]  11:29 PM
                            [**2104-12-7**]  04:12 AM
                            [**2104-12-7**]  05:59 PM
                            [**2104-12-8**]  03:24 AM
                            [**2104-12-8**]  06:16 AM
                            [**2104-12-8**]  02:56 PM
                            [**2104-12-9**]  04:06 AM
                            [**2104-12-9**]  04:26 AM
   WBC
   18.5
   17.0
   17.4
   Hct
   34.3
   31.5
   33.0
   Plt
   168
   153
   175
   Cr
   1.0
   0.9
   0.9
   0.8
   TCO2
   27
   26
   28
   29
   31
   Glucose
   139
   147
   144
   129
   122
   Other labs: PT / PTT / INR:12.6/30.3/1.1, CK / CKMB /
   Troponin-T:329/11/0.08, ALT / AST:70/50, Alk Phos / T Bili:33/0.3,
   Lactic Acid:1.8 mmol/L, LDH:454 IU/L, Ca++:8.7 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.4 mg/dL
   ABG: 7.36 / 52 / 123 / 31;  sputum gram stain: 1+ budding yeast with
   pseudohyphae
   CXR: PICC tip in SVC
   Assessment and Plan
   64M homeless h/o COPD, asthma, EtOH abuse who intially presented with
   SOB, likely COPD exacerbation, left AMA, now s/p cardiac arrest x 2
   with bilateral CT placement for PTX.
   .
   # Agitation, hypertension, ETOH abuse: Likely due to alcohol
   withdrawal.  Will increase benzodiazepine doses and wean propofol.
   Mental status difficult to assess given mix of drugs currently
   onboard.  Given eye twitching, the patient could possibly be seizing.
   - 10 mg valium Q 10 min until patient
s agitation resolves
   - prn valium for recurrent agitation
   - keep versed at 2-8 mg/hr
   - stop propofol
   - EEG to assess whether patient is seizing
   .
   #. Decreasing urine output: Patient appears euvolemic on exam.  Do not
   think that hypovolemia is due to hypoperfusion given elevated blood
   pressures.
   - bladder scan patient
   - confirm that foley is not obstructed
   - consider kidney ultrasound
   - urine lytes
   - consider 1L bolus if urine output does not improve and no evidence of
   obstruction.
   .
   # s/p cardiac arrest: Etiologies include pneumothorax, hypoxia,
   hyperkalemia, acidosis, among others. Seizure may have been a component
   of initial arrest given unresponsiveness, abnormal movements, and
   incontinence. Received multiple rounds epi and atropine in the ED, as
   well as 3x shocks. 2^nd arrest am [**12-5**] during cooling protocol.
   Current neoro exam 48 hours from arrest s/p cooling and rewarming with
   minimal reaction however still sedated since becomes tachypneic
   agitated when sedation weaned.
   - Completed Arctic Sun protocol [**12-6**] and rewarmed, off paralytics
   - Wean fentanyl and versed gtt as tolerated
   - Head CT without intracranial pathology but has fluid in sinuses
   - Continue supportive care s/p arrest.
   .
   # SOB/Resp Failure: Multiple possible etiologies for initial
   presentation including COPD/asthma flare, PNA (especially consider
   aspiration given EtOH) or other pulmonary infections (e.g. TB given
   homeless).  ACS (ECG supports prior inferior MI and risk factors
   include male, smoker) or PE less likely given presentation. Most likely
   cause is COPD flare given long smoking history and wheezing on exam as
   no evidence for cavitation or infiltrate on CXR, no fever or
   leukocytosis and no cough, and denied CP per EMS and no evidence of
   acute ECG changes including no RV strain. Initial CXR without acute
   process but now s/p arrest ?R infiltrate which could represent
   aspiration from event or evolving PNA present prior to IVF. Unable to
   tolerate RSBI in am [**3-15**] agitation
   - Cont. Solumedrol to 125mg q8 hours for severe COPD
   - Continue Solumedrol, Atrovent and albuterol nebs
   - Trend WBC count, fever curve
   - Continue chest tubes for pneumothorax, currently sealed to vacuum.
   - Follow ABGs and lactate
   - Barriers to extubation include mental status, alertness, bronchospasm
   and agitation
   - Daily CXRs to assess CTs, PTX
   - resend urine legionella
   .
   # Hyperlactatemia: Elevated lactate on first admission with AG 13 and
   elevated bicarb. Bicarb likely elevated [**3-15**] acute/chronic respiratory
   acidosis. Lactate may be elevated [**3-15**] hypoperfusion, increased work of
   breathing with respiratory distress. No signs or symptoms of sepsis.
   Lactate now trended down, 1.3.
   - f/u cultures
   - Consider antibiotics if pt demonstrates s/s of infection.
   # ?Sinusitis: Pt
s head CT has fluid in sinuses and has purulent
   drainage L nostril c/w possible siunisits. Currently afebrile
   -          F/U cx nasal drainage, viral swab
   -          Abx if spikes, hold for now
   # CAD s/p silent myocardial infarction: s/p cardiac arrest and multiple
   shocks.
   - add ASA
   - hold B-blocker until BP controlled, consider statin
   .
   # PTSD/bipolar disorder: Appears that he is not on medications as
   outpatient. Per family, has been seen in VA system
   .
   # History of alcoholic hepatitis: No LFTs in many years, but normal on
   check [**2104-12-4**], slightly elevated on repeat but has had episodes
   hypotension, cardiac arrest.
   .
   # FEN: Started TFs per nutrition recs. Will need to hold if planned
   extubation
   # Access:  PICC line placed [**12-8**]; A-line [**12-8**]
   # PPx:  Heparin SC tid, VAP bundle, bowel regimen
   # Code:  FULL presumed
   # Dispo:  MICU
   # Comm:  Spoke with brother [**Name (NI) **] [**Name (NI) 2269**] (Cell [**0-0-**]) and
   updated. Closest family member is oldest son [**Name (NI) 3062**].  [**Name2 (NI) 3062**] and [**Doctor Last Name **]
   both in [**Location (un) 3063**].  Social work spoke with [**Doctor Last Name 3062**] who would like to make
   medical decisions and pursue guardianship if necessary.  (see SW note).
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2104-12-7**] 03:45 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2104-12-5**] 11:06 AM
   PICC Line - [**2104-12-8**] 07:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2104-12-10 06:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Held TF due to high residuals
   - Urine output increased after foley replacement.
   - Valium loaded; receiving 10 mg Q4H:prn
   - Weaned off propofol
   - F/u urine studies
   - EEG performed
   - [**12-1**] sec runs of ventricular bigeminy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2104-12-9**] 10:30 AM
   Heparin Sodium (Prophylaxis) - [**2104-12-10**] 12:05 AM
   Diazepam (Valium) - [**2104-12-10**] 03:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-12-10**] 06:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.6
C (97.8
   HR: 66 (66 - 117) bpm
   BP: 139/70(93) {112/58(73) - 253/152(195)} mmHg
   RR: 20 (15 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.3 kg (admission): 79.4 kg
   Height: 70 Inch
             Total In:
                                                                  3,804 mL
                                                                    557 mL
   PO:
             TF:
                                                                    359 mL
   IVF:
                                                                  3,296 mL
                                                                    557 mL
   Blood products:
   Total out:
                                                                  2,723 mL
                                                                    775 mL
   Urine:
                                                                  2,073 mL
                                                                    395 mL
   NG:
                                                                    350 mL
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                  1,081 mL
                                                                   -218 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 520) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Agitated
   PIP: 26 cmH2O
   Plateau: 16 cmH2O
   SpO2: 95%
   ABG: 7.46/44/72/29/6
   Ve: 9.5 L/min
   PaO2 / FiO2: 180
   Physical Examination
   GEN: elderly male, intubated and sedated, opens eyes to noxious
   stimuli; eyes twitching, & hypertensive to stimuli.
   HEENT: pupils 1-2mm, minimally reactive bilaterally, sclera anicteric
   with L scleral edema, purulent drainage L nostril
   NECK: Trachea midline
   COR: RRR, no M/G/R, normal S1 S2, radial pulses +2
   CHEST: subcutaneous crepitus.
   PULM: Coarse vented breath sounds bilaterally; wheezing much improved.
   CTs to suction bilaterally
   ABD: Soft, NT, ND, hypoactive BS, no HSM appreciated
   EXT: No C/C/E, no palpable cords. Pneumoboots
   NEURO: Sedated, positive corneal reflexes, negative dolls eyes, no
   spontaneous movements of UE or LE but opens eyes to noxious stimuli,
   not following commands
   SKIN: No jaundice, cyanosis, ecchymoses.
   Labs / Radiology
   163 K/uL
   10.2 g/dL
   146 mg/dL
   0.8 mg/dL
   29 mEq/L
   4.0 mEq/L
   28 mg/dL
   106 mEq/L
   139 mEq/L
   29.2 %
   15.7 K/uL
        [image002.jpg]
                            [**2104-12-6**]  11:29 PM
                            [**2104-12-7**]  04:12 AM
                            [**2104-12-7**]  05:59 PM
                            [**2104-12-8**]  03:24 AM
                            [**2104-12-8**]  06:16 AM
                            [**2104-12-8**]  02:56 PM
                            [**2104-12-9**]  04:06 AM
                            [**2104-12-9**]  04:26 AM
                            [**2104-12-10**]  01:57 AM
                            [**2104-12-10**]  02:08 AM
   WBC
   18.5
   17.0
   17.4
   15.7
   Hct
   34.3
   31.5
   33.0
   29.2
   Plt
   168
   153
   175
   163
   Cr
   1.0
   0.9
   0.9
   0.8
   0.8
   TCO2
   26
   28
   29
   31
   32
   Glucose
   147
   144
   129
   122
   146
   Other labs: PT / PTT / INR:12.6/30.3/1.1, CK / CKMB /
   Troponin-T:191/11/0.08, ALT / AST:70/50, Alk Phos / T Bili:33/0.3,
   Lactic Acid:1.8 mmol/L, LDH:454 IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.1 mg/dL
   Urine studies: creat 88, Na 64, Osm 724; moderate uric-AX; lg blood,
   few bacteria; FENa 0.42%
   ABG: 7.42 / 46 / 103 / 31
   Assessment and Plan
   64M homeless h/o COPD, asthma, EtOH abuse who intially presented with
   SOB, likely COPD exacerbation, left AMA, now s/p cardiac arrest x 2
   with bilateral CT placement for PTX.
   .
   # Agitation, hypertension, ETOH abuse: Likely due to alcohol
   withdrawal.  Propofol stopped yesterday.  Improved with addition of
   valium, though still requiring 10 mg IV Q4H.  Pt. not absorbing PO meds
   and thus not able to benefit from longer half-life of PO valium.
   Mental status difficult to assess given mix of drugs currently
   onboard.  Given eye twitching, the patient could possibly be seizing
   though per report EEG yesterday negative for seizures, though versed
   will suppress seizure activity.
   - Increase versed to 4-12 mg/hr
   - Cont. valium IV prn agitation
   - Consider repeat EEG when ETOH withdrawal & MS improves
   .
   #. Decreasing urine output: Resolved after replacement of clogged foley
   catheter.  Will continue to monitor.
   .
   # SOB/Resp Failure: Multiple possible etiologies for initial
   presentation including COPD/asthma flare, PNA (especially consider
   aspiration given EtOH) or other pulmonary infections (e.g. TB given
   homeless).  ACS (ECG supports prior inferior MI and risk factors
   include male, smoker) or PE less likely given presentation. Most likely
   cause is COPD flare given long smoking history and wheezing on exam as
   no evidence for cavitation or infiltrate on CXR, no fever or
   leukocytosis and no cough, and denied CP per EMS and no evidence of
   acute ECG changes including no RV strain. Initial CXR without acute
   process but now s/p arrest ?R infiltrate which could represent
   aspiration from event or evolving PNA present prior to IVF. Unable to
   tolerate RSBI in am [**3-15**] agitation.  As wheezing has improved
   dramatically will start to decrease steroids.
   - [**Month (only) **]. Solumedrol to 60 mg q8 hours
   - Continue Solumedrol, Atrovent and albuterol nebs
   - Trend WBC count, fever curve
   - Continue chest tubes for pneumothorax, currently sealed to vacuum.
   - Follow ABGs and lactate
   - Barriers to extubation include mental status, alertness, bronchospasm
   and agitation
   - Daily CXRs to assess CTs, PTX
   - resend urine legionella
   .
   #. Poor intestinal absorption/motility: Patient did not stool yesterday
   despite aggressive bowel regimen and is not tolerating tube feeds.
   High doses of opiates may be contributing.  Abdomen is currently soft.
   -          KUB to eval for obstruction.
   -          Bisacodyl suppository
   -          Change PO meds to IV banana bag + PR aspirin
   # s/p cardiac arrest: Etiologies include pneumothorax, hypoxia,
   hyperkalemia, acidosis, among others. Seizure may have been a component
   of initial arrest given unresponsiveness, abnormal movements, and
   incontinence. Received multiple rounds epi and atropine in the ED, as
   well as 3x shocks. 2^nd arrest am [**12-5**] during cooling protocol.
   Current neoro exam 48 hours from arrest s/p cooling and rewarming with
   minimal reaction however still sedated since becomes tachypneic
   agitated when sedation weaned.
   - Completed Arctic Sun protocol [**12-6**] and rewarmed, off paralytics
   - Wean fentanyl and versed gtt as tolerated
   - Head CT without intracranial pathology but has fluid in sinuses
   - Continue supportive care s/p arrest.# Hyperlactatemia: Elevated
   lactate on first admission with AG 13 and elevated bicarb. Bicarb
   likely elevated [**3-15**] acute/chronic respiratory acidosis. Lactate may be
   elevated [**3-15**] hypoperfusion, increased work of breathing with
   respiratory distress. No signs or symptoms of sepsis. Lactate now
   trended down, 1.3.
   - f/u cultures
   - Consider antibiotics if pt demonstrates s/s of infection.
   # ?Sinusitis: Pt
s head CT has fluid in sinuses and has purulent
   drainage L nostril c/w possible siunisits. Currently afebrile
   -          F/U cx nasal drainage, viral swab
   -          Abx if spikes, hold for now
   # CAD s/p silent myocardial infarction: s/p cardiac arrest and multiple
   shocks.
   - add ASA
   - hold B-blocker until BP controlled, consider statin
   .
   # PTSD/bipolar disorder: Appears that he is not on medications as
   outpatient. Per family, has been seen in VA system
   .
   # History of alcoholic hepatitis: No LFTs in many years, but normal on
   check [**2104-12-4**], slightly elevated on repeat but has had episodes
   hypotension, cardiac arrest.
   .
   # FEN: Pt. not tolerating TFs.  Will need to hold if planned
   extubation; stop standing IVF and give 1L banana bag.
   # Access:  PICC line placed [**12-8**]; A-line [**12-8**]
   # PPx:  Heparin SC tid, VAP bundle, bowel regimen
   # Code:  FULL presumed
   # Dispo:  MICU
   # Comm:  Spoke with brother [**Name (NI) **] [**Name (NI) 2269**] (Cell [**0-0-**]) and
   updated. Closest family member is oldest son [**Name (NI) 3062**].  [**Name2 (NI) 3062**] and [**Doctor Last Name **]
   both in [**Location (un) 3063**].  Social work spoke with [**Doctor Last Name 3062**] who would like to make
   medical decisions and pursue guardianship if necessary.  (see SW note).
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2104-12-5**] 11:06 AM
   PICC Line - [**2104-12-8**] 07:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2104-12-10 12:43:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   64 yo man with severe COPD, ETOH withdrawl, admitted with respiratory
   both times.  Has required valium for withdrawl.   Had pneumothorax on
   each side during codes, b/l chest tubes.
   24 Hour Events:
   foley replaced for low urine output which improved.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2104-12-10**] 08:00 AM
   Diazepam (Valium) - [**2104-12-10**] 08:00 AM
   Midazolam (Versed) - [**2104-12-10**] 10:48 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-12-10**] 12:43 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.5
C (97.7
   HR: 71 (66 - 109) bpm
   BP: 172/94(122) {99/57(71) - 195/105(136)} mmHg
   RR: 17 (15 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.3 kg (admission): 79.4 kg
   Height: 70 Inch
             Total In:
                                                                  3,821 mL
                                                                  1,582 mL
   PO:
             TF:
                                                                    359 mL
   IVF:
                                                                  3,312 mL
                                                                  1,582 mL
   Blood products:
   Total out:
                                                                  2,723 mL
                                                                  1,065 mL
   Urine:
                                                                  2,073 mL
                                                                    685 mL
   NG:
                                                                    350 mL
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                  1,098 mL
                                                                    517 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 520) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Agitated
   PIP: 28 cmH2O
   Plateau: 16 cmH2O
   SpO2: 96%
   ABG: 7.42/46/103/29/4
   Ve: 9.4 L/min
   PaO2 / FiO2: 258
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, Rash: , crepitus overchest wall.
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, unresponsive
   Labs / Radiology
   10.2 g/dL
   163 K/uL
   146 mg/dL
   0.8 mg/dL
   29 mEq/L
   4.0 mEq/L
   28 mg/dL
   106 mEq/L
   139 mEq/L
   29.2 %
   15.7 K/uL
        [image002.jpg]
                            [**2104-12-7**]  04:12 AM
                            [**2104-12-7**]  05:59 PM
                            [**2104-12-8**]  03:24 AM
                            [**2104-12-8**]  06:16 AM
                            [**2104-12-8**]  02:56 PM
                            [**2104-12-9**]  04:06 AM
                            [**2104-12-9**]  04:26 AM
                            [**2104-12-10**]  01:57 AM
                            [**2104-12-10**]  02:08 AM
                            [**2104-12-10**]  06:52 AM
   WBC
   18.5
   17.0
   17.4
   15.7
   Hct
   34.3
   31.5
   33.0
   29.2
   Plt
   168
   153
   175
   163
   Cr
   0.9
   0.9
   0.8
   0.8
   TCO2
   26
   28
   29
   31
   32
   31
   Glucose
   144
   129
   122
   146
   Other labs: PT / PTT / INR:12.6/30.3/1.1, CK / CKMB /
   Troponin-T:191/11/0.08, ALT / AST:70/50, Alk Phos / T Bili:33/0.3,
   Lactic Acid:1.8 mmol/L, LDH:454 IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.1 mg/dL
   Assessment and Plan
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   Increase basal rate of versed as he keeps breaking through.
   Cardiac arrest:  Potentially caused by withdrawl seizures complicated
   by tension PTXs.
   Respiratory failure/COPD:  Less wheezing, wean solumedrol.
             - Pneumothorax: Chest tubes with slow leak, continue to
   suction.
   ILEUS:  Not tolerating po valium, check KUB to r/o obstruction.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2104-12-5**] 11:06 AM
   PICC Line - [**2104-12-8**] 07:05 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2104-12-11 05:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - versed increased and boluses given.
   - solumedrol decreased to 60 mg Q8H
   - KUB
   - banana bag
   - ducolax x 2 PR
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2104-12-11**] 12:04 AM
   Midazolam (Versed) - [**2104-12-11**] 04:38 AM
   Diazepam (Valium) - [**2104-12-11**] 04:44 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-12-11**] 05:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.4
C (97.5
   HR: 94 (62 - 94) bpm
   BP: 171/87(111) {99/57(71) - 184/99(130)} mmHg
   RR: 20 (17 - 20) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.3 kg (admission): 79.4 kg
   Height: 70 Inch
             Total In:
                                                                  2,774 mL
                                                                    220 mL
   PO:
             TF:
   IVF:
                                                                  2,774 mL
                                                                    220 mL
   Blood products:
   Total out:
                                                                  2,179 mL
                                                                    290 mL
   Urine:
                                                                  1,240 mL
                                                                    290 mL
   NG:
                                                                    650 mL
   Stool:
   Drains:
   Balance:
                                                                    595 mL
                                                                    -70 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 25 cmH2O
   Plateau: 15 cmH2O
   SpO2: 92%
   ABG: 7.42/46/103/29/4
   Ve: 8.8 L/min
   PaO2 / FiO2: 258
   Physical Examination
   GEN: elderly male, intubated and sedated, opens eyes to noxious
   stimuli; eyes twitching, & hypertensive to stimuli.
   HEENT: pupils 1-2mm, minimally reactive bilaterally, sclera anicteric
   with L scleral edema, purulent drainage L nostril
   NECK: Trachea midline
   COR: RRR, no M/G/R, normal S1 S2, radial pulses +2
   CHEST: subcutaneous crepitus.
   PULM: Coarse vented breath sounds bilaterally; wheezing much improved.
   CTs to suction bilaterally
   ABD: Soft, NT, ND, hypoactive BS, no HSM appreciated
   EXT: No C/C/E, no palpable cords. Pneumoboots
   NEURO: Sedated, positive corneal reflexes, negative dolls eyes, no
   spontaneous movements of UE or LE but opens eyes to noxious stimuli,
   not following commands
   SKIN: No jaundice, cyanosis, ecchymoses.
   Labs / Radiology
   185 K/uL
   10.4 g/dL
   109 mg/dL
   0.8 mg/dL
   29 mEq/L
   3.8 mEq/L
   30 mg/dL
   105 mEq/L
   141 mEq/L
   29.7 %
   15.1 K/uL
         [image002.jpg]
                            [**2104-12-7**]  05:59 PM
                            [**2104-12-8**]  03:24 AM
                            [**2104-12-8**]  06:16 AM
                            [**2104-12-8**]  02:56 PM
                            [**2104-12-9**]  04:06 AM
                            [**2104-12-9**]  04:26 AM
                            [**2104-12-10**]  01:57 AM
                            [**2104-12-10**]  02:08 AM
                            [**2104-12-10**]  06:52 AM
                            [**2104-12-11**]  03:14 AM
   WBC
   17.0
   17.4
   15.7
   15.1
   Hct
   31.5
   33.0
   29.2
   29.7
   Plt
   153
   175
   163
   185
   Cr
   0.9
   0.8
   0.8
   0.8
   TCO2
   26
   28
   29
   31
   32
   31
   Glucose
   129
   122
   146
   109
   Other labs: PT / PTT / INR:12.6/30.3/1.1, CK / CKMB /
   Troponin-T:191/11/0.08, ALT / AST:70/50, Alk Phos / T Bili:33/0.3,
   Lactic Acid:1.8 mmol/L, LDH:454 IU/L, Ca++:8.3 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.7 mg/dL
   Assessment and Plan
 64M homeless h/o COPD, asthma, EtOH abuse who intially presented with
   SOB, likely COPD exacerbation, left AMA, now s/p cardiac arrest x 2
   with bilateral CT placement for PTX.
   .
   # Agitation, hypertension, ETOH abuse: Likely due to alcohol
   withdrawal.  Propofol stopped yesterday.  Improved with addition of
   valium, though still requiring 10 mg IV Q4H.  Pt. not absorbing PO meds
   and thus not able to benefit from longer half-life of PO valium.
   Mental status difficult to assess given mix of drugs currently
   onboard.  Given eye twitching, the patient could possibly be seizing
   though per report EEG yesterday negative for seizures, though versed
   will suppress seizure activity.
   - Increase versed to 4-12 mg/hr
   - Cont. valium IV prn agitation
   - Consider repeat EEG when ETOH withdrawal & MS improves
   .
   #. Decreasing urine output: Resolved after replacement of clogged foley
   catheter.  Will continue to monitor.
   .
   # SOB/Resp Failure: Multiple possible etiologies for initial
   presentation including COPD/asthma flare, PNA (especially consider
   aspiration given EtOH) or other pulmonary infections (e.g. TB given
   homeless).  ACS (ECG supports prior inferior MI and risk factors
   include male, smoker) or PE less likely given presentation. Most likely
   cause is COPD flare given long smoking history and wheezing on exam as
   no evidence for cavitation or infiltrate on CXR, no fever or
   leukocytosis and no cough, and denied CP per EMS and no evidence of
   acute ECG changes including no RV strain. Initial CXR without acute
   process but now s/p arrest ?R infiltrate which could represent
   aspiration from event or evolving PNA present prior to IVF. Unable to
   tolerate RSBI in am [**3-15**] agitation.  As wheezing has improved
   dramatically will start to decrease steroids.
   - [**Month (only) **]. Solumedrol to 60 mg q8 hours
   - Continue Solumedrol, Atrovent and albuterol nebs
   - Trend WBC count, fever curve
   - Continue chest tubes for pneumothorax, currently sealed to vacuum.
   - Follow ABGs and lactate
   - Barriers to extubation include mental status, alertness, bronchospasm
   and agitation
   - Daily CXRs to assess CTs, PTX
   - resend urine legionella
   .
   #. Poor intestinal absorption/motility: Patient did not stool yesterday
   despite aggressive bowel regimen and is not tolerating tube feeds.
   High doses of opiates may be contributing.  Abdomen is currently soft.
   -          KUB to eval for obstruction.
   -          Bisacodyl suppository
   -          Change PO meds to IV banana bag + PR aspirin
   # s/p cardiac arrest: Etiologies include pneumothorax, hypoxia,
   hyperkalemia, acidosis, among others. Seizure may have been a component
   of initial arrest given unresponsiveness, abnormal movements, and
   incontinence. Received multiple rounds epi and atropine in the ED, as
   well as 3x shocks. 2^nd arrest am [**12-5**] during cooling protocol.
   Current neoro exam 48 hours from arrest s/p cooling and rewarming with
   minimal reaction however still sedated since becomes tachypneic
   agitated when sedation weaned.
   - Completed Arctic Sun protocol [**12-6**] and rewarmed, off paralytics
   - Wean fentanyl and versed gtt as tolerated
   - Head CT without intracranial pathology but has fluid in sinuses
   - Continue supportive care s/p arrest.# Hyperlactatemia: Elevated
   lactate on first admission with AG 13 and elevated bicarb. Bicarb
   likely elevated [**3-15**] acute/chronic respiratory acidosis. Lactate may be
   elevated [**3-15**] hypoperfusion, increased work of breathing with
   respiratory distress. No signs or symptoms of sepsis. Lactate now
   trended down, 1.3.
   - f/u cultures
   - Consider antibiotics if pt demonstrates s/s of infection.
   # ?Sinusitis: Pt
s head CT has fluid in sinuses and has purulent
   drainage L nostril c/w possible siunisits. Currently afebrile
   -          F/U cx nasal drainage, viral swab
   -          Abx if spikes, hold for now
   # CAD s/p silent myocardial infarction: s/p cardiac arrest and multiple
   shocks.
   - add ASA
   - hold B-blocker until BP controlled, consider statin
   .
   # PTSD/bipolar disorder: Appears that he is not on medications as
   outpatient. Per family, has been seen in VA system
   .
   # History of alcoholic hepatitis: No LFTs in many years, but normal on
   check [**2104-12-4**], slightly elevated on repeat but has had episodes
   hypotension, cardiac arrest.
   .
   # FEN: Pt. not tolerating TFs.  Will need to hold if planned
   extubation; stop standing IVF and give 1L banana bag.
   # Access:  PICC line placed [**12-8**]; A-line [**12-8**]
   # PPx:  Heparin SC tid, VAP bundle, bowel regimen
   # Code:  FULL presumed
   # Dispo:  MICU
   # Comm:  Spoke with brother [**Name (NI) **] [**Name (NI) 2269**] (Cell [**0-0-**]) and
   updated. Closest family member is oldest son [**Name (NI) 3062**].  [**Name2 (NI) 3062**] and [**Doctor Last Name **]
   both in [**Location (un) 3063**].  Social work spoke with [**Doctor Last Name 3062**] who would like to make
   medical decisions and pursue guardianship if necessary.  (see SW note).
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2104-12-5**] 11:06 AM
   PICC Line - [**2104-12-8**] 07:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2104-12-12 05:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Started Enalapril .625mg IV q6 hours, increased to 1.25 IV q6 hours
   overnight for BPs in 180s systolic
   Started Propofol for agitation, attempting to wean, now off
   Reglan for GI motility
   Decreased steroids to 60mg IV BID
   Banana bag qday, not tolerated tube feeds
   Passed a small amount of urine per rectum.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2104-12-11**] 02:55 PM
   Pantoprazole (Protonix) - [**2104-12-11**] 08:09 PM
   Heparin Sodium (Prophylaxis) - [**2104-12-12**] 12:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-12-12**] 05:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.9
C (96.6
   HR: 52 (52 - 108) bpm
   BP: 136/72(92) {130/63(82) - 190/96(125)} mmHg
   RR: 20 (18 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 89 kg (admission): 79.4 kg
   Height: 70 Inch
             Total In:
                                                                  2,111 mL
                                                                    599 mL
   PO:
             TF:
   IVF:
                                                                  2,111 mL
                                                                    599 mL
   Blood products:
   Total out:
                                                                  1,870 mL
                                                                    480 mL
   Urine:
                                                                  1,500 mL
                                                                    480 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                    241 mL
                                                                    119 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 28 cmH2O
   Plateau: 20 cmH2O
   Compliance: 45.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.42/48/89.[**Numeric Identifier 126**]//5
   Ve: 9.7 L/min
   PaO2 / FiO2: 223
   Physical Examination
   GEN: elderly male, intubated and sedated, opens eyes to noxious
   stimuli.
   HEENT: pupils 1-2mm, minimally reactive bilaterally, sclera anicteric
   with L scleral edema, purulent drainage L nostril
   NECK: Trachea midline
   COR: RRR, no M/G/R, normal S1 S2, radial pulses +2
   CHEST: subcutaneous crepitus still present throughout upper chest.
   PULM: Coarse vented breath sounds bilaterally; no wheezing.  CTs to
   suction bilaterally
   ABD: Soft, NT, ND, hypoactive BS, no HSM appreciated
   EXT: No C/C/E, no palpable cords. Pneumoboots
   NEURO: Sedated, positive corneal reflexes, negative dolls eyes, no
   spontaneous movements of UE or LE but opens eyes to noxious stimuli,
   not following commands
   SKIN: No jaundice, cyanosis, ecchymoses.
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   174 K/uL
   10.3 g/dL
   142 mg/dL
   0.8 mg/dL
   30 mEq/L
   3.8 mEq/L
   25 mg/dL
   103 mEq/L
   136 mEq/L
   29.3 %
   15.1 K/uL
        [image002.jpg]
                            [**2104-12-8**]  06:16 AM
                            [**2104-12-8**]  02:56 PM
                            [**2104-12-9**]  04:06 AM
                            [**2104-12-9**]  04:26 AM
                            [**2104-12-10**]  01:57 AM
                            [**2104-12-10**]  02:08 AM
                            [**2104-12-10**]  06:52 AM
                            [**2104-12-11**]  03:14 AM
                            [**2104-12-11**]  06:30 AM
                            [**2104-12-12**]  04:42 AM
   WBC
   17.4
   15.7
   15.1
   15.1
   Hct
   33.0
   29.2
   29.7
   29.3
   Plt
   175
   163
   185
   174
   Cr
   0.8
   0.8
   0.8
   TCO2
   28
   29
   31
   32
   31
   32
   Glucose
   122
   146
   109
   Other labs: Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   KUB: no ilieus or obstruction
   CXR: New L retrocardiac opacity
 atelectasis, ?pleural effusion; L
   chest tube retracted slightly outward
   EEG [**Location (un) **]: low voltage theta and delta waves suggesting difuse mild
   to moderate encephalopathy
   Assessment and Plan
   64M homeless h/o COPD, asthma, EtOH abuse who intially presented with
   SOB, likely COPD exacerbation, left AMA, now s/p cardiac arrest x 2
   with bilateral CT placement for PTX.
   .
   # SOB/Resp Failure: Multiple possible etiologies for initial
   presentation including COPD/asthma flare, PNA (especially consider
   aspiration given EtOH) or other pulmonary infections (e.g. TB given
   homeless).  ACS (ECG supports prior inferior MI and risk factors
   include male, smoker) or PE less likely given presentation.  Initial
   CXR without acute process but now s/p arrest.   As wheezing has
   improved dramatically will start to decrease steroids.  Barriers to
   extubation include mental status, alertness, bronchospasm and
   agitation.
   - Will try to switch to pressure support today.
   - Cont.  Solumedrol to 60 mg q12 hours
   - Continue Atrovent and albuterol nebs
   - Trend WBC count, fever curve
   - Continue chest tubes for pneumothorax, currently sealed to vacuum.
   - Follow ABGs and lactate
   - Daily CXRs to assess CTs, PTX
   .
   # Agitation, ETOH abuse: Agitation improved, continues to be
   hypertensive.  EtOH withdrawal and risk of DTs likely over.  Was
   treated with midazolam and valium previously for that.  Now on fentanyl
   for sedation with propofol weaned off.  Mental status difficult to
   assess given mix of drugs currently onboard, but appears improved.
   Given eye twitching, the patient could possibly be seizing though per
   report EEG yesterday negative for seizures, though versed will suppress
   seizure activity.
   - Continue fentanyl
   - Consider repeat EEG if MS improves
   .
   #. Hypertension: On reviewing old records, pt. has a history of HTN and
   was previously discharged from this institution on lisinopril and
   atenolol.  Thus, he likely has HTN at baseline and requires some
   medication for this.
   - Cont. enalapril IV as pt. cannot yet tolerate PO meds
   - Holding beta blocker as pt. is bradycardic at times
   .
   #. Poor intestinal absorption/motility: Patient did pass some mucous
   yesterday, but no frank stools yet despite aggressive bowel regimen and
   is not tolerating tube feeds.  High doses of opiates may be
   contributing.  Abdomen is currently soft.  No evidence of obstruction
   on KUB.  Want to encourage intestinal motility so that tube feeds can
   be restarted and pt. does not suffer nutritionally.
   -          PO narcan to help wake up bowel
   -          Cont. bisacodyl suppository + IV reglan
   -          IV banana bag + PR aspirin / day
   # S/P cardiac arrest: Etiologies include pneumothorax, hypoxia,
   hyperkalemia, acidosis, among others. Seizure may have been a component
   of initial arrest given unresponsiveness, abnormal movements, and
   incontinence. Received multiple rounds epi and atropine in the ED, as
   well as 3x shocks. 2^nd arrest am [**12-5**] during cooling protocol.
   Current neoro exam 48 hours from arrest s/p cooling and rewarming with
   minimal reaction however still sedated since becomes tachypneic
   agitated when sedation weaned.  Completed Arctic Sun protocol [**12-6**] and
   rewarmed, off paralytics; Had a head CT without intracranial pathology
   but has fluid in sinuses.
   - Wean fentanyl and versed gtt as tolerated
   - Continue supportive care s/p arrest.
   # Hyperlactatemia: Elevated lactate on first admission with AG 13 and
   elevated bicarb. Bicarb likely elevated [**3-15**] acute/chronic respiratory
   acidosis. Lactate may be elevated [**3-15**] hypoperfusion, increased work of
   breathing with respiratory distress. No signs or symptoms of sepsis.
   - f/u cultures
   - Consider antibiotics if pt demonstrates s/s of infection.
   # ?Sinusitis: Pt
s head CT has fluid in sinuses and has purulent
   drainage L nostril c/w possible siunisits. Currently afebrile
   -          F/U cx nasal drainage, viral swab
   -          Abx if spikes, hold for now
   # CAD s/p silent myocardial infarction: s/p cardiac arrest and multiple
   shocks.
   - add ASA
   - hold B-blocker given intermittent bradycardia,
   - consider statin
   .
   # PTSD/bipolar disorder: Appears that he is not on medications as
   outpatient. Per family, has been seen in VA system
   .
   # History of alcoholic hepatitis: normal on check [**2104-12-4**], slightly
   elevated on repeat but has had episodes hypotension, cardiac arrest.
   .
   # FEN: Pt. not tolerating TFs.  1L banana bag/day until TF can be
   started.
   # Access:  PICC line placed [**12-8**]; A-line [**12-8**]
   # PPx:  Heparin SC tid, VAP bundle, bowel regimen
   # Code:  FULL presumed
   # Dispo:  MICU
   # Comm:  Spoke with brother [**Name (NI) **] [**Name (NI) 2269**] (Cell [**0-0-**]) and
   updated. Closest family member is oldest son [**Name (NI) 3062**].  [**Name2 (NI) 3062**] and [**Doctor Last Name **]
   both in [**Location (un) 3063**].  Social work spoke with [**Doctor Last Name 3062**] who would like to make
   medical decisions and pursue guardianship if necessary.  (see SW
   note).  Guardianship paperwork in progress.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2104-12-5**] 11:06 AM
   PICC Line - [**2104-12-8**] 07:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2104-12-13 05:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -One BM with the help of: PO naloxone, docusate, senna, and IV
   erythromycin.
   -BP control- sedation important to avoiding hypertension
   -failed PS
   -daily banana bag
   -continue current steroids
   - -1.4 L yesterday,
   - restart tube feeds if tolerated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Erythromycin - [**2104-12-13**] 02:00 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Hydralazine - [**2104-12-12**] 04:15 PM
   Pantoprazole (Protonix) - [**2104-12-12**] 08:05 PM
   Heparin Sodium (Prophylaxis) - [**2104-12-13**] 12:06 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-12-13**] 05:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37
C (98.6
   HR: 78 (50 - 94) bpm
   BP: 141/88(100) {138/84(96) - 153/88(100)} mmHg
   RR: 20 (16 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89 kg (admission): 79.4 kg
   Height: 70 Inch
             Total In:
                                                                  2,774 mL
                                                                    883 mL
   PO:
             TF:
   IVF:
                                                                  2,774 mL
                                                                    883 mL
   Blood products:
   Total out:
                                                                  4,265 mL
                                                                    915 mL
   Urine:
                                                                  3,295 mL
                                                                    380 mL
   NG:
                                                                    900 mL
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,491 mL
                                                                    -32 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 31 cmH2O
   Plateau: 26 cmH2O
   Compliance: 23.8 cmH2O/mL
   SpO2: 99%
   ABG: 7.43/49/129//7
   Ve: 9.2 L/min
   PaO2 / FiO2: 322
   Physical Examination
   GEN: elderly male, intubated and sedated, opens eyes to noxious
   stimuli.
   HEENT: pupils 1-2mm, minimally reactive bilaterally, sclera anicteric
   with L scleral edema, decreased drainage from nostril
   NECK: Trachea midline
   COR: RRR, no M/G/R, normal S1 S2, radial pulses +2
   CHEST: subcutaneous crepitus still present throughout upper chest,
   decreasing
   PULM: Coarse vented breath sounds bilaterally; no wheezing.  CTs to
   suction bilaterally
   ABD: Soft, NT, ND, hypoactive BS, no HSM appreciated
   EXT: No C/C/E, no palpable cords. Pneumoboots
   NEURO: Sedated,negative dolls eyes, no spontaneous movements of UE or
   LE but opens eyes to noxious stimuli, not following commands
   SKIN: No jaundice, cyanosis, ecchymoses.  Pitting edema in hands and
   lower extremities bilaterally
   Labs / Radiology
   215 K/uL
   11.3g/dL
   102 mg/dL
                                     0.9
                                    g/dL
   33 mEq/L
   3.4 mEq/L
   27 mg/dL
   98 mEq/L
                                                                       135
                                                                     mEq/L
   33.2 %
   19.8 /uL
        [image002.jpg]
   Legionella Ag- negative
   Sputum- budding yeasts with pseudohyphae
                            [**2104-12-8**]  02:56 PM
                            [**2104-12-9**]  04:06 AM
                            [**2104-12-9**]  04:26 AM
                            [**2104-12-10**]  01:57 AM
                            [**2104-12-10**]  02:08 AM
                            [**2104-12-10**]  06:52 AM
                            [**2104-12-11**]  03:14 AM
                            [**2104-12-11**]  06:30 AM
                            [**2104-12-12**]  04:42 AM
                            [**2104-12-12**]  03:18 PM
   WBC
   17.4
   15.7
   15.1
   15.1
   Hct
   33.0
   29.2
   29.7
   29.3
   Plt
   175
   163
   185
   174
   Cr
   0.8
   0.8
   0.8
   0.8
   TCO2
   29
   31
   32
   31
   32
   34
   Glucose
   122
   146
   109
   142
   Other labs:, , , Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   64M homeless h/o COPD, asthma, EtOH abuse who intially presented with
   SOB, likely COPD exacerbation, left AMA, now s/p cardiac arrest x 2
   with bilateral CT placement for PTX.
   .
   # SOB/Resp Failure: Multiple possible etiologies for initial
   presentation including COPD/asthma flare, PNA (especially consider
   aspiration given EtOH) or other pulmonary infections (e.g. TB given
   homeless).  ACS (ECG supports prior inferior MI and risk factors
   include male, smoker) or PE less likely given presentation.  Initial
   CXR without acute process but now s/p arrest.   As wheezing has
   improved dramatically will start to decrease steroids.  Barriers to
   extubation include volume overload, bronchospasm, mental status,
   alertness, and agitation.  Possible infiltrate on CXR, but may be due
   to positioning.
   - Will try to switch to pressure support today.
   - Cont.  Solumedrol to 60 mg q12 hours
   - Lasix today to -1 L
   - Continue Atrovent and albuterol nebs
   - Trend WBC count, fever curve
   - Continue chest tubes for pneumothorax, currently sealed to vacuum.
   - Follow ABGs and lactate
   - Daily CXRs to assess CTs, PTX
   .
   #Leukocytosis- [**Month (only) 51**] be steroid induced, but may be infectious.  Sources
   include lungs, C. diff, and potentially his sinuses.  No fevers.
   However, steroids may be masking infection.
   -Sputum cx
   -Blood cx x2
   -oxymetazoline per nares and saline washes for sinusitis
   # Agitation, ETOH abuse: Agitation improved, continues to be
   hypertensive.  EtOH withdrawal and risk of DTs likely over.  Was
   treated with midazolam and valium previously for that.  Now on fentanyl
   for sedation with propofol weaned off.  Mental status difficult to
   assess given mix of drugs currently onboard, but appears improved.
   Given eye twitching, the patient could possibly be seizing though per
   report EEG yesterday negative for seizures, though versed will suppress
   seizure activity.
   - Begin attempting to wean sedation in order to move towards PSV.
   - Haldol for agitation
   .
   #. Hypertension: On reviewing old records, pt. has a history of HTN and
   was previously discharged from this institution on lisinopril and
   atenolol.  Thus, he likely has HTN at baseline and requires some
   medication for this.
   - Cont. enalapril IV as pt. cannot yet tolerate PO meds
   - Holding beta blocker as pt. is bradycardic at times
   #. Poor intestinal absorption/motility: Pt had first small bowel
   movement yesterday.  High doses of opiates may be contributing.
   Abdomen is currently soft.  No evidence of obstruction on KUB.  Want to
   encourage intestinal motility so that tube feeds can be restarted and
   pt. does not suffer nutritionally.  Pt currently putting out large
   amounts of fluid through OG tube.
   -Clamp suction tubes in order to see
   -Cont. bisacodyl suppository + IV reglan
   -IV banana bag + PR aspirin / day
   -Abdominal exams for distention/rigidity.
   # S/P cardiac arrest: Etiologies include pneumothorax, hypoxia,
   hyperkalemia, acidosis, among others. Seizure may have been a component
   of initial arrest given unresponsiveness, abnormal movements, and
   incontinence. Received multiple rounds epi and atropine in the ED, as
   well as 3x shocks. 2^nd arrest am [**12-5**] during cooling protocol.
   Current neoro exam 48 hours from arrest s/p cooling and rewarming with
   minimal reaction however still sedated since becomes tachypneic
   agitated when sedation weaned.  Completed Arctic Sun protocol [**12-6**] and
   rewarmed, off paralytics; Had a head CT without intracranial pathology
   but has fluid in sinuses.
   - Wean fentanyl and versed gtt as tolerated
   - Continue supportive care s/p arrest.
   # Hyperlactatemia: Elevated lactate on first admission with AG 13 and
   elevated bicarb. Bicarb likely elevated [**3-15**] acute/chronic respiratory
   acidosis. Lactate may be elevated [**3-15**] hypoperfusion, increased work of
   breathing with respiratory distress. No signs or symptoms of sepsis.
   - f/u cultures
   - Consider antibiotics if pt demonstrates s/s of infection.
   # ?Sinusitis: Pt
s head CT has fluid in sinuses and has purulent
   drainage L nostril c/w possible sinusitis. Currently afebrile
   -          See treatment above
   # CAD s/p silent myocardial infarction: s/p cardiac arrest and multiple
   shocks.
   - add ASA
   - hold B-blocker given intermittent bradycardia,
   - consider statin
   .
   # PTSD/bipolar disorder: Appears that he is not on medications as
   outpatient. Per family, has been seen in VA system
   .
   # History of alcoholic hepatitis: normal on check [**2104-12-4**], slightly
   elevated on repeat but has had episodes hypotension, cardiac arrest.
   .
   # FEN: Pt. not tolerating TFs.  1L banana bag/day until TF can be
   started.
   # Access:  PICC line placed [**12-8**]; A-line was lost [**12-13**].  Needs to be
   replaced.
   # PPx:  Heparin SC tid, VAP bundle, bowel regimen
   # Code:  FULL presumed
   # Dispo:  MICU
   # Comm:  Spoke with brother [**Name (NI) **] [**Name (NI) 2269**] (Cell [**0-0-**]) and
   updated. Closest family member is oldest son [**Name (NI) 3062**].  [**Name2 (NI) 3062**] and [**Doctor Last Name **]
   both in [**Location (un) 3063**].  Social work spoke with [**Doctor Last Name 3062**] who would like to make
   medical decisions and pursue guardianship if necessary.  (see SW
   note).  Guardianship paperwork in progress.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2104-12-5**] 11:06 AM.  Needs to be replaced.
   PICC Line - [**2104-12-8**] 07:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Agree with above MS4 note.
   Plan to start haldol given agitation during sedative weaning, and then
   attempt to wean propofol and fentanyl gtts today. Diurese for goal I/O
   -1L. Trial of clamping NG tube as bowel function appears to be
   improving. Send C. diff, sputum culture given rising WBC; continue to
   hold antibiotics for now as no clear infectious source. Continue to
   treat COPD flare with steroids, inhalers. PS trial. Will replace
   arterial line.
   ------ Protected Section Addendum Entered By:[**Name (NI) 902**] [**Last Name (NamePattern1) 500**], MD
   on:[**2104-12-13**] 13:57 ------

2104-12-13 11:31:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   64 yo man with severe COPD, ETOH withdrawl. Cardiac arrest X 2, b/l
   Pneumothoracices
   24 Hour Events:
   Unable to wean to PSV.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Erythromycin - [**2104-12-13**] 09:56 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Hydralazine - [**2104-12-12**] 04:15 PM
   Pantoprazole (Protonix) - [**2104-12-12**] 08:05 PM
   Heparin Sodium (Prophylaxis) - [**2104-12-13**] 08:12 AM
   Other medications:
   albuterol/atrovent
   SSI
   docusate
   chlorhex
   asa
   reglan
   naloxone
   enalapril
   erythro
   MVI
   lasix
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-12-13**] 11:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.6
C (97.8
   HR: 67 (55 - 102) bpm
   BP: 119/67(79) {111/67(77) - 186/109(128)} mmHg
   RR: 20 (18 - 38) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89 kg (admission): 79.4 kg
   Height: 70 Inch
             Total In:
                                                                  2,774 mL
                                                                  1,725 mL
   PO:
             TF:
   IVF:
                                                                  2,774 mL
                                                                  1,725 mL
   Blood products:
   Total out:
                                                                  4,265 mL
                                                                  1,600 mL
   Urine:
                                                                  3,295 mL
                                                                  1,065 mL
   NG:
                                                                    900 mL
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,491 mL
                                                                    125 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 23 cmH2O
   Plateau: 18 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 98%
   ABG: 7.43/49/129/33/7
   Ve: 9.4 L/min
   PaO2 / FiO2: 322
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.3 g/dL
   215 K/uL
   102 mg/dL
   0.9 mg/dL
   33 mEq/L
   3.4 mEq/L
   27 mg/dL
   98 mEq/L
   135 mEq/L
   33.2 %
   19.8 K/uL
        [image002.jpg]
                            [**2104-12-9**]  04:06 AM
                            [**2104-12-9**]  04:26 AM
                            [**2104-12-10**]  01:57 AM
                            [**2104-12-10**]  02:08 AM
                            [**2104-12-10**]  06:52 AM
                            [**2104-12-11**]  03:14 AM
                            [**2104-12-11**]  06:30 AM
                            [**2104-12-12**]  04:42 AM
                            [**2104-12-12**]  03:18 PM
                             [**2104-12-13**]  05:05 AM
   WBC
   17.4
   15.7
   15.1
   15.1
   19.8
   Hct
   33.0
   29.2
   29.7
   29.3
   33.2
   Plt
   175
   163
   185
   174
   215
   Cr
   0.8
   0.8
   0.8
   0.8
   0.9
   TCO2
   31
   32
   31
   32
   34
   Glucose
   122
   146
   109
   142
   102
   Other labs: PT / PTT / INR:12.6/30.3/1.1, CK / CKMB /
   Troponin-T:191/11/0.08, ALT / AST:70/50, Alk Phos / T Bili:33/0.3,
   Lactic Acid:1.8 mmol/L, LDH:454 IU/L, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.7 mg/dL
   Assessment and Plan
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES): Still
   agitated when waking, but out of the window for withdrawl.
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION: continue nebs, wean steroids
 .H/O RESPIRATORY FAILURE, CHRONIC:  Wake up and try PSV trial again.
 HYPERTENSION, BENIGN
 PNEUMOTHORAX, OTHER (NOT HOSPITAL ACQUIRED OR TRAUMATIC)  b/l chest
   tubes.
 CARDIAC ARREST
   Leukocytosis:  check stool for C. diff.
   Ileus:  Not tolerating TFs, but having bowel sounds.
   Hypervolemia: Diurese 1L
   Agitation:  Try haldol
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2104-12-5**] 11:06 AM
   PICC Line - [**2104-12-8**] 07:05 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2104-12-14 05:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2104-12-13**] 02:26 PM
   picc
 BLOOD CULTURED - At [**2104-12-13**] 02:27 PM
   peripheral
 STOOL CULTURE - At [**2104-12-13**] 02:27 PM
 EKG - At [**2104-12-13**] 02:28 PM
 SPUTUM CULTURE - At [**2104-12-13**] 03:06 PM
 ARTERIAL LINE - STOP [**2104-12-13**] 06:47 PM
 BLOOD CULTURED - At [**2104-12-13**] 09:00 PM
 ARTERIAL LINE - START [**2104-12-13**] 09:11 PM
 UNPLANNED EXTUBATION (NON-PATIENT INITIATED) - At [**2104-12-13**] 11:00 PM
   - succeeded on PS trial
   - haldol helped decrease agitation
   - goal diuresis -1L
   - afternoon BM
   - written for Afrin nasal flushes
   - A-line inserted, ABG: 7.43 / 48 / 111 / 33
   - ~2100, eyes noted to be deviated to the left w/ saccades, neuro
   consult requested, stat head CT neg per consultant, pt. extubated on
   route back to floor, anesthesia called & reintubated pt [**Name (NI) 3220**] 7.43 / 49
   / 142 / 34), NGT replaced; pt. back on CMV & not tolerating PSV.
   - sputum & C. diff labs pending
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Erythromycin - [**2104-12-14**] 04:05 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2104-12-13**] 12:32 PM
   Pantoprazole (Protonix) - [**2104-12-13**] 08:39 PM
   Heparin Sodium (Prophylaxis) - [**2104-12-14**] 01:19 AM
   Haloperidol (Haldol) - [**2104-12-14**] 02:18 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-12-14**] 05:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.3
C (99.2
   HR: 66 (64 - 102) bpm
   BP: 98/58(72) {98/58(0) - 233/107(150)} mmHg
   RR: 21 (0 - 38) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89 kg (admission): 79.4 kg
   Height: 70 Inch
             Total In:
                                                                  3,484 mL
                                                                    772 mL
   PO:
             TF:
   IVF:
                                                                  3,484 mL
                                                                    772 mL
   Blood products:
   Total out:
                                                                  5,325 mL
                                                                    940 mL
   Urine:
                                                                  4,215 mL
                                                                    835 mL
   NG:
                                                                    700 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,841 mL
                                                                   -168 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 1,104 (497 - 1,104) mL
   PS : 15 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 33 cmH2O
   Plateau: 21 cmH2O
   SpO2: 99%
   ABG: 7.43/49/142/32/7
   Ve: 6.8 L/min
   PaO2 / FiO2: 355
   Physical Examination
   GEN: elderly male, intubated and sedated, opens eyes to noxious
   stimuli.
   HEENT: pupils 3-4mm, reactive bilaterally, sclera anicteric with L
   scleral edema, decreased drainage from nostril
   NECK: Trachea midline
   COR: RRR, no M/G/R, normal S1 S2, radial pulses +2
   CHEST: subcutaneous crepitus still present throughout upper chest,
   decreasing
   PULM: Coarse vented breath sounds bilaterally; no wheezing.  CTs to
   suction bilaterally
   ABD: Soft, NT, ND, hypoactive BS, no HSM appreciated
   EXT: No C/C/E, no palpable cords. Pneumoboots
   NEURO: Sedated,negative dolls eyes, no spontaneous movements of UE or
   LE but opens eyes to noxious stimuli, not following commands
   SKIN: No jaundice, cyanosis, ecchymoses.  Pitting edema in hands and
   lower extremities bilaterally
   Labs / Radiology
   219 K/uL
   10.7 g/dL
   93 mg/dL
   0.9 mg/dL
   32 mEq/L
   3.4 mEq/L
   23 mg/dL
   101 mEq/L
   136 mEq/L
   30.1 %
   18.4 K/uL
        [image002.jpg]
                            [**2104-12-10**]  06:52 AM
                            [**2104-12-11**]  03:14 AM
                            [**2104-12-11**]  06:30 AM
                            [**2104-12-12**]  04:42 AM
                            [**2104-12-12**]  03:18 PM
                             [**2104-12-13**]  05:05 AM
                             [**2104-12-13**]  07:34 PM
                             [**2104-12-13**]  11:56 PM
                             [**2104-12-14**]  02:35 AM
                             [**2104-12-14**]  04:28 AM
   WBC
   15.1
   15.1
   19.8
   18.4
   Hct
   29.7
   29.3
   33.2
   30.1
   Plt
   185
   174
   215
   219
   Cr
   0.8
   0.8
   0.9
   0.9
   TCO2
   31
   32
   34
   33
   31
   34
   Glucose
   109
   142
   102
   93
   Other labs: PT / PTT / INR:12.6/28.5/1.1, Ca++:8.1 mg/dL, Mg++:2.0
   mg/dL, PO4:2.7 mg/dL
   CXR confirming correct placement of endotracheal tube & NGT
   Head CT
 preliminarily no interval changes
   Assessment and Plan
   64M homeless h/o COPD, asthma, EtOH abuse who intially presented with
   SOB, likely COPD exacerbation, left AMA, now s/p cardiac arrest x 2
   with bilateral CT placement for PTX.
   .
   # Abnormal eye movements: Concerning for possible seizure activity,
   particularly given patient
s initial presentation prior to cardiac
   arrest (tonic-clonic muscle jerks with urinary incontinence).  EEG on
   [**12-9**] negative for seizure activity, however, patient was heavily
   sedated on medications that can suppress seizure activity.  As patient
   had to be reintubated following head CT last night, he was again
   heavily sedated making examination by neurology consultants difficult.
   Appreciate neurology following along.
   - EEG on [**12-15**]; will decrease sedation late this evening in anticipation
   of study tomorrow
   - F/u on neurology recs
   # SOB/Resp Failure: Multiple possible etiologies for initial
   presentation including COPD/asthma flare, PNA (especially consider
   aspiration given EtOH) or other pulmonary infections (e.g. TB given
   homeless).  ACS (ECG supports prior inferior MI and risk factors
   include male, smoker) or PE less likely given presentation.  Initial
   CXR without acute process but now s/p arrest.   As wheezing has
   improved dramatically will start to decrease steroids.  Barriers to
   extubation include volume overload, bronchospasm, mental status,
   alertness, and agitation.  Possible infiltrate on CXR, but may be due
   to positioning.
   - Will try to switch to pressure support today.
   - Cont.  Solumedrol to 60 mg daily
   - Lasix today to -1 L
   - Continue Atrovent and albuterol nebs
   - Trend WBC count, fever curve
   - Continue chest tubes for pneumothorax, currently sealed to vacuum.
   - Follow ABGs and lactate
   - Daily CXRs to assess CTs, PTX
   .
   #Leukocytosis- [**Month (only) 51**] be steroid induced, but may be infectious.  Sources
   include lungs, C. diff, and potentially his sinuses.  No fevers.
   However, steroids may be masking infection.
   -Sputum cx
   -Blood cx x2
   -oxymetazoline per nares and saline washes for sinusitis
   # Agitation, ETOH abuse: Agitation improved, continues to be
   hypertensive.  EtOH withdrawal and risk of DTs likely over.  Was
   treated with midazolam and valium previously for that.  Now on fentanyl
   for sedation with propofol back on (previously weaned off).  Mental
   status difficult to assess given mix of drugs currently onboard, but
   appears improved.
   - Begin attempting to wean sedation in order to move towards PSV.
   - Haldol for agitation
   .
   #. Hypertension: On reviewing old records, pt. has a history of HTN and
   was previously discharged from this institution on lisinopril and
   atenolol.  Thus, he likely has HTN at baseline and requires some
   medication for this.
   - Cont. enalapril IV as pt. cannot yet tolerate PO meds
   - Holding beta blocker as pt. is bradycardic at times
   #. Poor intestinal absorption/motility: Pt had first small bowel
   movement yesterday.  High doses of opiates may be contributing.
   Abdomen is currently soft.  No evidence of obstruction on KUB.  Want to
   encourage intestinal motility so that tube feeds can be restarted and
   pt. does not suffer nutritionally.  Pt currently putting out small
   amount of fluid through NG tube.
   -attempt tube feeding trial again
   -Cont. bisacodyl suppository + erythromycin
   -IV banana bag + PR aspirin / day
   -Abdominal exams for distention/rigidity.
   # S/P cardiac arrest: Etiologies include pneumothorax, hypoxia,
   hyperkalemia, acidosis, among others. Seizure may have been a component
   of initial arrest given unresponsiveness, abnormal movements, and
   incontinence. Received multiple rounds epi and atropine in the ED, as
   well as 3x shocks. 2^nd arrest am [**12-5**] during cooling protocol.
   Current neoro exam 48 hours from arrest s/p cooling and rewarming with
   minimal reaction however still sedated since becomes tachypneic
   agitated when sedation weaned.  Completed Arctic Sun protocol [**12-6**] and
   rewarmed, off paralytics; Had a head CT without intracranial pathology
   but has fluid in sinuses.
   - Wean fentanyl and versed gtt as tolerated
   - Continue supportive care s/p arrest.
   # Hyperlactatemia: Elevated lactate on first admission with AG 13 and
   elevated bicarb. Bicarb likely elevated [**3-15**] acute/chronic respiratory
   acidosis. Lactate may be elevated [**3-15**] hypoperfusion, increased work of
   breathing with respiratory distress. No signs or symptoms of sepsis.
   - f/u cultures
   - Consider antibiotics if pt demonstrates s/s of infection.
   # ?Sinusitis: Pt
s head CT has fluid in sinuses and has purulent
   drainage L nostril c/w possible sinusitis. Currently afebrile
   -          See treatment above
   # CAD s/p silent myocardial infarction: s/p cardiac arrest and multiple
   shocks.
   - add ASA
   - hold B-blocker given intermittent bradycardia,
   - consider statin
   .
   # PTSD/bipolar disorder: Appears that he is not on medications as
   outpatient. Per family, has been seen in VA system
   .
   # History of alcoholic hepatitis: normal on check [**2104-12-4**], slightly
   elevated on repeat but has had episodes hypotension, cardiac arrest.
   .
   # FEN: Pt. previously not tolerating TFs.  Will try again today.  1L
   banana bag/day until TF can be started.
   # Access:  PICC line placed [**12-8**]; A-line replaced [**12-13**].
   # PPx:  Heparin SC tid, VAP bundle, bowel regimen
   # Code:  FULL presumed
   # Dispo:  MICU
   # Comm:  Spoke with brother [**Name (NI) **] [**Name (NI) 2269**] (Cell [**0-0-**]) and
   updated. Closest family member is oldest son [**Name (NI) 3062**].  [**Name2 (NI) 3062**] and [**Doctor Last Name **]
   both in [**Location (un) 3063**].  Social work spoke with [**Doctor Last Name 3062**] who would like to make
   medical decisions and pursue guardianship if necessary.  (see SW
   note).  Guardianship paperwork in progress.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2104-12-8**] 07:05 PM
   Arterial Line - [**2104-12-13**] 09:11 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2104-12-14 08:57:00 Physician Attending Progress Note
Chief Complaint: respiratory failure/ETOH withdrawl
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   64 yo with severe COPD with ETOH withdrawl.
   24 Hour Events:
   Overnight patient had occular clonus to left.  Got stat head CT and
   also self extubated on return for head CT.   Reintubated and has been
   heavily sedated since.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Erythromycin - [**2104-12-14**] 04:05 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2104-12-13**] 12:32 PM
   Pantoprazole (Protonix) - [**2104-12-13**] 08:39 PM
   Haloperidol (Haldol) - [**2104-12-14**] 02:18 AM
   Heparin Sodium (Prophylaxis) - [**2104-12-14**] 08:24 AM
   Other medications:
   atrovent, SSI, colace, senna, chlorhex, narcan PO,
   solumedrol, haldol, asa
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-12-14**] 08:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.1
C (98.7
   HR: 78 (66 - 99) bpm
   BP: 142/78(102) {93/57(68) - 233/107(150)} mmHg
   RR: 27 (0 - 38) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.4 kg (admission): 79.4 kg
   Height: 70 Inch
             Total In:
                                                                  3,490 mL
                                                                  1,026 mL
   PO:
             TF:
   IVF:
                                                                  3,490 mL
                                                                  1,026 mL
   Blood products:
   Total out:
                                                                  5,325 mL
                                                                  1,105 mL
   Urine:
                                                                  4,215 mL
                                                                  1,000 mL
   NG:
                                                                    700 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,835 mL
                                                                    -79 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 364 (364 - 1,104) mL
   PS : 8 cmH2O
   RR (Set): 12
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 23 cmH2O
   Plateau: 21 cmH2O
   SpO2: 99%
   ABG: 7.43/49/142/32/7
   Ve: 15.6 L/min
   PaO2 / FiO2: 355
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : expiratory)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed,
   unresponsive to voice or pain
   Labs / Radiology
   10.7 g/dL
   219 K/uL
   93 mg/dL
   0.9 mg/dL
   32 mEq/L
   3.4 mEq/L
   23 mg/dL
   101 mEq/L
   136 mEq/L
   30.1 %
   18.4 K/uL
        [image002.jpg]
                            [**2104-12-10**]  06:52 AM
                            [**2104-12-11**]  03:14 AM
                            [**2104-12-11**]  06:30 AM
                            [**2104-12-12**]  04:42 AM
                            [**2104-12-12**]  03:18 PM
                             [**2104-12-13**]  05:05 AM
                             [**2104-12-13**]  07:34 PM
                             [**2104-12-13**]  11:56 PM
                             [**2104-12-14**]  02:35 AM
                             [**2104-12-14**]  04:28 AM
   WBC
   15.1
   15.1
   19.8
   18.4
   Hct
   29.7
   29.3
   33.2
   30.1
   Plt
   185
   174
   215
   219
   Cr
   0.8
   0.8
   0.9
   0.9
   TCO2
   31
   32
   34
   33
   31
   34
   Glucose
   109
   142
   102
   93
   Other labs: PT / PTT / INR:12.6/28.5/1.1, CK / CKMB /
   Troponin-T:191/11/0.08, ALT / AST:70/50, Alk Phos / T Bili:33/0.3,
   Lactic Acid:1.8 mmol/L, LDH:454 IU/L, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.7 mg/dL
   Imaging: Head CT:  No acute hemorrhage as per neuro.
   Assessment and Plan
 SEIZURE, WITHOUT STATUS EPILEPTICUS: [**Month (only) 51**] have had seizure overnight.
   Unclear if anoxic brain injury from codes is playing a role.
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES):
   Doubt that this is withdrawl seizures.
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION:  Continue nebs on steroid taper.
 .H/O RESPIRATORY FAILURE, CHRONIC
 HYPERTENSION, BENIGN
 PNEUMOTHORAX, OTHER (NOT HOSPITAL ACQUIRED OR TRAUMATIC)
 CARDIAC ARREST
 Ileus:  Try and retart TFs
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2104-12-8**] 07:05 PM
   Arterial Line - [**2104-12-13**] 09:11 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2104-12-15 05:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Got 20mg IV lasix in AM yesterday; diuresed well (-2L)
   Tolerated PS well during the day but RR dropped to 5-6 occasionally,
   ABGs okay, TV 900
   Changed to AC at 1am for apneic episodes of RR 3
   Erythromycin for GI motility (got Reglan X 3 days)
   EEG ordered for monday per neuro
   f/u attending neuro recs
   Hypotensive in AM, got 1L NS
 BLOOD CULTURED - At [**2104-12-15**] 04:53 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Erythromycin - [**2104-12-14**] 08:07 PM
   Infusions:
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2104-12-14**] 09:24 AM
   Pantoprazole (Protonix) - [**2104-12-14**] 08:06 PM
   Haloperidol (Haldol) - [**2104-12-14**] 09:04 PM
   Heparin Sodium (Prophylaxis) - [**2104-12-15**] 12:06 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-12-15**] 05:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.3
C (99.1
   HR: 64 (64 - 96) bpm
   BP: 79/45(56) {79/45(56) - 183/102(133)} mmHg
   RR: 14 (6 - 31) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.4 kg (admission): 79.4 kg
   Height: 70 Inch
             Total In:
                                                                  3,182 mL
                                                                    804 mL
   PO:
             TF:
                                                                     75 mL
                                                                     56 mL
   IVF:
                                                                  3,107 mL
                                                                    747 mL
   Blood products:
   Total out:
                                                                  5,240 mL
                                                                    417 mL
   Urine:
                                                                  5,070 mL
                                                                    417 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,058 mL
                                                                    387 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 148 (148 - 1,094) mL
   PS : 15 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 131
   PIP: 23 cmH2O
   Plateau: 12 cmH2O
   SpO2: 96%
   ABG: 7.44/47/122/32/7
   Ve: 7.2 L/min
   PaO2 / FiO2: 305
   Physical Examination
   GEN: elderly male, intubated and sedated, opens eyes to noxious
   stimuli.
   HEENT: pupils 3-4mm, reactive bilaterally, sclera anicteric with L
   scleral edema, decreased drainage from nostril
   NECK: Trachea midline
   COR: RRR, no M/G/R, normal S1 S2, radial pulses +2
   CHEST: subcutaneous crepitus still present throughout upper chest,
   decreasing
   PULM: Coarse vented breath sounds bilaterally; no wheezing.  CTs to
   suction bilaterally
   ABD: Soft, NT, ND, hypoactive BS, no HSM appreciated
   EXT: No C/C/E, no palpable cords. Pneumoboots
   NEURO: Sedated,negative dolls eyes, no spontaneous movements of UE or
   LE but opens eyes to noxious stimuli, not following commands
   SKIN: No jaundice, cyanosis, ecchymoses.  Pitting edema in hands and
   lower extremities bilaterally
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   218 K/uL
   10.5 g/dL
   82 mg/dL
   0.8 mg/dL
   32 mEq/L
   3.8 mEq/L
   19 mg/dL
   101 mEq/L
   138 mEq/L
   30.1 %
   17.4 K/uL
        [image002.jpg]
                            [**2104-12-12**]  04:42 AM
                            [**2104-12-12**]  03:18 PM
                             [**2104-12-13**]  05:05 AM
                             [**2104-12-13**]  07:34 PM
                             [**2104-12-13**]  11:56 PM
                             [**2104-12-14**]  02:35 AM
                             [**2104-12-14**]  04:28 AM
                             [**2104-12-14**]  02:46 PM
                             [**2104-12-15**]  12:54 AM
                             [**2104-12-15**]  03:26 AM
   WBC
   15.1
   19.8
   18.4
   17.4
   Hct
   29.3
   33.2
   30.1
   30.1
   Plt
   174
   215
   219
   218
   Cr
   0.8
   0.9
   0.9
   0.8
   TCO2
   34
   33
   31
   34
   35
   33
   Glucose
   142
   102
   93
   122
   82
   Other labs: PT / PTT / INR:12.6/28.5/1.1, CK / CKMB /
   Troponin-T:191/11/0.08, ALT / AST:70/50, Alk Phos / T Bili:33/0.3,
   Lactic Acid:1.8 mmol/L, LDH:454 IU/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL,
   PO4:2.4 mg/dL
   Assessment and Plan
   64M homeless h/o COPD, asthma, EtOH abuse who intially presented with
   SOB, likely COPD exacerbation, left AMA, now s/p cardiac arrest x 2
   with bilateral CT placement for PTX.
   .
   # Abnormal eye movements: Concerning for possible seizure activity,
   particularly given patient
s initial presentation prior to cardiac
   arrest (tonic-clonic muscle jerks with urinary incontinence).  EEG on
   [**12-9**] negative for seizure activity, however, patient was heavily
   sedated on medications that can suppress seizure activity.  As patient
   had to be reintubated following head CT last night, he was again
   heavily sedated making examination by neurology consultants difficult.
   Appreciate neurology following along.
   - EEG on [**12-15**]; will decrease sedation late this evening in anticipation
   of study tomorrow
   - F/u on neurology recs
   # SOB/Resp Failure: Multiple possible etiologies for initial
   presentation including COPD/asthma flare, PNA (especially consider
   aspiration given EtOH) or other pulmonary infections (e.g. TB given
   homeless).  ACS (ECG supports prior inferior MI and risk factors
   include male, smoker) or PE less likely given presentation.  Initial
   CXR without acute process but now s/p arrest.   As wheezing has
   improved dramatically will start to decrease steroids.  Barriers to
   extubation include volume overload, bronchospasm, mental status,
   alertness, and agitation.  Possible infiltrate on CXR, but may be due
   to positioning.
   - Will try to switch to pressure support today.
   - Cont.  Solumedrol to 60 mg daily
   - Lasix today to -1 L
   - Continue Atrovent and albuterol nebs
   - Trend WBC count, fever curve
   - Continue chest tubes for pneumothorax, currently sealed to vacuum.
   - Follow ABGs and lactate
   - Daily CXRs to assess CTs, PTX
   .
   #Leukocytosis- [**Month (only) 51**] be steroid induced, but may be infectious.  Sources
   include lungs, C. diff, and potentially his sinuses.  No fevers.
   However, steroids may be masking infection.
   -Sputum cx
   -Blood cx x2
   -oxymetazoline per nares and saline washes for sinusitis
   # Agitation, ETOH abuse: Agitation improved, continues to be
   hypertensive.  EtOH withdrawal and risk of DTs likely over.  Was
   treated with midazolam and valium previously for that.  Now on fentanyl
   for sedation with propofol back on (previously weaned off).  Mental
   status difficult to assess given mix of drugs currently onboard, but
   appears improved.
   - Begin attempting to wean sedation in order to move towards PSV.
   - Haldol for agitation
   .
   #. Hypertension: On reviewing old records, pt. has a history of HTN and
   was previously discharged from this institution on lisinopril and
   atenolol.  Thus, he likely has HTN at baseline and requires some
   medication for this.
   - Cont. enalapril IV as pt. cannot yet tolerate PO meds
   - Holding beta blocker as pt. is bradycardic at times
   #. Poor intestinal absorption/motility: Pt had first small bowel
   movement yesterday.  High doses of opiates may be contributing.
   Abdomen is currently soft.  No evidence of obstruction on KUB.  Want to
   encourage intestinal motility so that tube feeds can be restarted and
   pt. does not suffer nutritionally.  Pt currently putting out small
   amount of fluid through NG tube.
   -attempt tube feeding trial again
   -Cont. bisacodyl suppository + erythromycin
   -IV banana bag + PR aspirin / day
   -Abdominal exams for distention/rigidity.
   # S/P cardiac arrest: Etiologies include pneumothorax, hypoxia,
   hyperkalemia, acidosis, among others. Seizure may have been a component
   of initial arrest given unresponsiveness, abnormal movements, and
   incontinence. Received multiple rounds epi and atropine in the ED, as
   well as 3x shocks. 2^nd arrest am [**12-5**] during cooling protocol.
   Current neoro exam 48 hours from arrest s/p cooling and rewarming with
   minimal reaction however still sedated since becomes tachypneic
   agitated when sedation weaned.  Completed Arctic Sun protocol [**12-6**] and
   rewarmed, off paralytics; Had a head CT without intracranial pathology
   but has fluid in sinuses.
   - Wean fentanyl and versed gtt as tolerated
   - Continue supportive care s/p arrest.
   # Hyperlactatemia: Elevated lactate on first admission with AG 13 and
   elevated bicarb. Bicarb likely elevated [**3-15**] acute/chronic respiratory
   acidosis. Lactate may be elevated [**3-15**] hypoperfusion, increased work of
   breathing with respiratory distress. No signs or symptoms of sepsis.
   - f/u cultures
   - Consider antibiotics if pt demonstrates s/s of infection.
   # ?Sinusitis: Pt
s head CT has fluid in sinuses and has purulent
   drainage L nostril c/w possible sinusitis. Currently afebrile
   -          See treatment above
   # CAD s/p silent myocardial infarction: s/p cardiac arrest and multiple
   shocks.
   - add ASA
   - hold B-blocker given intermittent bradycardia,
   - consider statin
   .
   # PTSD/bipolar disorder: Appears that he is not on medications as
   outpatient. Per family, has been seen in VA system
   .
   # History of alcoholic hepatitis: normal on check [**2104-12-4**], slightly
   elevated on repeat but has had episodes hypotension, cardiac arrest.
   .
   # FEN: Pt. previously not tolerating TFs.  Will try again today.  1L
   banana bag/day until TF can be started.
   # Access:  PICC line placed [**12-8**]; A-line replaced [**12-13**].
   # PPx:  Heparin SC tid, VAP bundle, bowel regimen
   # Code:  FULL presumed
   # Dispo:  MICU
   # Comm:  Spoke with brother [**Name (NI) **] [**Name (NI) 2269**] (Cell [**0-0-**]) and
   updated. Closest family member is oldest son [**Name (NI) 3062**].  [**Name2 (NI) 3062**] and [**Doctor Last Name **]
   both in [**Location (un) 3063**].  Social work spoke with [**Doctor Last Name 3062**] who would like to make
   medical decisions and pursue guardianship if necessary.  (see SW
   note).  Guardianship paperwork in progress.
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2104-12-14**] 04:30 PM 10 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2104-12-8**] 07:05 PM
   Arterial Line - [**2104-12-13**] 09:11 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2104-12-16 05:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NASAL SWAB - At [**2104-12-15**] 10:00 AM
 EEG - At [**2104-12-15**] 10:42 AM
 INVASIVE VENTILATION - STOP [**2104-12-15**] 06:10 PM
 SPUTUM CULTURE - At [**2104-12-15**] 06:25 PM
   [**Known lastname 2269**]:
   - PS of [**6-16**]  trial.
   - I:Os even to slightly negative.
   - ? PM extubation
   - HTN: transitioning from IV to PO medications (Captopril TID)
   - F/u sputum cultures.
   - Changed standing bowel to PRN.
   - Used Haldol IV for agitation and sedation.
   - Did well overnight, with BPs in 120's and Sats in 90's.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Erythromycin - [**2104-12-15**] 05:07 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2104-12-15**] 07:07 PM
   Pantoprazole (Protonix) - [**2104-12-15**] 08:04 PM
   Haloperidol (Haldol) - [**2104-12-15**] 10:30 PM
   Heparin Sodium (Prophylaxis) - [**2104-12-15**] 11:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-12-16**] 05:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.1
C (97
   HR: 87 (66 - 109) bpm
   BP: 170/89(120) {90/50(61) - 222/123(165)} mmHg
   RR: 16 (11 - 33) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.4 kg (admission): 79.4 kg
   Height: 70 Inch
             Total In:
                                                                  1,732 mL
                                                                     73 mL
   PO:
             TF:
                                                                    144 mL
   IVF:
                                                                  1,508 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                  3,991 mL
                                                                    205 mL
   Urine:
                                                                  3,907 mL
                                                                    205 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,259 mL
                                                                   -132 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 502 (309 - 502) mL
   PS : 5 cmH2O
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.38/58/142/35/7
   Ve: 13.2 L/min
   PaO2 / FiO2: 355
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   210 K/uL
   9.8 g/dL
   77 mg/dL
   0.7 mg/dL
   35 mEq/L
   3.9 mEq/L
   18 mg/dL
   102 mEq/L
   139 mEq/L
   28.2 %
   17.7 K/uL
        [image002.jpg]
                             [**2104-12-14**]  04:28 AM
                             [**2104-12-14**]  02:46 PM
                             [**2104-12-15**]  12:54 AM
                             [**2104-12-15**]  03:26 AM
                             [**2104-12-15**]  10:32 AM
                             [**2104-12-15**]  01:18 PM
                             [**2104-12-15**]  07:25 PM
                             [**2104-12-15**]  09:47 PM
                             [**2104-12-16**]  03:14 AM
                             [**2104-12-16**]  03:23 AM
   WBC
   17.4
   17.7
   Hct
   30.1
   28.2
   Plt
   218
   210
   Cr
   0.8
   0.7
   TCO2
   34
   35
   33
   34
   32
   34
   36
   Glucose
   122
   82
   94
   84
   77
   Other labs: PT / PTT / INR:12.6/28.5/1.1, CK / CKMB /
   Troponin-T:191/11/0.08, ALT / AST:70/50, Alk Phos / T Bili:33/0.3,
   Lactic Acid:1.8 mmol/L, LDH:454 IU/L, Ca++:8.5 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.3 mg/dL
   Assessment and Plan
   64M homeless h/o COPD, asthma, EtOH abuse who intially presented with
   SOB, likely COPD exacerbation, left AMA, now s/p cardiac arrest x 2
   with bilateral CT placement for PTX.
   .
   # Abnormal eye movements: Concerning for possible seizure activity,
   particularly given patient
s initial presentation prior to cardiac
   arrest (tonic-clonic muscle jerks with urinary incontinence).  EEG on
   [**12-9**] negative for seizure activity, however, patient was heavily
   sedated on medications that can suppress seizure activity.  As patient
   had to be reintubated following head CT last night, he was again
   heavily sedated making examination by neurology consultants difficult.
   Appreciate neurology following along.
   - EEG on [**12-15**]; will decrease sedation late this evening in anticipation
   of study tomorrow
   - F/u on neurology recs
   # SOB/Resp Failure: Multiple possible etiologies for initial
   presentation including COPD/asthma flare, PNA (especially consider
   aspiration given EtOH) or other pulmonary infections (e.g. TB given
   homeless).  ACS (ECG supports prior inferior MI and risk factors
   include male, smoker) or PE less likely given presentation.  Initial
   CXR without acute process but now s/p arrest.   As wheezing has
   improved dramatically will start to decrease steroids.  Barriers to
   extubation include volume overload, bronchospasm, mental status,
   alertness, and agitation.  Possible infiltrate on CXR, but may be due
   to positioning.
   - Will try to switch to pressure support today.
   - Cont.  Solumedrol to 60 mg daily
   - Lasix today to -1 L
   - Continue Atrovent and albuterol nebs
   - Trend WBC count, fever curve
   - Continue chest tubes for pneumothorax, currently sealed to vacuum.
   - Follow ABGs and lactate
   - Daily CXRs to assess CTs, PTX
   .
   #Leukocytosis- [**Month (only) 51**] be steroid induced, but may be infectious.  Sources
   include lungs, C. diff, and potentially his sinuses.  No fevers.
   However, steroids may be masking infection.
   -Sputum cx
   -Blood cx x2
   -oxymetazoline per nares and saline washes for sinusitis
   # Agitation, ETOH abuse: Agitation improved, continues to be
   hypertensive.  EtOH withdrawal and risk of DTs likely over.  Was
   treated with midazolam and valium previously for that.  Now on fentanyl
   for sedation with propofol back on (previously weaned off).  Mental
   status difficult to assess given mix of drugs currently onboard, but
   appears improved.
   - Begin attempting to wean sedation in order to move towards PSV.
   - Haldol for agitation
   .
   #. Hypertension: On reviewing old records, pt. has a history of HTN and
   was previously discharged from this institution on lisinopril and
   atenolol.  Thus, he likely has HTN at baseline and requires some
   medication for this.
   - Cont. enalapril IV as pt. cannot yet tolerate PO meds
   - Holding beta blocker as pt. is bradycardic at times
   #. Poor intestinal absorption/motility: Pt had first small bowel
   movement yesterday.  High doses of opiates may be contributing.
   Abdomen is currently soft.  No evidence of obstruction on KUB.  Want to
   encourage intestinal motility so that tube feeds can be restarted and
   pt. does not suffer nutritionally.  Pt currently putting out small
   amount of fluid through NG tube.
   -attempt tube feeding trial again
   -Cont. bisacodyl suppository + erythromycin
   -IV banana bag + PR aspirin / day
   -Abdominal exams for distention/rigidity.
   # S/P cardiac arrest: Etiologies include pneumothorax, hypoxia,
   hyperkalemia, acidosis, among others. Seizure may have been a component
   of initial arrest given unresponsiveness, abnormal movements, and
   incontinence. Received multiple rounds epi and atropine in the ED, as
   well as 3x shocks. 2^nd arrest am [**12-5**] during cooling protocol.
   Current neoro exam 48 hours from arrest s/p cooling and rewarming with
   minimal reaction however still sedated since becomes tachypneic
   agitated when sedation weaned.  Completed Arctic Sun protocol [**12-6**] and
   rewarmed, off paralytics; Had a head CT without intracranial pathology
   but has fluid in sinuses.
   - Wean fentanyl and versed gtt as tolerated
   - Continue supportive care s/p arrest.
   # Hyperlactatemia: Elevated lactate on first admission with AG 13 and
   elevated bicarb. Bicarb likely elevated [**3-15**] acute/chronic respiratory
   acidosis. Lactate may be elevated [**3-15**] hypoperfusion, increased work of
   breathing with respiratory distress. No signs or symptoms of sepsis.
   - f/u cultures
   - Consider antibiotics if pt demonstrates s/s of infection.
   # ?Sinusitis: Pt
s head CT has fluid in sinuses and has purulent
   drainage L nostril c/w possible sinusitis. Currently afebrile
   -          See treatment above
   # CAD s/p silent myocardial infarction: s/p cardiac arrest and multiple
   shocks.
   - add ASA
   - hold B-blocker given intermittent bradycardia,
   - consider statin
   .
   # PTSD/bipolar disorder: Appears that he is not on medications as
   outpatient. Per family, has been seen in VA system
   .
   # History of alcoholic hepatitis: normal on check [**2104-12-4**], slightly
   elevated on repeat but has had episodes hypotension, cardiac arrest.
   .
   # FEN: Pt. previously not tolerating TFs.  Now restarting tube feeds.
   # Access:  PICC line placed [**12-8**]; A-line replaced [**12-13**].
   # PPx:  Heparin SC tid, VAP bundle, bowel regimen
   # Code:  FULL presumed
   # Dispo:  MICU
   # Comm:  Spoke with brother [**Name (NI) **] [**Name (NI) 2269**] (Cell [**0-0-**]) and
   updated. Closest family member is oldest son [**Name (NI) 3062**].  [**Name2 (NI) 3062**] and [**Doctor Last Name **]
   both in [**Location (un) 3063**].  Social work spoke with [**Doctor Last Name 3062**] who would like to make
   medical decisions and pursue guardianship if necessary.  (see SW
   note).  Guardianship paperwork in progress.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2104-12-8**] 07:05 PM
   Arterial Line - [**2104-12-13**] 09:11 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2104-12-17 06:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2104-12-16**] 10:00 AM
 BLOOD CULTURED - At [**2104-12-16**] 10:45 AM
 TRANSTHORACIC ECHO - At [**2104-12-16**] 01:33 PM
   - A-line removed & cultured
   - Blood cultures x 2 (peripheral & picc)
   - Started vancomycin
   - NGT advanced & TF restarted
   - Thoracics rec H2O seal chest tubes & CXR
   - Head & neck CT per neuro recs
   - TTE, no vege seen
   - Diuresis goal -500cc to 1L
   - to do: f/u EEG; guardianship paperwork
   - PPI changed to H2 blocker
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Erythromycin - [**2104-12-15**] 05:07 AM
   Vancomycin - [**2104-12-16**] 08:00 PM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2104-12-16**] 02:08 PM
   Heparin Sodium (Prophylaxis) - [**2104-12-16**] 03:51 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-12-17**] 06:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 108 (80 - 122) bpm
   BP: 161/108(119) {97/54(63) - 184/108(144)} mmHg
   RR: 26 (15 - 35) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79.4 kg (admission): 79.4 kg
   Height: 70 Inch
                  Total In:
                                                                    703 mL
                                                                     61 mL
   PO:
                  TF:
                                                                     60 mL
                                                                     61 mL
   IVF:
                                                                    583 mL
   Blood products:
   Total out:
                                                                  1,693 mL
                                                                    685 mL
   Urine:
                                                                  1,620 mL
                                                                    685 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -990 mL
                                                                   -624 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///35/
   Physical Examination
   GEN: elderly male, intubated and sedated, opens eyes to noxious
   stimuli.
   HEENT: pupils 3-4mm, reactive bilaterally, sclera anicteric with L
   scleral edema, decreased drainage from nostril
   NECK: Trachea midline
   COR: RRR, no M/G/R, normal S1 S2, radial pulses +2
   CHEST: subcutaneous crepitus still present throughout upper chest,
   decreasing
   PULM: Coarse vented breath sounds bilaterally; no wheezing.  CTs to
   suction bilaterally
   ABD: Soft, NT, ND, hypoactive BS, no HSM appreciated
   EXT: No C/C/E, no palpable cords. Pneumoboots
   NEURO: Sedated,negative dolls eyes, no spontaneous movements of UE or
   LE but opens eyes to noxious stimuli, not following commands
   SKIN: No jaundice, cyanosis, ecchymoses.  Pitting edema in hands and
   lower extremities bilaterally
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   214 K/uL
   9.2 g/dL
   80 mg/dL
   0.7 mg/dL
   35 mEq/L
   3.7 mEq/L
   15 mg/dL
   99 mEq/L
   139 mEq/L
   25.7 %
   11.7 K/uL
        [image002.jpg]
                             [**2104-12-14**]  02:46 PM
                             [**2104-12-15**]  12:54 AM
                             [**2104-12-15**]  03:26 AM
                             [**2104-12-15**]  10:32 AM
                             [**2104-12-15**]  01:18 PM
                             [**2104-12-15**]  07:25 PM
                             [**2104-12-15**]  09:47 PM
                             [**2104-12-16**]  03:14 AM
                             [**2104-12-16**]  03:23 AM
                             [**2104-12-17**]  04:31 AM
   WBC
   17.4
   17.7
   11.7
   Hct
   30.1
   28.2
   25.7
   Plt
   [**Telephone/Fax (3) 3292**]
   Cr
   0.8
   0.7
   0.7
   TCO2
   35
   33
   34
   32
   34
   36
   Glucose
   122
   82
   94
   84
   77
   80
   Other labs: PT / PTT / INR:12.6/28.5/1.1, CK / CKMB /
   Troponin-T:191/11/0.08, ALT / AST:70/50, Alk Phos / T Bili:33/0.3,
   Lactic Acid:1.8 mmol/L, LDH:454 IU/L, Ca++:8.5 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.0 mg/dL
   Assessment and Plan
   64M homeless h/o COPD, asthma, EtOH abuse who intially presented with
   SOB, likely COPD exacerbation, left AMA, now s/p cardiac arrest x 2
   with bilateral CT placement for PTX.
   .
   # Abnormal eye movements: Concerning for possible seizure activity,
   particularly given patient
s initial presentation prior to cardiac
   arrest (tonic-clonic muscle jerks with urinary incontinence).  EEG on
   [**12-9**] negative for seizure activity, however, patient was heavily
   sedated on medications that can suppress seizure activity.  As patient
   had to be reintubated following head CT last night, he was again
   heavily sedated making examination by neurology consultants difficult.
   Appreciate neurology following along.
   - EEG on [**12-15**]; will decrease sedation late this evening in anticipation
   of study tomorrow
   - F/u on neurology recs
   # SOB/Resp Failure: Multiple possible etiologies for initial
   presentation including COPD/asthma flare, PNA (especially consider
   aspiration given EtOH) or other pulmonary infections (e.g. TB given
   homeless).  ACS (ECG supports prior inferior MI and risk factors
   include male, smoker) or PE less likely given presentation.  Initial
   CXR without acute process but now s/p arrest.   As wheezing has
   improved dramatically will start to decrease steroids.  Barriers to
   extubation include volume overload, bronchospasm, mental status,
   alertness, and agitation.  Possible infiltrate on CXR, but may be due
   to positioning.
   - Will try to switch to pressure support today.
   - Cont.  Solumedrol to 60 mg daily
   - Lasix today to -1 L
   - Continue Atrovent and albuterol nebs
   - Trend WBC count, fever curve
   - Continue chest tubes for pneumothorax, currently sealed to vacuum.
   - Follow ABGs and lactate
   - Daily CXRs to assess CTs, PTX
   .
   #Leukocytosis- [**Month (only) 51**] be steroid induced, but may be infectious.  Sources
   include lungs, C. diff, and potentially his sinuses.  No fevers.
   However, steroids may be masking infection.
   -Sputum cx
   -Blood cx x2
   -oxymetazoline per nares and saline washes for sinusitis
   # Agitation, ETOH abuse: Agitation improved, continues to be
   hypertensive.  EtOH withdrawal and risk of DTs likely over.  Was
   treated with midazolam and valium previously for that.  Now on fentanyl
   for sedation with propofol back on (previously weaned off).  Mental
   status difficult to assess given mix of drugs currently onboard, but
   appears improved.
   - Begin attempting to wean sedation in order to move towards PSV.
   - Haldol for agitation
   .
   #. Hypertension: On reviewing old records, pt. has a history of HTN and
   was previously discharged from this institution on lisinopril and
   atenolol.  Thus, he likely has HTN at baseline and requires some
   medication for this.
   - Cont. enalapril IV as pt. cannot yet tolerate PO meds
   - Holding beta blocker as pt. is bradycardic at times
   #. Poor intestinal absorption/motility: Pt had first small bowel
   movement yesterday.  High doses of opiates may be contributing.
   Abdomen is currently soft.  No evidence of obstruction on KUB.  Want to
   encourage intestinal motility so that tube feeds can be restarted and
   pt. does not suffer nutritionally.  Pt currently putting out small
   amount of fluid through NG tube.
   -attempt tube feeding trial again
   -Cont. bisacodyl suppository + erythromycin
   -IV banana bag + PR aspirin / day
   -Abdominal exams for distention/rigidity.
   # S/P cardiac arrest: Etiologies include pneumothorax, hypoxia,
   hyperkalemia, acidosis, among others. Seizure may have been a component
   of initial arrest given unresponsiveness, abnormal movements, and
   incontinence. Received multiple rounds epi and atropine in the ED, as
   well as 3x shocks. 2^nd arrest am [**12-5**] during cooling protocol.
   Current neoro exam 48 hours from arrest s/p cooling and rewarming with
   minimal reaction however still sedated since becomes tachypneic
   agitated when sedation weaned.  Completed Arctic Sun protocol [**12-6**] and
   rewarmed, off paralytics; Had a head CT without intracranial pathology
   but has fluid in sinuses.
   - Wean fentanyl and versed gtt as tolerated
   - Continue supportive care s/p arrest.
   # Hyperlactatemia: Elevated lactate on first admission with AG 13 and
   elevated bicarb. Bicarb likely elevated [**3-15**] acute/chronic respiratory
   acidosis. Lactate may be elevated [**3-15**] hypoperfusion, increased work of
   breathing with respiratory distress. No signs or symptoms of sepsis.
   - f/u cultures
   - Consider antibiotics if pt demonstrates s/s of infection.
   # ?Sinusitis: Pt
s head CT has fluid in sinuses and has purulent
   drainage L nostril c/w possible sinusitis. Currently afebrile
   -          See treatment above
   # CAD s/p silent myocardial infarction: s/p cardiac arrest and multiple
   shocks.
   - add ASA
   - hold B-blocker given intermittent bradycardia,
   - consider statin
   .
   # PTSD/bipolar disorder: Appears that he is not on medications as
   outpatient. Per family, has been seen in VA system
   .
   # History of alcoholic hepatitis: normal on check [**2104-12-4**], slightly
   elevated on repeat but has had episodes hypotension, cardiac arrest.
   .
   # FEN: Pt. previously not tolerating TFs.  Will try again today.  1L
   banana bag/day until TF can be started.
   # Access:  PICC line placed [**12-8**]; A-line replaced [**12-13**].
   # PPx:  Heparin SC tid, VAP bundle, bowel regimen
   # Code:  FULL presumed
   # Dispo:  MICU
   # Comm:  Spoke with brother [**Name (NI) **] [**Name (NI) 2269**] (Cell [**0-0-**]) and
   updated. Closest family member is oldest son [**Name (NI) 3062**].  [**Name2 (NI) 3062**] and [**Doctor Last Name **]
   both in [**Location (un) 3063**].  Social work spoke with [**Doctor Last Name 3062**] who would like to make
   medical decisions and pursue guardianship if necessary.  (see SW
   note).  Guardianship paperwork in progress.
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2104-12-17**] 06:09 AM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2104-12-8**] 07:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2104-12-18 06:03:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   CT of Head and Spine:
   CT C spine shows few mm of listhesis C5, C6. At C2, bridging "spur" of
   calcified posterior ligament has been chipped off and may be
   compressing  the cord anteriorly.   CT head shows no watershed
   infarcts, but at level of lower pons there is some R lateral
   hypodensity - this may be from beam hardening but alternatively could
   be relevant, i.e. stroke.
   Neuro recommends hard collar, MRI of spine and head, however pt unable
   to lie flat for MRI
   [** 3297**]: First CT pulled this morning with CXR ordered.  If no
   pneumothoras from the removal of the first chest tube, the second will
   be removed.
   EEG: poor baseline, consider repeat if there are any other signs or
   symptoms of sz activity.
   Got Hydralazine 10mg IV X 1 at 2pm for hypertension in the 180s
   Concerns about respiratory status overnight, received frequent suction,
   nebs, ABG done, got Seroquel.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2104-12-17**] 08:32 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2104-12-17**] 08:03 AM
   Hydralazine - [**2104-12-17**] 05:01 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-12-18**] 06:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.7
C (98
   HR: 118 (86 - 152) bpm
   BP: 117/56(72) {85/44(52) - 172/113(148)} mmHg
   RR: 31 (20 - 35) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 79.4 kg (admission): 79.4 kg
   Height: 70 Inch
                  Total In:
                                                                  1,134 mL
                                                                    329 mL
   PO:
                  TF:
                                                                    714 mL
                                                                    299 mL
   IVF:
                                                                    300 mL
   Blood products:
   Total out:
                                                                  2,588 mL
                                                                    300 mL
   Urine:
                                                                  2,565 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,454 mL
                                                                     29 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.39/60/350//9
   Physical Examination
   GEN: elderly male, intubated and sedated, opens eyes to noxious
   stimuli.
   HEENT: pupils 3-4mm, reactive bilaterally, sclera anicteric
   NECK: Trachea midline
   COR: RRR, no M/G/R, normal S1 S2, radial pulses +2
   CHEST: resolved subcutaneous crepitus
   PULM: Coarse breath sounds bilaterally; no distal wheezing, but there
   he does have upper airway sounds c/w obstruction. CT pulled on the
   right; CT on the Left is still present.
    ABD: Soft, NT, ND, hypoactive BS, no HSM appreciated
   EXT: No C/C/E, no palpable cords. Pneumoboots
   NEURO: Sedated,negative dolls eyes, spontaneous movements of LE<UE,
   opens eyes to noxious stimuli, answering some questions!!
   SKIN: No jaundice, cyanosis, ecchymoses.
   Skin:  No visible rashes.
   Labs / Radiology
   214 K/uL
   9.2 g/dL
   80 mg/dL
   0.7 mg/dL
   35 mEq/L
   3.7 mEq/L
   15 mg/dL
   99 mEq/L
   139 mEq/L
   25.7 %
   11.7 K/uL
        [image002.jpg]
                             [**2104-12-15**]  12:54 AM
                             [**2104-12-15**]  03:26 AM
                             [**2104-12-15**]  10:32 AM
                             [**2104-12-15**]  01:18 PM
                             [**2104-12-15**]  07:25 PM
                             [**2104-12-15**]  09:47 PM
                             [**2104-12-16**]  03:14 AM
                             [**2104-12-16**]  03:23 AM
                             [**2104-12-17**]  04:31 AM
                             [**2104-12-18**]  03:40 AM
   WBC
   17.4
   17.7
   11.7
   Hct
   30.1
   28.2
   25.7
   Plt
   [**Telephone/Fax (3) 3292**]
   Cr
   0.8
   0.7
   0.7
   TCO2
   33
   34
   32
   34
   36
   38
   Glucose
   82
   94
   84
   77
   80
   Other labs: PT / PTT / INR:12.6/28.5/1.1, CK / CKMB /
   Troponin-T:191/11/0.08, ALT / AST:70/50, Alk Phos / T Bili:33/0.3,
   Lactic Acid:1.8 mmol/L, LDH:454 IU/L, Ca++:8.5 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.0 mg/dL
   Assessment and Plan
   64M homeless h/o COPD, asthma, EtOH abuse who intially presented with
   SOB, likely COPD exacerbation, left AMA, now s/p cardiac arrest x 2
   with bilateral CT placement for PTX.
   .
   # SOB/Resp Failure: Now successfully extubated and protecting his own
   airway, though does have relatively uncoordinated respiratory movements
   and upper airway obstructive sounds.
   - Trend WBC count, fever curve
   - Cont. 40mg PO prednisone.
   - Continue atrovent and albuterol nebs
   - Lasix today to -1 L again today.
   - Consider the use of heliox if upper airway sounds and respiratory
   difficulties persist.
   - Contact [**Name (NI) **] team re: remaining chest tube that can likely be
   pulled.
   .
   #Leukocytosis - [**Month (only) 51**] be steroid induced, but may be infectious.  Sources
   include lungs, C. diff, and potentially his sinuses.  No fevers.
   However, steroids may be masking infection.
   - F/u sputum cx, blood cx x2
   - Discontinued the Vanc, as positive blood cultures were likely
   contaminant from A-line, and no other surveillance cultures have been
   positive since then.
   - Oxymetazoline per nares and saline washes for sinusitis
   # Agitation, mental status: Agitation improved, continues to be
   hypertensive.  EtOH withdrawal and risk of DTs likely over.  Mental
   status appears to be improving.  Following neuro recs to investigate
   AMS further.
   - MRI of neck and brain.
   - Zyprexa now changed to 50mg TID.
   - Trial Ativan for agitation, may be of use when transporting and
   during MRI of neck and brain.
   .
   #. Hypertension: On reviewing old records, pt. has a history of HTN and
   was previously discharged from this institution on lisinopril and
   atenolol.  Thus, he likely has HTN at baseline and requires some
   medication for this.
   - Cont. enalapril IV as pt. cannot yet tolerate PO meds
   - Holding beta blocker as pt. is bradycardic at times
   - STOP continuous nebulizers.
   # Medical decision making:
   - Pursuing conversations with the family
   - Pursing guardianship
 will complete paperwork today.
   # S/P cardiac arrest: Etiologies include pneumothorax, hypoxia,
   hyperkalemia, acidosis, among others. Seizure may have been a component
   of initial arrest given unresponsiveness, abnormal movements, and
   incontinence. Received multiple rounds epi and atropine in the ED, as
   well as 3x shocks. 2^nd arrest am [**12-5**] during cooling protocol.
   Current neoro exam 48 hours from arrest s/p cooling and rewarming with
   minimal reaction however still sedated since becomes tachypneic
   agitated when sedation weaned.  Completed Arctic Sun protocol [**12-6**] and
   rewarmed, off paralytics; Had a head CT without intracranial pathology
   but has fluid in sinuses.
   - Wean fentanyl and versed gtt as tolerated
   - Continue supportive care s/p arrest.
   # Sinusitis: Pt
s head CT has fluid in sinuses and has purulent
   drainage L nostril c/w possible sinusitis. Currently afebrile
   -          See treatment above
   # CAD s/p silent myocardial infarction: s/p cardiac arrest and multiple
   shocks.
   - Add ASA
   - Hold B-blocker given intermittent bradycardia,
   - Consider statin
   .
   # PTSD/bipolar disorder: Appears that he is not on medications as
   outpatient. Per family, has been seen in VA system
   .
   # History of alcoholic hepatitis: normal on check [**2104-12-4**], slightly
   elevated on repeat but has had episodes hypotension, cardiac arrest.
   .
   # FEN: Pt. tolerating TFs per nutrition recs. Attempt to diurese
   another 0.5 to 1L. Replete electrolytes PRN.
   # Access:  PICC line placed [**12-8**].
   # PPx:  Heparin SC tid, bowel regimen, discontinued the H2 blocker to
   filter out any influence on his mental status.
   # Code:  FULL presumed
   # Dispo:  MICU
   # Communication:  Spoke with brother [**Name (NI) **] [**Name (NI) 2269**] (Cell [**0-0-**])
   and updated. Closest family member is oldest son [**Name (NI) 3062**].  [**Name2 (NI) 3062**] and
   [**Doctor Last Name **] both in [**Location (un) 3063**].  Social work spoke with [**Doctor Last Name 3062**] who would like to
   make medical decisions and pursue guardianship if necessary.  (see SW
   note).  Guardianship paperwork in progress.
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2104-12-18**] 03:45 AM 50 mL/hour
   Lines:
   PICC Line - [**2104-12-8**] 07:05 PM

2104-12-19 04:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Chest tubes pulled with CXRs demonstrating no pneumothorax
   - Standing nebs are now PRN for true wheezing.
   - Seroquel and Ativan titrated to keep patient comforable.
   - Attempting to diurese
   - Held off from MRI due to inability to tolerate lying flat.
   - Discontinued the Vanc
   - Fluids: -1.96L
   - Hypertensive to 240s after cleaning last night, rec
d 2^nd dose of
   ativan & SBP to 70s; maintained good urine output and SBPs slowly risen
   overnight.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2104-12-17**] 08:32 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2104-12-19**] 12:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-12-19**] 04:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.7
C (98
   HR: 102 (100 - 136) bpm
   BP: 84/54(61) {73/41(49) - 207/126(177)} mmHg
   RR: 18 (16 - 35) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 79.4 kg (admission): 79.4 kg
   Height: 70 Inch
                  Total In:
                                                                    887 mL
                  PO:
                  TF:
                                                                    667 mL
   IVF:
                                                                    100 mL
   Blood products:
   Total out:
                                                                  2,855 mL
                                                                    180 mL
   Urine:
                                                                  2,855 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,968 mL
                                                                   -180 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///40/
   Physical Examination
   GEN: elderly male, intubated and sedated, opens eyes to noxious
   stimuli, vocalizes.
   HEENT: pupils asymmetric, but reactive bilaterally, sclera anicteric
   NECK: Trachea midline
   COR: RRR, no M/G/R, normal S1 S2, radial pulses +2
   CHEST: resolved subcutaneous crepitus
   PULM: Coarse breath sounds bilaterally; no distal wheezing, but there
   he does have upper airway sounds c/w obstruction. CTs removed
   bilaterally.
    ABD: Soft, NT, ND, hypoactive BS, no HSM appreciated
   EXT: No C/C/E, no palpable cords. Pneumoboots
   NEURO: Sedated,negative dolls eyes, spontaneous movements of LE<UE,
   opens eyes to noxious stimuli, answering some questions!!
   SKIN: No jaundice, cyanosis, ecchymoses.
   Skin:  No visible rashes.
   Labs / Radiology
   222 K/uL
   9.1 g/dL
   83 mg/dL
   1.2 mg/dL
   40 mEq/L
   3.8 mEq/L
   26 mg/dL
   99 mEq/L
   145 mEq/L
   27.1 %
   11.9 K/uL
        [image002.jpg]
                             [**2104-12-15**]  03:26 AM
                             [**2104-12-15**]  10:32 AM
                             [**2104-12-15**]  01:18 PM
                             [**2104-12-15**]  07:25 PM
                             [**2104-12-15**]  09:47 PM
                             [**2104-12-16**]  03:14 AM
                             [**2104-12-16**]  03:23 AM
                             [**2104-12-17**]  04:31 AM
                             [**2104-12-18**]  03:40 AM
                             [**2104-12-18**]  05:16 AM
   WBC
   17.4
   17.7
   11.7
   15.7
   Hct
   30.1
   28.2
   25.7
   29.6
   Plt
   [**Telephone/Fax (3) 3340**]41
   Cr
   0.8
   0.7
   0.7
   0.9
   TCO2
   34
   32
   34
   36
   38
   Glucose
   82
   94
   84
   77
   80
   158
   Other labs: Ca++:9.0 mg/dL, Mg++:2.1 mg/dL, PO4:5.4 mg/dL
   Micro data: Sputum: GP rods, catheter tip
 no growth, MRSA screen neg,
   blood cx
 coag neg Staph x 1
   Assessment and Plan
   64M homeless h/o COPD, asthma, EtOH abuse who intially presented with
   SOB, likely COPD exacerbation, left AMA, now s/p cardiac arrest x 2
   with bilateral CTs removed for PTX.
   .
   #  ?Cord injury: Uncertain whether patient has some degree of cervical
   cord compression based on imaging.  Patient cannot lie flat for MRI
   scanner.  Is currently wearing a c-collar.
   - consult spine to weigh in on cervical CT imaging.
   - neuro following
   # SOB/Resp Failure: Now successfully extubated and protecting his own
   airway, though does have relatively uncoordinated respiratory movements
   and upper airway obstructive sounds.
   - Trend WBC count, fever curve
   - Cont. 40mg PO prednisone.
   - Continue atrovent and albuterol nebs
   - Lasix today to -1 L again today.
   - Consider the use of heliox if upper airway sounds and respiratory
   difficulties persist.
   - Contact [**Name (NI) **] team re: remaining chest tube that can likely be
   pulled.
   .
   #Leukocytosis
 Likely steroid induced.  Single positive blood culture
   is likely contamination.  No growth from tip of removed A-line.
   - Vanc stopped on [**12-18**]
   - F/u sputum cx, blood cx
   - Oxymetazoline per nares and saline washes for sinusitis
   # Agitation, mental status: Agitation improved, continues to be
   hypertensive.  EtOH withdrawal and risk of DTs likely over.  Mental
   status appears to be improving.  Following neuro recs to investigate
   AMS further.  Pt. cannot tolerate lying flat for MRI.
   - Cont. Zyprexa 50mg TID.
   - Cont. Ativan for agitation.
   .
   #. Hypertension: On reviewing old records, pt. has a history of HTN and
   was previously discharged from this institution on lisinopril and
   atenolol.  Thus, he likely has HTN at baseline and requires some
   medication for this.
   - Cont. enalapril IV & consider switching to PO meds
   - Holding beta blocker as pt. is bradycardic at times
   - nebulizers only prn.
   # Medical decision making:
   - Pursuing conversations with the family
   - Pursing guardianship
 will complete paperwork today.
   # S/P cardiac arrest: Etiologies include pneumothorax, hypoxia,
   hyperkalemia, acidosis, among others. Seizure may have been a component
   of initial arrest given unresponsiveness, abnormal movements, and
   incontinence. Received multiple rounds epi and atropine in the ED, as
   well as 3x shocks. 2^nd arrest am [**12-5**] during cooling protocol.
   Current neoro exam 48 hours from arrest s/p cooling and rewarming with
   minimal reaction however still sedated since becomes tachypneic
   agitated when sedation weaned.  Completed Arctic Sun protocol [**12-6**] and
   rewarmed, off paralytics; Had a head CT without intracranial pathology
   but has fluid in sinuses.
   - Wean fentanyl and versed gtt as tolerated
   - Continue supportive care s/p arrest.
   # Sinusitis: Pt
s head CT has fluid in sinuses and has purulent
   drainage L nostril c/w possible sinusitis. Currently afebrile
   -          See treatment above
   # CAD s/p silent myocardial infarction: s/p cardiac arrest and multiple
   shocks.
   - Add ASA
   - Hold B-blocker given intermittent bradycardia,
   - Consider statin
   .
   # PTSD/bipolar disorder: Appears that he is not on medications as
   outpatient. Per family, has been seen in VA system
   .
   # History of alcoholic hepatitis: normal on check [**2104-12-4**], slightly
   elevated on repeat but has had episodes hypotension, cardiac arrest.
   .
   # FEN: Pt. tolerating TFs per nutrition recs. Attempt to diurese
   another 0.5 to 1L, but will only give lasix once today due to increase
   in creatinine overnight. Replete electrolytes PRN.
   # Access:  PICC line placed [**12-8**].
   # PPx:  Heparin SC tid, bowel regimen, discontinued the H2 blocker to
   filter out any influence on his mental status.
   # Code:  FULL presumed
   # Dispo:  MICU
   # Communication:  Spoke with brother [**Name (NI) **] [**Name (NI) 2269**] (Cell [**0-0-**])
   and updated. Closest family member is oldest son [**Name (NI) 3062**].  [**Name2 (NI) 3062**] and
   [**Doctor Last Name **] both in [**Location (un) 3063**].  Social work spoke with [**Doctor Last Name 3062**] who would like to
   make medical decisions and pursue guardianship if necessary.  (see SW
   note).  Guardianship paperwork in progress.
   ICU Care
   Lines:
   PICC Line - [**2104-12-8**] 07:05 PM

2104-12-20 05:39:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Lasix held this morning for rising bicarb of 46.
   Ortho spine was consulted, recommend soft collar, MRI of neck and spine
   when tolerates.
   Per IP, can place peg next week.
   Guardianship papers given to SW.
   Pt continues to be agitated, hypertensive and tachycardiac at times
   with dysynchronous breathing and brochospasms.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2104-12-17**] 08:32 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2104-12-20**] 12:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-12-20**] 05:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.4
C (99.3
   HR: 98 (98 - 119) bpm
   BP: 103/55(65) {80/39(49) - 182/104(126)} mmHg
   RR: 17 (17 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.9 kg (admission): 79.4 kg
   Height: 70 Inch
                  Total In:
                                                                  1,029 mL
                                                                    511 mL
   PO:
                  TF:
                                                                    919 mL
                                                                    451 mL
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                  1,532 mL
                                                                    135 mL
   Urine:
                                                                  1,532 mL
                                                                    135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -503 mL
                                                                    376 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.40/71/163/46/15
   Physical Examination
   GEN: elderly male, vocalizes, appears in respiratory distress with
   paradoxical breathing motions
   HEENT: pupils asymmetric, but reactive bilaterally, sclera anicteric
   NECK: Trachea midline
   COR: RRR, no M/G/R, normal S1 S2, radial pulses +2
   CHEST: resolved subcutaneous crepitus
   PULM: Coarse breath sounds bilaterally; end-expiratory wheezing.
    ABD: Soft, NT, ND, hypoactive BS, no HSM appreciated
   EXT: No C/C/E, no palpable cords. Pneumoboots
   NEURO: Negative dolls eyes, spontaneous movements of LE<UE, opens eyes
   to noxious stimuli, answering some questions!!
   SKIN: No jaundice, cyanosis, ecchymoses.
   Skin:  No visible rashes.
   Labs / Radiology
   220 K/uL
   9.0 g/dL
   201 mg/dL
   1.0 mg/dL
   46 mEq/L
   4.2 mEq/L
   29 mg/dL
   97 mEq/L
   144 mEq/L
   27.2 %
   9.6 K/uL
        [image002.jpg]
                             [**2104-12-15**]  09:47 PM
                             [**2104-12-16**]  03:14 AM
                             [**2104-12-16**]  03:23 AM
                             [**2104-12-17**]  04:31 AM
                             [**2104-12-18**]  03:40 AM
                             [**2104-12-18**]  05:16 AM
                             [**2104-12-19**]  04:27 AM
                             [**2104-12-19**]  09:44 AM
                             [**2104-12-19**]  08:19 PM
                             [**2104-12-20**]  03:01 AM
   WBC
   17.7
   11.7
   15.7
   11.9
   9.6
   Hct
   28.2
   25.7
   29.6
   27.1
   27.2
   Plt
   [**Telephone/Fax (3) 3393**]22
   220
   Cr
   0.7
   0.7
   0.9
   1.2
   0.9
   1.0
   TCO2
   36
   38
   46
   Glucose
   94
   84
   77
   80
   158
   83
   135
   201
   Other labs: PT / PTT / INR:12.6/28.5/1.1, CK / CKMB /
   Troponin-T:191/11/0.08, ALT / AST:70/50, Alk Phos / T Bili:33/0.3,
   Lactic Acid:0.6 mmol/L, LDH:454 IU/L, Ca++:9.1 mg/dL, Mg++:1.9 mg/dL,
   PO4:1.7 mg/dL
   Assessment and Plan
   64M homeless h/o COPD, asthma, EtOH abuse who intially presented with
   SOB, likely COPD exacerbation, left AMA, now s/p cardiac arrest x 2
   with bilateral CTs removed for PTX.  Extubated and suffering neurologic
   impairment with ?spinal cord compression.
   .
   #  ?Cord injury: Uncertain whether patient has some degree of cervical
   cord compression based on imaging.  Patient cannot lie flat for MRI
   scanner.  Is currently wearing a c-collar.
   - neuro following
   - per ortho spine, no indication for spinal decompression surgery, can
   change to soft collar, MRI when able
   # SOB/Resp Failure: Now successfully extubated and protecting his own
   airway, though does have relatively uncoordinated respiratory movements
   and upper airway obstructive sounds.  Nebs somewhat helpful.
   - Trend WBC count, fever curve
   - Will increase Prednisone to 60mg PO qday for COPD treatment
   - Continue atrovent and albuterol nebs
   - hold on diuresis today with goal to keep even
   .
   # Positive Blood Cultures with Coag negative staph: from PICC line on
   [**2104-12-17**], Coag negative staph in [**3-15**] bottles.  Had Coag neg staph from
   cultures [**2104-12-15**].  Otherwise afebrile and WBCs are trending down.
   - start Vancomycin for now and repeat cultures from peripheral and
   PICC.  Will consider stopping abxs if follow-up cxs come back negative.
   # Agitation, mental status: Agitation improved, continues to be
   hypertensive.  EtOH withdrawal and risk of DTs likely over.  Mental
   status appears to be improving.  Following neuro recs to investigate
   AMS further.  Pt. cannot tolerate lying flat for MRI.  Pt currently
   becomes agitated, hypertensive and tachycardic.  This is likely from
   underlying anoxic brain injury.
   - Captopril for hypertension
   - Seroquel 50mg PO TID
   - Cont. Ativan for agitation.
   .
   #. Hypertension: On reviewing old records, pt. has a history of HTN and
   was previously discharged from this institution on lisinopril and
   atenolol.  Thus, he likely has HTN at baseline and requires some
   medication for this.
   - increase Captopril to 12.5 PO TID
   - Holding beta blocker as pt. is bradycardic at times, bronchospastic
   - nebulizers only prn.
   # Medical decision making:
   - Pursuing conversations with the family
   - Pursing guardianship
 paperwork was given to SW
   # S/P cardiac arrest: Etiologies include pneumothorax, hypoxia,
   hyperkalemia, acidosis, among others. Seizure may have been a component
   of initial arrest given unresponsiveness, abnormal movements, and
   incontinence. Received multiple rounds epi and atropine in the ED, as
   well as 3x shocks. 2^nd arrest am [**12-5**] during cooling protocol.
   Current neoro exam 48 hours from arrest s/p cooling and rewarming with
   minimal reaction however still sedated since becomes tachypneic
   agitated when sedation weaned.  Completed Arctic Sun protocol [**12-6**] and
   rewarmed, off paralytics; Had a head CT without intracranial pathology
   but has fluid in sinuses.
   - Continue supportive care s/p arrest.
   # Sinusitis: Pt
s head CT has fluid in sinuses and has purulent
   drainage L nostril c/w possible sinusitis. Currently afebrile
   -          See treatment above
   # CAD s/p silent myocardial infarction: s/p cardiac arrest and multiple
   shocks.
   - Add ASA
   - Hold B-blocker given intermittent bradycardia, bronchospasm
   - Consider statin
   .
   # PTSD/bipolar disorder: Appears that he is not on medications as
   outpatient. Per family, has been seen in VA system
   .
   # History of alcoholic hepatitis: normal on check [**2104-12-4**], slightly
   elevated on repeat but has had episodes hypotension, cardiac arrest.
   .
   # FEN: Pt. tolerating TFs per nutrition recs. Attempt to diurese
   another 0.5 to 1L, but will only give lasix once today due to increase
   in creatinine overnight. Replete electrolytes PRN.
   # Access:  PICC line placed [**12-8**].
   # PPx:  Heparin SC tid, bowel regimen, discontinued the H2 blocker to
   filter out any influence on his mental status. On PPI
   # Code:  FULL presumed
   # Dispo:  MICU
   # Communication:  Spoke with brother [**Name (NI) **] [**Name (NI) 2269**] (Cell [**0-0-**])
   and updated. Closest family member is oldest son [**Name (NI) 3062**].  [**Name2 (NI) 3062**] and
   [**Doctor Last Name **] both in [**Location (un) 3063**].  Social work spoke with [**Doctor Last Name 3062**] who would like to
   make medical decisions and pursue guardianship if necessary.  (see SW
   note).  Guardianship paperwork in progress.
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2104-12-19**] 10:00 AM 80 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2104-12-8**] 07:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 64M COPD flare, arrest x2 due to tension PTX
   s/p bilateral CT placement. Now extubated. Mental status remains
   variable but generally drowsy, following some commands but speaking in
   single words and tracking to voice. Awaiting MRI, orthospine following
   for concern of cervical cord lesion.
   Exam notable for Tm 99.8  99.3 BP 80/39-182/104 RR 17  with sat 98
   on 35% FM   WD M, following simple commands. Poor air mvoement with
   long expiratory phase and UA wheeze on expiration. Distant HS.
   Distended abd, + BS, NT. trace dep edema with 2+ distal pulses. Labs
   notable for WBC 9.6 K, K+ 3.5, Cr 1.0. BCx [**12-15**] + CNS blood x1, [**12-16**]
   ngtd, [**12-17**] CNS; no new imaging
   Agree with plan to continue PO steroids
increase pred dose to 60 and
   continue nebs PRN for COPD flare as he remains with exp wheeze. Hold on
   diuresis, given cr bump (now back to baseline) with stable urine
   output.  Given concern for cervical cord lesion, ortho spine consulted,
   and awaiting further imaging with MRI.  This will be high risk given
   his lung disease and mental status at this time. Continue hard collar
   for now. For GPC in blood, now recurrent, will repeat surveillance cxs
   off peripiheral site.  Restart empiric vanco though may be
   contaminent.  Continue picc for now as remains AF with no
   leukocytosis.  If repeat cx return pos will d/c picc. Encephalopathy is
   multifactorial, will follow serial exams and limit psychotropic meds
   except seroquel and low dose ativan PRN. BP remains suboptimally
   controlled--titrate ace-i and treat agitation. Guardianship paperwork
   underway. Remainder of plan as outlined above.
   Patient is critically ill.
   Total time: 40 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 215**] [**Last Name (NamePattern1) 216**], MD
   on:[**2104-12-20**] 08:09 PM ------

2104-12-21 05:37:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Per ortho spine, no need for surgical decompression at this time, can
   place in soft collar
   Started ppi
   Increased Prednisone to 60mg PO qday
   BCs with Staph Aureus (second culture), started Vancomycin
   Agitated, ?respiratory distress vs agitation overnight, relieved with
   Morphine 2mg q4-6hours
   Gave some diamox for diuresis to help improve respiratory status (also
   tried nebs, seroquel, ativan)
   Increased captopril for better BP control
   Guardianship paperwork given to SW
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2104-12-20**] 05:18 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2104-12-21**] 12:26 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-12-21**] 05:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.3
C (97.4
   HR: 88 (88 - 130) bpm
   BP: 102/63(72) {97/52(64) - 219/128(139)} mmHg
   RR: 12 (12 - 33) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.9 kg (admission): 79.4 kg
   Height: 70 Inch
             Total In:
                                                                  2,485 mL
                                                                    559 mL
   PO:
             TF:
                                                                  1,920 mL
                                                                    445 mL
   IVF:
                                                                    325 mL
                                                                     28 mL
   Blood products:
   Total out:
                                                                  1,190 mL
                                                                    165 mL
   Urine:
                                                                  1,190 mL
                                                                    165 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,295 mL
                                                                    394 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 98%
   ABG: 7.41/68/50/42/14
   PaO2 / FiO2: 143
   Physical Examination
   GEN: Elderly male, vocalizes, appears in respiratory distress with
   paradoxical breathing motions
   HEENT: Pupils minimally asymmetric, but reactive bilaterally, sclera
   anicteric
   NECK: Trachea midline
   COR: RRR, no M/G/R, normal S1 S2, radial pulses +2
   CHEST: Resolved subcutaneous crepitus, symmetric chest expansion
   PULM: Coarse breath sounds bilaterally; end-expiratory wheezing.
    ABD: Soft, NT, ND, hypoactive BS, no HSM appreciated
   EXT: No C/C/E, no palpable cords. Pneumoboots
   NEURO: Negative dolls eyes, spontaneous movements of UE<LE, opens eyes
   to noxious stimuli, answering some questions!!
   SKIN: No jaundice, cyanosis, ecchymoses.
   Skin:  No visible rashes.
   Labs / Radiology
   242 K/uL
   9.2 g/dL
   136 mg/dL
   1.0 mg/dL
   42 mEq/L
   3.6 mEq/L
   26 mg/dL
   99 mEq/L
   144 mEq/L
   27.9 %
   12.1 K/uL
        [image002.jpg]
                             [**2104-12-18**]  03:40 AM
                             [**2104-12-18**]  05:16 AM
                             [**2104-12-19**]  04:27 AM
                             [**2104-12-19**]  09:44 AM
                             [**2104-12-19**]  08:19 PM
                             [**2104-12-20**]  03:01 AM
                             [**2104-12-20**]  10:06 AM
                             [**2104-12-20**]  04:00 PM
                             [**2104-12-20**]  10:00 PM
                             [**2104-12-21**]  03:03 AM
   WBC
   15.7
   11.9
   9.6
   12.1
   Hct
   29.6
   27.1
   27.2
   27.9
   Plt
   241
   222
   220
   242
   Cr
   0.9
   1.2
   0.9
   1.0
   1.0
   TCO2
   38
   46
   45
   Glucose
   158
   83
   135
   201
   131
   184
   149
   136
   Other labs: PT / PTT / INR:13.3/25.9/1.1, CK / CKMB /
   Troponin-T:191/11/0.08, ALT / AST:70/50, Alk Phos / T Bili:33/0.3,
   Lactic Acid:0.6 mmol/L, LDH:454 IU/L, Ca++:9.3 mg/dL, Mg++:2.4 mg/dL,
   PO4:4.3 mg/dL
   Assessment and Plan
   64M homeless h/o COPD, asthma, EtOH abuse who intially presented with
   SOB, likely COPD exacerbation, left AMA, now s/p cardiac arrest x 2
   with bilateral CTs removed for PTX.  Extubated and suffering neurologic
   impairment with ?spinal cord compression.
   .
   # Cord injury?: Uncertain whether patient has some degree of cervical
   cord compression based on imaging.  Patient cannot lie flat for MRI
   scanner.  Is currently wearing a soft c-collar.
   - Neuro following
   - Per ortho spine, no indication for spinal decompression surgery, can
   change to soft collar
   - MRI when able.
   # SOB/Resp Failure: Now successfully extubated and protecting his own
   airway, though does have relatively uncoordinated respiratory movements
   and upper airway obstructive sounds.  Nebs somewhat helpful.
   - Trend WBC count, fever curve
   - Will increase Prednisone to 60mg PO qday for COPD treatment
   - Continue atrovent and albuterol nebs
   - Hold on diuresis today with goal to keep even, and perhaps small
   amounts of IVF.
   - Heliox trial in an attempt to reduce upper airway resistance.
   .
   # Positive Blood Cultures with Coag negative staph: from PICC line on
   [**2104-12-17**], Coag negative staph in [**3-15**] bottles.  Had Coag neg staph from
   cultures [**2104-12-15**].  Otherwise afebrile and WBCs are trending down.
   - start Vancomycin for now and repeat cultures from peripheral and
   PICC.  Will consider stopping abxs if follow-up cxs come back negative.
   - Will follow pending cultures; if negative, will stop and strip
   Vancomycin.
   # Agitation, mental status: Agitation improved, continues to be
   intermittently hypertensive.  EtOH withdrawal and risk of DTs likely
   over.  Mental status appears to be improving.  Following neuro recs to
   investigate AMS further.  Pt. cannot tolerate lying flat for MRI.  Pt
   currently becomes agitated, hypertensive and tachycardic.
   - Captopril for hypertension
   - Seroquel 50mg PO TID
   - Cont. Ativan for agitation.
   - PRN Morphine.
   .
   #. Hypertension: On reviewing old records, pt. has a history of HTN and
   was previously discharged from this institution on lisinopril and
   atenolol.  Thus, he likely has HTN at baseline and requires some
   medication for this.
   - Increase Captopril to 12.5 PO TID
   - Holding beta blocker as pt. is bradycardic at times, bronchospastic
   - Nebulizers only prn.
   # Medical decision making:
   - Pursuing conversations with the family
   - Pursing guardianship
 paperwork was given to SW
   # S/P cardiac arrest: Etiologies include pneumothorax, hypoxia,
   hyperkalemia, acidosis, among others. Seizure may have been a component
   of initial arrest given unresponsiveness, abnormal movements, and
   incontinence. Received multiple rounds epi and atropine in the ED, as
   well as 3x shocks. 2^nd arrest am [**12-5**] during cooling protocol.
   Current neoro exam 48 hours from arrest s/p cooling and rewarming with
   minimal reaction however still sedated since becomes tachypneic
   agitated when sedation weaned.  Completed Arctic Sun protocol [**12-6**] and
   rewarmed, off paralytics; Had a head CT without intracranial pathology
   but has fluid in sinuses.
   - Continue supportive care s/p arrest.
   # Sinusitis: Pt
s head CT has fluid in sinuses and has purulent
   drainage L nostril c/w possible sinusitis. Currently afebrile.
   - See treatment above
   # CAD s/p silent myocardial infarction: s/p cardiac arrest and multiple
   shocks.
   - Add ASA
   - Hold B-blocker given intermittent bradycardia, bronchospasm
   - Consider statin.
   .
   # PTSD/bipolar disorder: Appears that he is not on medications as
   outpatient. Per family, has been seen in VA system.
   .
   # History of alcoholic hepatitis: normal on check [**2104-12-4**], slightly
   elevated on repeat but has had episodes hypotension, cardiac arrest.
   .
   # FEN:  Pt. tolerating TFs per nutrition recs. Will consider small
   amounts of diamox to correct metabolic alkolosis.  Replete electrolytes
   PRN.
   # Access:  PICC line placed [**12-8**].
   # PPx:  Heparin SC TID, bowel regimen, discontinued the H2 blocker to
   filter out any influence on his mental status; On PPI
   # Code:  FULL presumed
   # Dispo:  MICU
   # Communication:  Spoke with brother [**Name (NI) **] [**Name (NI) 2269**] (Cell [**0-0-**])
   and updated. Closest family member is oldest son [**Name (NI) 3062**].  [**Name2 (NI) 3062**] and
   [**Doctor Last Name **] both in [**Location (un) 3063**].  Social work spoke with [**Doctor Last Name 3062**] who would like to
   make medical decisions and pursue guardianship if necessary.  (see SW
   note).  Guardianship paperwork in progress.
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2104-12-19**] 10:00 AM 80 mL/hour
   Lines:
   PICC Line - [**2104-12-8**] 07:05 PM

2104-12-22 05:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Bood culture growing GPC = represents 3rd blood culture with GPCs, of
   which the first two grew Coag (-) Staph: sensative to vanco.
   - Received some diamox to correct metabolic alkalosis and to keep
   fluids net even.
   - Did not require Heliox trial.
   - Guardianship papers turned into appropriate personnel.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2104-12-21**] 07:34 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2104-12-21**] 11:05 AM
   Heparin Sodium (Prophylaxis) - [**2104-12-21**] 11:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-12-22**] 05:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 109 (86 - 121) bpm
   BP: 162/72(95) {86/45(57) - 176/110(125)} mmHg
   RR: 23 (11 - 35) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 70.1 kg (admission): 79.4 kg
   Height: 70 Inch
                  Total In:
                                                                  2,626 mL
                                                                    431 mL
   PO:
                  TF:
                                                                  1,921 mL
                                                                    431 mL
   IVF:
                                                                    500 mL
   Blood products:
   Total out:
                                                                  1,628 mL
                                                                    550 mL
   Urine:
                                                                  1,628 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    998 mL
                                                                   -119 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: ///35/
   Physical Examination
   GEN: Elderly male, vocalizes, appears in respiratory distress with
   paradoxical breathing motions
   HEENT: Pupils minimally asymmetric, but reactive bilaterally, sclera
   anicteric
   NECK: Trachea midline
   COR: RRR, no M/G/R, normal S1 S2, radial pulses +2
   CHEST: Resolved subcutaneous crepitus, symmetric chest expansion
   PULM: Coarse breath sounds bilaterally; end-expiratory wheezing.
    ABD: Soft, NT, ND, hypoactive BS, no HSM appreciated
   EXT: No C/C/E, no palpable cords. Pneumoboots
   NEURO: Negative dolls eyes, spontaneous movements of UE<LE, opens eyes
   to noxious stimuli, answering some questions!!
   SKIN: No jaundice, cyanosis, ecchymoses.
   Skin:  No visible rashes.
   Labs / Radiology
   222 K/uL
   8.9 g/dL
   122 mg/dL
   0.8 mg/dL
   35 mEq/L
   4.3 mEq/L
   28 mg/dL
   100 mEq/L
   137 mEq/L
   27.9 %
   12.0 K/uL
        [image002.jpg]
                             [**2104-12-18**]  05:16 AM
                             [**2104-12-19**]  04:27 AM
                             [**2104-12-19**]  09:44 AM
                             [**2104-12-19**]  08:19 PM
                             [**2104-12-20**]  03:01 AM
                             [**2104-12-20**]  10:06 AM
                             [**2104-12-20**]  04:00 PM
                             [**2104-12-20**]  10:00 PM
                             [**2104-12-21**]  03:03 AM
                            [**2104-12-22**]  03:02 AM
   WBC
   15.7
   11.9
   9.6
   12.1
   12.0
   Hct
   29.6
   27.1
   27.2
   27.9
   27.9
   Plt
   241
   222
   220
   242
   222
   Cr
   0.9
   1.2
   0.9
   1.0
   1.0
   0.8
   TCO2
   46
   45
   Glucose
   158
   83
   135
   201
   131
   184
   149
   136
   122
   Other labs: Ca++:9.2 mg/dL, Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Micro: GPCs in [**12-20**] bottle; coag neg Staph that is oxacillin resistant
   from [**12-17**]
   Assessment and Plan
   64M homeless h/o COPD, asthma, EtOH abuse who intially presented with
   SOB, likely COPD exacerbation, left AMA, now s/p cardiac arrest x 2
   with bilateral CTs removed for PTX.  Extubated and suffering neurologic
   impairment with ?spinal cord compression.
   .
   # Cord injury?: Uncertain whether patient has some degree of cervical
   cord compression based on imaging.  Patient cannot lie flat for MRI
   scanner.  Is currently wearing a soft c-collar.
   - Neuro following
   - Per ortho spine, no indication for spinal decompression surgery, can
   change to soft collar
   - MRI when able.
   # SOB/Resp Failure: Now successfully extubated and protecting his own
   airway, though does have relatively uncoordinated respiratory movements
   and upper airway obstructive sounds.  Nebs and seroquel somewhat
   helpful.
   - Trend WBC count, fever curve
   - Cont. Prednisone to 60mg PO qday for COPD treatment
   - Continue atrovent nebs and change albuterol to xopenex nebs to avoid
   tachycardia and increased agitation
   - Hold on diuresis today with goal to keep even.
   - BiPAP or Heliox trial in an attempt to reduce upper airway
   resistance.
   .
   # Positive Blood Cultures with Coag negative staph: from PICC line on
   [**2104-12-17**], Coag negative staph in [**4-14**] bottles.  Had Coag neg staph from
   cultures [**2104-12-15**].  Otherwise afebrile and WBCs are trending down.
   - Cont. Vancomycin for now and repeat cultures from peripheral and
   PICC.  Will consider stopping abxs if follow-up cxs come back negative.
   - Remove PICC and place peripheral IV
   - ECHO to check for valve vegetation
   .
   # Agitation, mental status: Agitation improved, continues to be
   intermittently hypertensive.  EtOH withdrawal and risk of DTs likely
   over.  Mental status appears to be improving.  Following neuro recs to
   investigate AMS further.  Pt. cannot tolerate lying flat for MRI.  Pt
   currently becomes agitated, hypertensive and tachycardic.
   - Captopril for hypertension
   - Seroquel 50mg PO TID
   - Cont. Ativan for agitation.
   - PRN Morphine.
   .
   #. Hypertension: On reviewing old records, pt. has a history of HTN and
   was previously discharged from this institution on lisinopril and
   atenolol.  Thus, he likely has HTN at baseline and requires some
   medication for this.
   - Increase Captopril to 12.5 PO TID
   - Holding beta blocker as pt. is bradycardic at times, bronchospastic
   - Nebulizers only prn.
   # Medical decision making:
   - Pursuing conversations with the family
   - Pursing guardianship
 paperwork was given to SW
   # S/P cardiac arrest: Etiologies include pneumothorax, hypoxia,
   hyperkalemia, acidosis, among others. Seizure may have been a component
   of initial arrest given unresponsiveness, abnormal movements, and
   incontinence. Received multiple rounds epi and atropine in the ED, as
   well as 3x shocks. 2^nd arrest am [**12-5**] during cooling protocol.
   Current neoro exam 48 hours from arrest s/p cooling and rewarming with
   minimal reaction however still sedated since becomes tachypneic
   agitated when sedation weaned.  Completed Arctic Sun protocol [**12-6**] and
   rewarmed, off paralytics; Had a head CT without intracranial pathology
   but has fluid in sinuses.
   - Continue supportive care s/p arrest.
   # Sinusitis: Pt
s head CT has fluid in sinuses and has purulent
   drainage L nostril c/w possible sinusitis. Currently afebrile.
   - See treatment above
   # CAD s/p silent myocardial infarction: s/p cardiac arrest and multiple
   shocks.
   - Add ASA
   - Hold B-blocker given intermittent bradycardia, bronchospasm
   - Consider statin.
   .
   # PTSD/bipolar disorder: Appears that he is not on medications as
   outpatient. Per family, has been seen in VA system.
   .
   # History of alcoholic hepatitis: normal on check [**2104-12-4**], slightly
   elevated on repeat but has had episodes hypotension, cardiac arrest.
   .
   # Hyperglycemia: Will place on low level standing glargine and change
   humalog to regular insulin for sliding scale to provide better glycemic
   control.
   .
   # FEN:  Pt. tolerating TFs per nutrition recs. Will consider small
   amounts of diamox to correct metabolic alkolosis.  Replete electrolytes
   PRN.  Will speak with IP about placing PEG.
   # Access:  PICC line placed [**12-8**], will remove and place peripherals
   # PPx:  Heparin SC TID, bowel regimen, discontinued the H2 blocker to
   filter out any influence on his mental status; On PPI
   # Code:  FULL presumed
   # Dispo:  MICU
   # Communication:  Spoke with brother [**Name (NI) **] [**Name (NI) 2269**] (Cell [**0-0-**])
   and updated. Closest family member is oldest son [**Name (NI) 3062**].  [**Name2 (NI) 3062**] and
   [**Doctor Last Name **] both in [**Location (un) 3063**].  Social work spoke with [**Doctor Last Name 3062**] who would like to
   make medical decisions and pursue guardianship if necessary.  (see SW
   note).  Guardianship paperwork in progress.
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2104-12-22**] 02:59 AM 80 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2104-12-8**] 07:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2104-12-22 10:22:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient with recurrent blood culture return with staph species
   24 Hour Events:
   Coag Neg Staph in Blood cultures
   Frequent and recurrent acute episodes of resp distress and agitation
   treated with Zyprexa
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2104-12-22**] 08:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2104-12-21**] 11:05 AM
   Heparin Sodium (Prophylaxis) - [**2104-12-22**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2104-12-22**] 10:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (98.9
   HR: 99 (86 - 121) bpm
   BP: 85/55(63) {85/45(57) - 179/110(125)} mmHg
   RR: 20 (11 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70.1 kg (admission): 79.4 kg
   Height: 70 Inch
             Total In:
                                                                  2,626 mL
                                                                  1,136 mL
   PO:
             TF:
                                                                  1,921 mL
                                                                    796 mL
   IVF:
                                                                    500 mL
                                                                    250 mL
   Blood products:
   Total out:
                                                                  1,628 mL
                                                                    850 mL
   Urine:
                                                                  1,628 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    998 mL
                                                                    286 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: ///35/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   , Diminished: )
Patient with prominent expiratory effort with anterior
   abdominal wall activation with decreased air movements noted.  He has
   minimal stridor and in fact no stridor noted this morning.
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.9 g/dL
   222 K/uL
   122 mg/dL
   0.8 mg/dL
   35 mEq/L
   4.3 mEq/L
   28 mg/dL
   100 mEq/L
   137 mEq/L
   27.9 %
   12.0 K/uL
        [image002.jpg]
                             [**2104-12-18**]  05:16 AM
                             [**2104-12-19**]  04:27 AM
                             [**2104-12-19**]  09:44 AM
                             [**2104-12-19**]  08:19 PM
                             [**2104-12-20**]  03:01 AM
                             [**2104-12-20**]  10:06 AM
                             [**2104-12-20**]  04:00 PM
                             [**2104-12-20**]  10:00 PM
                             [**2104-12-21**]  03:03 AM
                            [**2104-12-22**]  03:02 AM
   WBC
   15.7
   11.9
   9.6
   12.1
   12.0
   Hct
   29.6
   27.1
   27.2
   27.9
   27.9
   Plt
   241
   222
   220
   242
   222
   Cr
   0.9
   1.2
   0.9
   1.0
   1.0
   0.8
   TCO2
   46
   45
   Glucose
   158
   83
   135
   201
   131
   184
   149
   136
   122
   Other labs: PT / PTT / INR:13.3/25.9/1.1, CK / CKMB /
   Troponin-T:191/11/0.08, ALT / AST:70/50, Alk Phos / T Bili:33/0.3,
   Lactic Acid:0.6 mmol/L, LDH:454 IU/L, Ca++:9.2 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.6 mg/dL
   Microbiology: Blood Cultures--
   Coag negative staph seen on BC
   Assessment and Plan
   64 yo male with history of COPD now s/p arrest with bilateral
   pneumothorax and now with evidence of persistent bacteremia and altered
   mental status slow to improve.
   -COPD with Acute Exacerbation-
   Treatment is to be with
   -Prednisone to continue
   -Atrovent nebs to continue standing and PRN
   -CXR this morning with ABG to conitinue
   -Add Zopinex
   -Needs [**Hospital1 **]-Level support to allow facilitation of ventilation and
   enhance expiratory time to allow minimization of dynamic
   hyperinflation.
   -BIPAP in 2 hour trials to continue
   Bacteremia-Persisent positive blood cultures
   -Vanco
   -Possible sources are central cardiac source of possible embolic
   phenomenon
   -ECHO today
   -Consider more CNS imaging
   -Line change required and would favor peripheral IV
s and will place
   central line if needed
   -Epidural Abscess is raised as a possibility given findings on CT scan
   and concerning positive cultures and would favor MRI scan should
   alternative sources not be clearly seen and with persistent abnormal
   exam will have to consider MRI today but would require intubation.
   Cord Compression-
   -See above for concern for Epidural Abscess but has not been raised as
   issue to date but must be considered in the setting of persistent
   bacteremia
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CARDIAC ARREST
 PNEUMOTHORAX, OTHER (NOT HOSPITAL ACQUIRED OR TRAUMATIC)
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 .H/O ABDOMINAL COMPARTMENT SYNDROME / INTRAABDOMINAL HYPERTENSION
   (IAH, ACS)
 ALTERATION IN NUTRITION
 ELECTROLYTE & FLUID DISORDER, OTHER
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 VENTRICULAR PREMATURE BEATS (VPB, VPC, PVC)
 CONSTIPATION (OBSTIPATION, FOS)
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 .H/O RESPIRATORY FAILURE, CHRONIC
 HYPERTENSION, BENIGN
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2104-12-22**] 02:59 AM 80 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2104-12-8**] 07:05 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Guardianship being pursued by patient
s son
   [**Name (NI) 36**] status: Full code
   Disposition :ICU
   Total time spent: 45minutes
   Patient is critically ill

2104-12-23 06:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2104-12-22**] 11:30 AM
   first set RW
 TRANSTHORACIC ECHO - At [**2104-12-22**] 02:00 PM
 BLOOD CULTURED - At [**2104-12-22**] 03:00 PM
   second set, LH
 URINE CULTURE - At [**2104-12-22**] 05:00 PM
   In light of sediment/cloudiness.
 MAGNETIC RESONANCE IMAGING - At [**2104-12-22**] 09:00 PM
   -Re-intubated to have MRI imaging
   -Vanco approved
   -D/c albuterol & started Xopenex
   -Bipap not tried
   -Repeat Blood cx
   -D/C PICC line/ culture tip - held d/t reintubation & BP drop
   -asked micro to test sensitivities from most recent + blood culture
   -started glargine & humalog ss changed to regular ss
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2104-12-22**] 08:00 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2104-12-22**] 05:45 PM
   Heparin Sodium (Prophylaxis) - [**2104-12-23**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-12-23**] 06:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37
C (98.6
   HR: 78 (71 - 125) bpm
   BP: 96/47(57) {73/43(50) - 183/104(116)} mmHg
   RR: 22 (11 - 35) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70.1 kg (admission): 79.4 kg
   Height: 70 Inch
             Total In:
                                                                  3,080 mL
                                                                  1,231 mL
   PO:
             TF:
                                                                  1,540 mL
                                                                    436 mL
   IVF:
                                                                  1,300 mL
                                                                    645 mL
   Blood products:
   Total out:
                                                                  1,995 mL
                                                                    228 mL
   Urine:
                                                                  1,995 mL
                                                                    228 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,085 mL
                                                                  1,003 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 159 (159 - 159) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 143
   PIP: 24 cmH2O
   Plateau: 22 cmH2O
   Compliance: 29.4 cmH2O/mL
   SpO2: 99%
   ABG: ///33/
   Ve: 5.7 L/min
   Physical Examination
   GEN: Elderly male, vocalizes, appears in respiratory distress with
   paradoxical breathing motions
   HEENT: Pupils minimally asymmetric, but reactive bilaterally, sclera
   anicteric
   NECK: Trachea midline
   COR: RRR, no M/G/R, normal S1 S2, radial pulses +2
   CHEST: Resolved subcutaneous crepitus, symmetric chest expansion
   PULM: Coarse breath sounds bilaterally; end-expiratory wheezing.
    ABD: Soft, NT, ND, hypoactive BS, no HSM appreciated
   EXT: No C/C/E, no palpable cords. Pneumoboots
   NEURO: Negative dolls eyes, spontaneous movements of UE<LE, opens eyes
   to noxious stimuli, answering some questions!!
   SKIN: No jaundice, cyanosis, ecchymoses.
   Skin:  No visible rashes.
   Labs / Radiology
   199 K/uL
   7.7 g/dL
   115 mg/dL
   0.7 mg/dL
   33 mEq/L
   3.6 mEq/L
   25 mg/dL
   104 mEq/L
   139 mEq/L
   22.6 %
   9.8 K/uL
        [image002.jpg]
                             [**2104-12-19**]  04:27 AM
                             [**2104-12-19**]  09:44 AM
                             [**2104-12-19**]  08:19 PM
                             [**2104-12-20**]  03:01 AM
                             [**2104-12-20**]  10:06 AM
                             [**2104-12-20**]  04:00 PM
                             [**2104-12-20**]  10:00 PM
                             [**2104-12-21**]  03:03 AM
                            [**2104-12-22**]  03:02 AM
                            [**2104-12-23**]  03:15 AM
   WBC
   11.9
   9.6
   12.1
   12.0
   9.8
   Hct
   27.1
   27.2
   27.9
   27.9
   22.6
   Plt
   222
   220
   242
   222
   199
   Cr
   1.2
   0.9
   1.0
   1.0
   0.8
   0.7
   TCO2
   46
   45
   Glucose
   83
   135
   201
   131
   184
   149
   136
   122
   115
   Other labs: Ca++:8.5 mg/dL, Mg++:1.9 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   64M homeless h/o COPD, asthma, EtOH abuse who intially presented with
   SOB, likely COPD exacerbation, left AMA, now s/p cardiac arrest x 2
   with bilateral CTs removed for PTX.  Extubated and suffering neurologic
   impairment with ?spinal cord compression.
   .
   # Cord injury?: Uncertain whether patient has some degree of cervical
   cord compression based on CT imaging.  Patient could not lie flat for
   MRI scanner without sedation and was placed in a soft c-collar per
   ortho spine recs.  Due to concern for possible epidural abscess in the
   setting of fevers, abnormal neurologic exam, and possible cord lesion
   patient was reintubated on [**12-22**] to have definitive imaging.
   Preliminarily no evidence of epidural abscess or cord compression on
   MRI.
   - F/u final neck & brain MRI reads
   - Neuro following
   - Per ortho spine, no indication for spinal decompression surgery, can
   change to soft collar
   # SOB/Resp Failure: Patient had been protecting his own airway and was
   reintubated to have MRI studies on evening of [**12-22**].  He did have
   relatively uncoordinated respiratory movements this morning as he has
   in the past.  Continuing nebs & seroquel.
   - Trend WBC count, fever curve
   - Cont. Prednisone to 60mg PO qday for COPD treatment
   - Continue atrovent nebs and xopenex nebs to avoid tachycardia and
   increased agitation
   - Diuresis today with 20 IV Lasix.
   - SBT this morning with goal to extubated this afternoon if pt.
   tolerating attempt to wean from vent.
   - BiPAP or Heliox trial in an attempt to reduce upper airway
   resistance.
   .
   # Positive Blood Cultures with Coag negative staph: from PICC line on
   [**2104-12-17**], Coag negative staph in [**4-14**] bottles.  Had Coag neg staph from
   cultures [**2104-12-15**].  Otherwise afebrile and WBCs are trending down.  No
   vegetations seen on [**12-22**] ECHO.
   - Cont. Vancomycin for now and repeat cultures from peripheral and PICC
   on [**12-22**].
   - Requested repeat sensitivities on blood culture from [**2104-12-20**]
   - PIV placed yesterday; will remove PICC today
   .
   # PEG placement: Will discuss with general surgery today.  Consent to
   be obtained from patient
s son who is pursuing guardianship.
   .
   # Acute HCT drop: [**Month (only) 51**] be related to receiving IVF last night to support
   BP after sedation for intubation.  Will recheck stat hct and further
   pursue if truly low (stool guaiacs, hemolysis labs).
   .
   # Agitation, mental status: Agitation improved, continues to be
   intermittently hypertensive.  EtOH withdrawal and risk of DTs likely
   over.  Mental status appears to be improving.  Following neuro recs to
   investigate AMS further.  Pt. cannot tolerate lying flat for MRI.  Pt
   currently becomes agitated, hypertensive and tachycardic.
   - Captopril for hypertension
   - Seroquel 50mg PO TID
   - Cont. Ativan for agitation.
   - PRN Morphine.
   .
   #. Hypertension: On reviewing old records, pt. has a history of HTN and
   was previously discharged from this institution on lisinopril and
   atenolol.  Thus, he likely has HTN at baseline and requires some
   medication for this.
   - Increase Captopril to 12.5 PO TID
   - Holding beta blocker as pt. is bradycardic at times, bronchospastic
   - Nebulizers only prn.
   # Medical decision making:
   - Pursuing conversations with the family
   - Pursing guardianship
 paperwork was given to SW
   # S/P cardiac arrest: Etiologies include pneumothorax, hypoxia,
   hyperkalemia, acidosis, among others. Seizure may have been a component
   of initial arrest given unresponsiveness, abnormal movements, and
   incontinence. Received multiple rounds epi and atropine in the ED, as
   well as 3x shocks. 2^nd arrest am [**12-5**] during cooling protocol.
   Current neoro exam 48 hours from arrest s/p cooling and rewarming with
   minimal reaction however still sedated since becomes tachypneic
   agitated when sedation weaned.  Completed Arctic Sun protocol [**12-6**] and
   rewarmed, off paralytics; Had a head CT without intracranial pathology
   but has fluid in sinuses.
   - Continue supportive care s/p arrest.
   # Sinusitis: Pt
s head CT has fluid in sinuses and has purulent
   drainage L nostril c/w possible sinusitis. Currently afebrile.
   - See treatment above
   # CAD s/p silent myocardial infarction: s/p cardiac arrest and multiple
   shocks.
   - Add ASA
   - Hold B-blocker given intermittent bradycardia, bronchospasm
   - Consider statin.
   .
   # PTSD/bipolar disorder: Appears that he is not on medications as
   outpatient. Per family, has been seen in VA system.
   .
   # History of alcoholic hepatitis: normal on check [**2104-12-4**], slightly
   elevated on repeat but has had episodes hypotension, cardiac arrest.
   .
   # Hyperglycemia: Will place on low level standing glargine and change
   humalog to regular insulin for sliding scale to provide better glycemic
   control.
   .
   # FEN:  Pt. tolerating TFs per nutrition recs. Metabolic alkolosis
   improved after diamox.  Replete electrolytes PRN.
   .
   # Access:  PICC line placed [**12-8**], will remove and use peripherals
   # PPx:  Heparin SC TID, bowel regimen, discontinued the H2 blocker to
   filter out any influence on his mental status; On PPI
   # Code:  FULL presumed
   # Dispo:  MICU
   # Communication:  Spoke with brother [**Name (NI) **] [**Name (NI) 2269**] (Cell [**0-0-**])
   and updated. Closest family member is oldest son [**Name (NI) 3062**].  [**Name2 (NI) 3062**] and
   [**Doctor Last Name **] both in [**Location (un) 3063**].  Social work spoke with [**Doctor Last Name 3062**] who would like to
   make medical decisions and pursue guardianship if necessary.  (see SW
   note).  Guardianship paperwork in progress.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2104-12-22**] 02:00 PM 70 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2104-12-8**] 07:05 PM
   20 Gauge - [**2104-12-22**] 01:54 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2104-12-23 09:58:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   Patient intubated electively for MRI Head and TLS spine in the setting
   of persistently positive blood cultures and concern for cord lesions.
   Patient wean to PSV 5/5 this am
   24 Hour Events:
 BLOOD CULTURED - At [**2104-12-22**] 11:30 AM
   first set RW
 TRANSTHORACIC ECHO - At [**2104-12-22**] 02:00 PM
 BLOOD CULTURED - At [**2104-12-22**] 03:00 PM
   second set, LH
 URINE CULTURE - At [**2104-12-22**] 05:00 PM
   In light of sediment/cloudiness.
 MAGNETIC RESONANCE IMAGING - At [**2104-12-22**] 09:00 PM
   History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2104-12-23**] 08:30 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-12-23**] 09:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 601 (159 - 601) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 143
   PIP: 15 cmH2O
   Plateau: 22 cmH2O
   Compliance: 29.4 cmH2O/mL
   SpO2: 100%
   ABG: ///33/
   Ve: 7 L/min
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   #Parameter not mapped#
   #Parameter not mapped#
   #Parameter not mapped#
   #Parameter not mapped#
   #Parameter not mapped#
        [image002.jpg]
                             [**2104-12-19**]  04:27 AM
                             [**2104-12-19**]  09:44 AM
                             [**2104-12-19**]  08:19 PM
                             [**2104-12-20**]  03:01 AM
                             [**2104-12-20**]  10:06 AM
                             [**2104-12-20**]  04:00 PM
                             [**2104-12-20**]  10:00 PM
                             [**2104-12-21**]  03:03 AM
                            [**2104-12-22**]  03:02 AM
                            [**2104-12-23**]  03:15 AM
   WBC
   11.9
   9.6
   12.1
   12.0
   9.8
   Hct
   27.1
   27.2
   27.9
   27.9
   22.6
   Plt
   222
   220
   242
   222
   199
   Cr
   1.2
   0.9
   1.0
   1.0
   0.8
   0.7
   TCO2
   46
   45
   Glucose
   83
   135
   201
   131
   184
   149
   136
   122
   115
   Other labs: PT / PTT / INR:#Parameter not mapped#/#Parameter not
   mapped#/#Parameter not mapped#, CK / CKMB / Troponin-T:#Parameter not
   mapped#/#Parameter not mapped#/#Parameter not mapped#, ALT /
   AST:#Parameter not mapped#/#Parameter not mapped#, Alk Phos / T
   Bili:#Parameter not mapped#/#Parameter not mapped#, Amylase /
   Lipase:#Parameter not mapped#/#Parameter not mapped#
   Imaging: CXR--ETT--6cm above carina, PICC in place, minimal evidence of
   pulmonary infiltrates
   Assessment and Plan
   64 yo male admit with respiratory failure complicated by cardiac arrest
   and bilateral pneumothorax now with concerning findings of persistent
   positive cultures and spine level lesions.  He now has had MR completed
   to evaluate for nature of possible CNS insult or para-spinal
   collection.  By issues will-->
   1)REspiratory Failure
Patient with good tolerance of PSV wean to [**6-16**],
   he does have reasonable response to verbal prompts and is able to
   respond to commands with limited compliance but regular response.
   -SBT today
   -Move to extubation
   -Intermittent BIPAP as needed
   -Atrovent, Prednisone, B-agonist
   2)Spinal Ligament Lesion
MRI without evidence of epidural abscess or
   CNS lesion on [**First Name9 (NamePattern2) **] [**Location (un) **] of MRI which is reassuring
   -Continue with soft collar
   -Follow up final [**Location (un) **]
   -Neuro following and look forward to further input on possible CNS
   insult in light or MRI findings.
   3)Bacteremia-continue to follow culture results, remains on ABX, no new
   cultures positive to date
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CARDIAC ARREST
 PNEUMOTHORAX, OTHER (NOT HOSPITAL ACQUIRED OR TRAUMATIC)
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 .H/O ABDOMINAL COMPARTMENT SYNDROME / INTRAABDOMINAL HYPERTENSION
   (IAH, ACS)
 ALTERATION IN NUTRITION
 ELECTROLYTE & FLUID DISORDER, OTHER
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 VENTRICULAR PREMATURE BEATS (VPB, VPC, PVC)
 CONSTIPATION (OBSTIPATION, FOS)
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 .H/O RESPIRATORY FAILURE, CHRONIC
 HYPERTENSION, BENIGN
   NOTE:Technical Failure of information system prevented transfer of data
   in certain data fields.  Please refer to the resident note of this date
   for further history, data and exam findings with which I agree in full.
   ICU Care
   Nutrition: TF
s in place
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2104-12-24 12:12:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Cardiac Arrest
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient with recurrent respiratory distress with wean of PSV to SBT and
   requiring continuation of mechanical ventilation
   PICC line D/C'd yesterday
   24 Hour Events:
 PICC LINE - STOP [**2104-12-23**] 11:15 AM
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2104-12-23**] 08:32 PM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2104-12-23**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Tachypnea
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2104-12-24**] 11:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.5
C (97.7
   HR: 96 (72 - 103) bpm
   BP: 127/75(87) {77/47(54) - 215/106(109)} mmHg
   RR: 25 (12 - 33) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70 kg (admission): 79.4 kg
   Height: 70 Inch
             Total In:
                                                                  3,310 mL
                                                                  1,082 mL
   PO:
             TF:
                                                                  1,680 mL
                                                                     51 mL
   IVF:
                                                                  1,290 mL
                                                                    791 mL
   Blood products:
   Total out:
                                                                  3,248 mL
                                                                    790 mL
   Urine:
                                                                  3,248 mL
                                                                    790 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     62 mL
                                                                    292 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 392 (258 - 392) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 110
   PIP: 11 cmH2O
   Plateau: 22 cmH2O
   SpO2: 99%
   ABG: 7.38/60/124/29/8
   Ve: 4.7 L/min
   PaO2 / FiO2: 310
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   , Diminished: )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.9 g/dL
   219 K/uL
   86 mg/dL
   0.6 mg/dL
   29 mEq/L
   3.4 mEq/L
   20 mg/dL
   108 mEq/L
   142 mEq/L
   23.4 %
   7.5 K/uL
        [image002.jpg]
                             [**2104-12-20**]  10:06 AM
                             [**2104-12-20**]  04:00 PM
                             [**2104-12-20**]  10:00 PM
                             [**2104-12-21**]  03:03 AM
                            [**2104-12-22**]  03:02 AM
                            [**2104-12-23**]  03:15 AM
                            [**2104-12-23**]  11:06 AM
                            [**2104-12-23**]  11:36 AM
                            [**2104-12-24**]  02:42 AM
                            [**2104-12-24**]  08:14 AM
   WBC
   12.1
   12.0
   9.8
   7.5
   Hct
   27.9
   27.9
   22.6
   23.0
   33
   23.4
   Plt
   [**Telephone/Fax (3) 3519**]19
   Cr
   1.0
   0.8
   0.7
   0.6
   TCO2
   45
   34
   37
   Glucose
   131
   184
   149
   136
   122
   115
   86
   Other labs: PT / PTT / INR:12.7/36.6/1.1, CK / CKMB /
   Troponin-T:191/11/0.08, ALT / AST:70/50, Alk Phos / T Bili:33/0.3,
   Lactic Acid:1.3 mmol/L, LDH:454 IU/L, Ca++:7.1 mg/dL, Mg++:1.7 mg/dL,
   PO4:2.0 mg/dL
   Assessment and Plan
   64 yo male admit initially with exacerbation of COPD now with hospital
   course complicated by recurrent respiratory failure and bactermia.  He
   has MRI performed to evaluate for possible para-spinal collection and
   prelim that is not seen but final read is pending.  Catheter related
   blood stream infection has been raised as a concern for persistent
   fever and bacteremia.
   1)Respiratory Failure-
   -Patient has clear persistent increased resistance attributable to his
   underlying chronic obstructive lung disease.  With quiet respiration
   patient has some increased resistance but is able to maintain a
   reasonable minute ventilation with only minimal dynamic
   hyperinflation.  It would appear that in the setting of tachypnea
   patient has dynamic hyperinflation and subsequent hypercarbic
   respiratory compromise.
   -Both airflows obstruction and agitation do have to be managed.
   -Will move to PSV wean today
   -Would need to have sedation in place to the point of stable
   respiration but responsiveness prior to extubation
   -Wean prednisone to 40mg today
   -Continue bronchodilators
   2)Bactermia-
   -Follow up with MRI final [**Location (un) **]
   -PICC Line out
   -ABX continuing
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CARDIAC ARREST
 PNEUMOTHORAX, OTHER (NOT HOSPITAL ACQUIRED OR TRAUMATIC)
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 .H/O ABDOMINAL COMPARTMENT SYNDROME / INTRAABDOMINAL HYPERTENSION
   (IAH, ACS)
 ALTERATION IN NUTRITION
 ELECTROLYTE & FLUID DISORDER, OTHER
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 VENTRICULAR PREMATURE BEATS (VPB, VPC, PVC)
 CONSTIPATION (OBSTIPATION, FOS)
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 .H/O RESPIRATORY FAILURE, CHRONIC
 HYPERTENSION, BENIGN
   ICU Care
   Nutrition: Patient with intermittent tube feeds while intubated.
   Patient with poor tolerance of po intake and to maintain nutrition will
   proceed with feeding tube placement.  Will evaluate today for PEG tube
   placement
   Glycemic Control:
   Lines:
   20 Gauge - [**2104-12-22**] 01:54 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2104-12-25 05:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2104-12-24**] 04:58 PM
     * MRI neg for cord injury
     * BCx from [**12-20**], [**12-21**], and [**12-23**] catheter tip culture postive for
       coag negative staph
     * zyprexa for agitation - increased standing dose
     * vent weaned to [**6-16**] and held for several hours w/abg stable but
       eventually pt became diaphoretic, tachypnic in absence of agitation
       -> changed back to AC and VS improved, patient appeared more
       comfortable -> back to PSV 10/5 in AM
     * labile BPs; SBPs 180's/120's with agitation - given seroquel,
       ativan
     * surgery evaluated for PEG - no peg now b/c of postive BCx, positive
       cath tip
     * neuro recs: EEG, B12, EMG, consider LP at some point.
     * Diuresis: -900cc (met goal)
     * Given albuterol this morning
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2104-12-24**] 08:27 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2104-12-24**] 03:01 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-12-25**] 05:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 95 (79 - 120) bpm
   BP: 128/51(70) {77/47(54) - 215/120(137)} mmHg
   RR: 15 (12 - 39) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 70 kg (admission): 79.4 kg
   Height: 70 Inch
             Total In:
                                                                  1,720 mL
                                                                     86 mL
   PO:
             TF:
                                                                     51 mL
   IVF:
                                                                  1,248 mL
                                                                     56 mL
   Blood products:
   Total out:
                                                                  2,580 mL
                                                                    305 mL
   Urine:
                                                                  2,580 mL
                                                                    305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -860 mL
                                                                   -220 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 546 (301 - 546) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 127, 118, 71
   PIP: 22 cmH2O
   Plateau: 22 cmH2O
   Compliance: 29.4 cmH2O/mL
   SpO2: 100%
   ABG: 7.44/53/141/33/10
   Ve: 5.1 L/min
   PaO2 / FiO2: 353
   Physical Examination
   GEN: Elderly male, intubated, awake
   HEENT: Pupils minimally asymmetric, but reactive bilaterally, sclera
   anicteric
   NECK: Trachea midline
   COR: RRR, no M/G/R, normal S1 S2, radial pulses +2
   CHEST: Resolved subcutaneous crepitus, symmetric chest expansion
   PULM: Decreased breath sounds bilaterally; end-expiratory wheezing.
    ABD: Soft, NT, ND, hypoactive BS, no HSM appreciated
   EXT: No C/C/E, no palpable cords. Pneumoboots
   NEURO: Negative dolls eyes, spontaneous movements of UE<LE, opens eyes
   to noxious stimuli; sqeezed hand in response to command to do so.
   SKIN: No jaundice, cyanosis, ecchymoses.
   Skin:  No visible rashes.
   Labs / Radiology
   273 K/uL
   9.8 g/dL
   71 mg/dL
   0.8 mg/dL
   37 mEq/L
   3.8 mEq/L
   22 mg/dL
   1023mEq/L
   144 mEq/L
   29.1 %
   8.3 K/uL
        [image002.jpg]
                            [**2104-12-22**]  03:02 AM
                            [**2104-12-23**]  03:15 AM
                            [**2104-12-23**]  11:06 AM
                            [**2104-12-23**]  11:36 AM
                            [**2104-12-24**]  02:42 AM
                            [**2104-12-24**]  08:14 AM
                            [**2104-12-24**]  04:44 PM
                            [**2104-12-24**]  09:46 PM
                            [**2104-12-25**]  03:02 AM
                            [**2104-12-25**]  04:50 AM
   WBC
   12.0
   9.8
   7.5
   8.3
   Hct
   27.9
   22.6
   23.0
   33
   23.4
   29
   29.1
   Plt
   222
   199
   219
   273
   Cr
   0.8
   0.7
   0.6
   0.7
   0.8
   TCO2
   34
   37
   37
   Glucose
   122
   115
   86
   120
   72
   Other labs: PT / PTT / INR:12.3/23.6/1.0, Ca++:9.5 mg/dL, Mg++:2.0
   mg/dL, PO4:2.3 mg/dL
   B12 level: 646
   Vanco 20.9
   ABG: 7.44 / 53 / 141 / 37
   Assessment and Plan
   64M homeless h/o COPD, asthma, EtOH abuse who intially presented with
   SOB, likely COPD exacerbation, left AMA, now s/p cardiac arrest x 2
   with bilateral CTs removed for PTX.  Extubated and suffering neurologic
   impairment with ?spinal cord compression.
   .
   # SOB/Resp Failure: Patient had been protecting his own airway and was
   reintubated to have MRI studies on evening of [**12-22**].  Was not able to
   be extubated yesterday due to respiratory distress during SBTs.
   Continues to look poorly from a respiratory standpoint despite
   appearing adequately sedated with seroquel.   It is likely his
   underlying lung disease that is keeping him from being extubated at
   this point.  Previously his COPD has been steroid responsive.  Patient
   is 11+ 3 days total of intubation currently.
   - Trend WBC count, fever curve
   - Increase prednisone to 80 mg IV Q8H PO qday for COPD treatment
   - Continue atrovent nebs Q6H and xopenex nebs scheduled Q4H with prn
   Q2H; no albuterol to avoid tachycardia and increased agitation
   - Chest CT to further evaluate lungs and r/o other processes (e.g,
   mycetoma given high dose steroid treatment)
   - Reassess respiratory status this evening to consider SBT again
   tomorrow.
   - Consider BiPAP or Heliox trial once extubated.
   .
   # Cord injury?: MRI scan shows no evidence of epidural abscess or cord
   compression.  There is some cervical spine stenosis at C2-C3 and
   C3-C4.
   - Will discuss MRI results w/ ortho spine to check if okay to clear
   from soft collar
   .
   # Altered Mental Status:
 Reason for altered mental status and
   unresponsiveness remains unclear.  MRI of brain without evidence of
   significant anoxic brain injury or other causes to explain
   encephalopathy.  [**Month (only) 51**] be a result of his critical illness and multiple
   medications that he has received.  Neurology is following.  B12 level
   normal.
   - EMG & repeat EEG studies ordered and pending
   - continue seroquel 25 mg PO TID and 25 mg prn agitation.
   - continue ativan and propofol.
   .
   # Positive Blood Cultures with Coag negative staph: Coag neg Staph in
   bottles from [**12-15**], [**12-17**], and [**12-20**] (1 of 2 bottles).    Neg x 2 on [**12-16**],
   no growth yet on [**2-13**] from [**12-20**] or from [**12-22**] and [**12-23**] blood cultures.
   Sensitivities from [**12-20**] are different from [**12-15**].  PICC line tip removed
   [**12-23**] also growing Coag neg Staph.  Unclear if one or more of these
   represent contamination.  Otherwise afebrile and WBCs are trending
   down.  No vegetations seen on [**12-22**] ECHO.
   - Cont. Vancomycin for 14 day course (start [**12-22**] to end [**1-5**]) and
   continue to check surveillance cultures.
   .
   # PEG placement: Discussed with general surgery.  They are willing to
   place after patient has multiple negative blood cultures while on
   antibiotic therapy.  Consent to be obtained from patient
s son who is
   pursuing guardianship.
   .
   # Acute HCT drop: Stable currently, but stool guaiac +.  Will continue
   to monitor.
   .
   #. Hypertension: On reviewing old records, pt. has a history of HTN and
   was previously discharged from this institution on lisinopril and
   atenolol.  Thus, he likely has HTN at baseline and requires some
   medication for this.
   - Increase Captopril to 12.5 PO TID
   - Holding beta blocker as pt. is bradycardic at times, bronchospastic
   - Nebulizers only prn.
   # Medical decision making:
   - Pursuing conversations with the family
   - Pursing guardianship
 paperwork was given to SW
   # S/P cardiac arrest: Etiologies include pneumothorax, hypoxia,
   hyperkalemia, acidosis, among others. Seizure may have been a component
   of initial arrest given unresponsiveness, abnormal movements, and
   incontinence. Received multiple rounds epi and atropine in the ED, as
   well as 3x shocks. 2^nd arrest am [**12-5**] during cooling protocol.
   Current neoro exam 48 hours from arrest s/p cooling and rewarming with
   minimal reaction however still sedated since becomes tachypneic
   agitated when sedation weaned.  Completed Arctic Sun protocol [**12-6**] and
   rewarmed, off paralytics; Had a head CT without intracranial pathology
   but has fluid in sinuses.
   - Continue supportive care s/p arrest.
   # Sinusitis: Pt
s head CT has fluid in sinuses and has purulent
   drainage L nostril c/w possible sinusitis. Currently afebrile.
   - See treatment above
   # CAD s/p silent myocardial infarction: s/p cardiac arrest and multiple
   shocks.
   - Add ASA
   - Hold B-blocker given intermittent bradycardia, bronchospasm
   - Consider statin.
   .
   # PTSD/bipolar disorder: Appears that he is not on medications as
   outpatient. Per family, has been seen in VA system.
   .
   # History of alcoholic hepatitis: normal on check [**2104-12-4**], slightly
   elevated on repeat but has had episodes hypotension, cardiac arrest.
   .
   # Hyperglycemia: Will place on low level standing glargine and change
   humalog to regular insulin for sliding scale to provide better glycemic
   control.
   .
   # FEN:  Pt. tolerating TFs per nutrition recs. Metabolic alkolosis
   improved after diamox.  Replete electrolytes PRN.
   .
   # Access:  PIV x 2
   # PPx:  Heparin SC TID, bowel regimen, discontinued the H2 blocker to
   filter out any influence on his mental status, without improvement; On
   PPI
   # Code:  FULL presumed
   # Dispo:  MICU
   # Communication:  Spoke with brother [**Name (NI) **] [**Name (NI) 2269**] (Cell [**0-0-**])
   and updated. Closest family member is oldest son [**Name (NI) 3062**].  [**Name2 (NI) 3062**] and
   [**Doctor Last Name **] both in [**Location (un) 3063**].  Social work spoke with [**Doctor Last Name 3062**] who would like to
   make medical decisions and pursue guardianship if necessary.  (see SW
   note).  Guardianship paperwork in progress.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2104-12-24**] 05:13 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2104-12-25 10:24:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 SPUTUM CULTURE - At [**2104-12-24**] 04:58 PM
 BLOOD CULTURED - At [**2104-12-25**] 04:30 AM
   MRI--with no cord compromise or epidural collection
   C-Collar discontinued
   Patient to PSV support this morning after A/C support overnight
   History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2104-12-25**] 08:10 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2104-12-25**] 08:10 AM
   Heparin Sodium (Prophylaxis) - [**2104-12-25**] 08:10 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2104-12-25**] 10:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.2
C (99
   HR: 99 (86 - 120) bpm
   BP: 115/68(79) {89/51(62) - 190/138(146)} mmHg
   RR: 24 (15 - 39) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70 kg (admission): 79.4 kg
   Height: 70 Inch
             Total In:
                                                                  1,720 mL
                                                                    389 mL
   PO:
             TF:
                                                                     51 mL
   IVF:
                                                                  1,248 mL
                                                                    299 mL
   Blood products:
   Total out:
                                                                  2,580 mL
                                                                    445 mL
   Urine:
                                                                  2,580 mL
                                                                    445 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -860 mL
                                                                    -56 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 286 (286 - 546) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 36
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 118
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.44/53/141/37/10
   Ve: 12 L/min
   PaO2 / FiO2: 353
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Wheezes : , Diminished: )
Patient with tachypnea to 30
   bpm , tachycardia, hypertension despite excess sedation with all
   parameters suggesting persistent respiratory failure with ongoing
   bronchospastic respiratory failure with hypercarbia
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.8 g/dL
   273 K/uL
   71 mg/dL
   0.8 mg/dL
   37 mEq/L
   3.8 mEq/L
   22 mg/dL
   103 mEq/L
   144 mEq/L
   29.1 %
   8.3 K/uL
        [image002.jpg]
                            [**2104-12-22**]  03:02 AM
                            [**2104-12-23**]  03:15 AM
                            [**2104-12-23**]  11:06 AM
                            [**2104-12-23**]  11:36 AM
                            [**2104-12-24**]  02:42 AM
                            [**2104-12-24**]  08:14 AM
                            [**2104-12-24**]  04:44 PM
                            [**2104-12-24**]  09:46 PM
                            [**2104-12-25**]  03:02 AM
                            [**2104-12-25**]  04:50 AM
   WBC
   12.0
   9.8
   7.5
   8.3
   Hct
   27.9
   22.6
   23.0
   33
   23.4
   29
   29.1
   Plt
   222
   199
   219
   273
   Cr
   0.8
   0.7
   0.6
   0.7
   0.8
   0.8
   TCO2
   34
   37
   37
   Glucose
   122
   115
   86
   120
   72
   71
   Other labs: PT / PTT / INR:12.3/23.6/1.0, CK / CKMB /
   Troponin-T:191/11/0.08, ALT / AST:70/50, Alk Phos / T Bili:33/0.3,
   Lactic Acid:1.3 mmol/L, LDH:454 IU/L, Ca++:9.5 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.3 mg/dL
   Assessment and Plan
   64 yo male with history of COPD and complicated by ongoing respiratory
   failure which has been driven in large part by his background lung
   disease which is represented by chronic fixed obstruction and in the
   setting of tachypnea he moves quite rapidly to dynamic hyperinflation
   and worsening respiratory distress.
   1)Respiratory Failure-Patient with re-intubation for MRI study.
   Patient now with persistent tachycardia, tachypnea and persistent
   hypercarbic failure.  This is despite patient with maximal treatment
   for agitation and with this mornings events patient with ABG
   7.36/66/131
   -Patient with RSBI of 71 and SBT started this morning
   -He will have extubation with need for intermittent BIPAP following
   extubation given extent of compromise should he meet qualification for
   extubation and he has quite a limited capacity to tolerate non-invasive
   ventilation given his issues of agitation and this concern is a  real
   barrier to safe support of extubation.
   -Steroids have failed to provide a durable response with wean and will
   continue with IV 80mg q 8 hours
   -Atrovent q 6 hours standing
   -B-agonist q 4 hours
   -PRR b-agonist
   -Repeat CT Scan of chest with concern for incapacity to clear
   ventilatory capacities
   -NIF to check today for possible NM weakness that has been
   under-represented to date
   2)Cervical Cord Lesion-
   -MRI reassuring and patient exam stable
   -C-Collar to be D/C
d if able based upon consultant from Neurology
   input.
   3)Altered Mental Status-
   -MRI showed no evidence of parenchymal injury--only chronic small
   vessel ischemia and no diffusion abnormalities to explain persistent
   altered mental status.  Source is not entirely clear
will pursue
   minimization of offending medications.  EEG to evaluate for seizure
   activity
   -Seroquel TID
   -MOve to full exam with extubation when possible
   -MRI reassuring
   -EEG and EMG to evaluate
   -LP to be discussed with neurology to possible alternative causes, MRI
   has been reassuring
   4)Fever--Likely catheter related blood stream in infection but with
   sinusitis suggested overall.
   -Vanco to continue
   -PICC out
   -F/U blood culture sent
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CARDIAC ARREST
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 ALTERATION IN NUTRITION
 ELECTROLYTE & FLUID DISORDER, OTHER
 .H/O RESPIRATORY FAILURE, CHRONIC
 ANXIETY
 HYPERTENSION, BENIGN
   ICU Care
   Nutrition: TF
s and are considering PEG for next week if possible.
   Glycemic Control:
   Lines:
   20 Gauge - [**2104-12-24**] 05:13 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2104-12-26 06:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -switched to CMV for poor performance on PSV
   -Atrovent q6
   NIF-21
   Chest CT- apical emphysema, but no other findings that would explain
   respiratory failure
   -Ortho spine: d/c c-collar
   -14 day course of vanco to end [**1-5**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2104-12-25**] 08:00 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2104-12-25**] 08:10 AM
   Heparin Sodium (Prophylaxis) - [**2104-12-26**] 12:00 AM
   Lorazepam (Ativan) - [**2104-12-26**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-12-26**] 05:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.3
C (99.1
   HR: 80 (80 - 117) bpm
   BP: 112/61(74) {92/57(67) - 185/138(146)} mmHg
   RR: 12 (10 - 38) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.1 kg (admission): 79.4 kg
   Height: 70 Inch
             Total In:
                                                                  2,418 mL
                                                                    628 mL
   PO:
             TF:
                                                                    366 mL
                                                                    376 mL
   IVF:
                                                                  1,822 mL
                                                                    213 mL
   Blood products:
   Total out:
                                                                  1,295 mL
                                                                    220 mL
   Urine:
                                                                  1,295 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,123 mL
                                                                    408 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 360 (284 - 678) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 40
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 73
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.36/66/131/29/9
   NIF: -21 cmH2O
   Ve: 12.8 L/min
   PaO2 / FiO2: 328
   Physical Examination
   GEN: Elderly male, intubated, awake
   HEENT: Pupils minimally asymmetric, but reactive bilaterally, sclera
   anicteric
   NECK: Trachea midline
   COR: RRR, no M/G/R, normal S1 S2, radial pulses +2
   CHEST: Resolved subcutaneous crepitus, symmetric chest expansion
   PULM: Decreased breath sounds bilaterally; end-expiratory wheezing.
    ABD: Soft, NT, ND, hypoactive BS, no HSM appreciated
   EXT: No C/C/E, no palpable cords. Pneumoboots
   NEURO: Negative dolls eyes, spontaneous movements of UE<LE, opens eyes
   to noxious stimuli; sqeezed hand in response to command to do so.
   SKIN: No jaundice, cyanosis, ecchymoses.
   Skin:  No visible rashes.
   Labs / Radiology
   273 K/uL
   9.8 g/dL
   119 mg/dL
   0.7 mg/dL
   29 mEq/L
   4.4 mEq/L
   25 mg/dL
   106 mEq/L
   143 mEq/L
   29.1 %
   8.3 K/uL
        [image002.jpg]
                            [**2104-12-23**]  11:06 AM
                            [**2104-12-23**]  11:36 AM
                            [**2104-12-24**]  02:42 AM
                            [**2104-12-24**]  08:14 AM
                            [**2104-12-24**]  04:44 PM
                            [**2104-12-24**]  09:46 PM
                            [**2104-12-25**]  03:02 AM
                            [**2104-12-25**]  04:50 AM
                            [**2104-12-25**]  10:08 AM
                            [**2104-12-26**]  02:09 AM
   WBC
   7.5
   8.3
   Hct
   23.0
   33
   23.4
   29
   29.1
   Plt
   219
   273
   Cr
   0.6
   0.7
   0.8
   0.8
   0.7
   TCO2
   34
   37
   37
   39
   Glucose
   86
   120
   72
   71
   119
   Other labs: PT / PTT / INR:12.3/23.6/1.0, CK / CKMB /
   Troponin-T:191/11/0.08, ALT / AST:70/50, Alk Phos / T Bili:33/0.3,
   Lactic Acid:1.3 mmol/L, LDH:454 IU/L, Ca++:9.6 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.0 mg/dL
   Assessment and Plan
   64M homeless h/o COPD, asthma, EtOH abuse who intially presented with
   SOB, likely COPD exacerbation, left AMA, now s/p cardiac arrest x 2
   with bilateral CTs removed for PTX.  Extubated and suffering neurologic
   impairment with ?spinal cord compression.
   .
   # SOB/Resp Failure: Patient had been protecting his own airway and was
   reintubated to have MRI studies on evening of [**12-22**].  Was not able to
   be extubated yesterday due to respiratory distress during SBTs.
   Continues to look poorly from a respiratory standpoint despite
   appearing adequately sedated with seroquel.   It is likely his
   underlying lung disease that is keeping him from being extubated at
   this point.  Previously his COPD has been steroid responsive.  Patient
   is 11+ 3 days total of intubation currently.
   - Trend WBC count, fever curve
   - Increase prednisone to 80 mg IV Q8H PO qday for COPD treatment
   - Continue atrovent nebs Q6H and xopenex nebs scheduled Q4H with prn
   Q2H; no albuterol to avoid tachycardia and increased agitation
   - Chest CT to further evaluate lungs and r/o other processes (e.g,
   mycetoma given high dose steroid treatment)
   - Reassess respiratory status this evening to consider SBT again
   tomorrow.
   - Consider BiPAP or Heliox trial once extubated.
   .
   # Cord injury?: MRI scan shows no evidence of epidural abscess or cord
   compression.  There is some cervical spine stenosis at C2-C3 and
   C3-C4.
   - Will discuss MRI results w/ ortho spine to check if okay to clear
   from soft collar
   .
   # Altered Mental Status:
 Reason for altered mental status and
   unresponsiveness remains unclear.  MRI of brain without evidence of
   significant anoxic brain injury or other causes to explain
   encephalopathy.  [**Month (only) 51**] be a result of his critical illness and multiple
   medications that he has received.  Neurology is following.  B12 level
   normal.
   - EMG & repeat EEG studies ordered and pending
   - continue seroquel 25 mg PO TID and 25 mg prn agitation.
   - continue ativan and propofol.
   .
   # Positive Blood Cultures with Coag negative staph: Coag neg Staph in
   bottles from [**12-15**], [**12-17**], and [**12-20**] (1 of 2 bottles).    Neg x 2 on [**12-16**],
   no growth yet on [**2-13**] from [**12-20**] or from [**12-22**] and [**12-23**] blood cultures.
   Sensitivities from [**12-20**] are different from [**12-15**].  PICC line tip removed
   [**12-23**] also growing Coag neg Staph.  Unclear if one or more of these
   represent contamination.  Otherwise afebrile and WBCs are trending
   down.  No vegetations seen on [**12-22**] ECHO.
   - Cont. Vancomycin for 14 day course (start [**12-22**] to end [**1-5**]) and
   continue to check surveillance cultures.
   .
   # PEG placement: Discussed with general surgery.  They are willing to
   place after patient has multiple negative blood cultures while on
   antibiotic therapy.  Consent to be obtained from patient
s son who is
   pursuing guardianship.
   .
   # Acute HCT drop: Stable currently, but stool guaiac +.  Will continue
   to monitor.
   .
   #. Hypertension: On reviewing old records, pt. has a history of HTN and
   was previously discharged from this institution on lisinopril and
   atenolol.  Thus, he likely has HTN at baseline and requires some
   medication for this.
   - Increase Captopril to 12.5 PO TID
   - Holding beta blocker as pt. is bradycardic at times, bronchospastic
   - Nebulizers only prn.
   # Medical decision making:
   - Pursuing conversations with the family
   - Pursing guardianship
 paperwork was given to SW
   # S/P cardiac arrest: Etiologies include pneumothorax, hypoxia,
   hyperkalemia, acidosis, among others. Seizure may have been a component
   of initial arrest given unresponsiveness, abnormal movements, and
   incontinence. Received multiple rounds epi and atropine in the ED, as
   well as 3x shocks. 2^nd arrest am [**12-5**] during cooling protocol.
   Current neoro exam 48 hours from arrest s/p cooling and rewarming with
   minimal reaction however still sedated since becomes tachypneic
   agitated when sedation weaned.  Completed Arctic Sun protocol [**12-6**] and
   rewarmed, off paralytics; Had a head CT without intracranial pathology
   but has fluid in sinuses.
   - Continue supportive care s/p arrest.
   # Sinusitis: Pt
s head CT has fluid in sinuses and has purulent
   drainage L nostril c/w possible sinusitis. Currently afebrile.
   - See treatment above
   # CAD s/p silent myocardial infarction: s/p cardiac arrest and multiple
   shocks.
   - Add ASA
   - Hold B-blocker given intermittent bradycardia, bronchospasm
   - Consider statin.
   .
   # PTSD/bipolar disorder: Appears that he is not on medications as
   outpatient. Per family, has been seen in VA system.
   .
   # History of alcoholic hepatitis: normal on check [**2104-12-4**], slightly
   elevated on repeat but has had episodes hypotension, cardiac arrest.
   .
   # Hyperglycemia: Will place on low level standing glargine and change
   humalog to regular insulin for sliding scale to provide better glycemic
   control.
   .
   # FEN:  Pt. tolerating TFs per nutrition recs. Metabolic alkolosis
   improved after diamox.  Replete electrolytes PRN.
   .
   # Access:  PIV x 2
   # PPx:  Heparin SC TID, bowel regimen, discontinued the H2 blocker to
   filter out any influence on his mental status, without improvement; On
   PPI
   # Code:  FULL presumed
   # Dispo:  MICU
   # Communication:  Spoke with brother [**Name (NI) **] [**Name (NI) 2269**] (Cell [**0-0-**])
   and updated. Closest family member is oldest son [**Name (NI) 3062**].  [**Name2 (NI) 3062**] and
   [**Doctor Last Name **] both in [**Location (un) 3063**].  Social work spoke with [**Doctor Last Name 3062**] who would like to
   make medical decisions and pursue guardianship if necessary.  (see SW
   note).  Guardianship paperwork in progress.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2104-12-26**] 02:17 AM 70 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2104-12-25**] 10:03 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2104-12-26 11:12:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Extensive discussions with patient's son held by myself and the social
   worker involved ([**Doctor Last Name 212**]).  He would describe his father as someone who
   would not want prolonged and chronic care within a facility.  We
   described the current clinical pathway of recurrent decline and failure
   as being one where we will have to consider tracheostomy and PEG tube
   placment for chronic care.  In light of this Mr. [**Known lastname 3596**] son voiced
   concern that this would not be consistent with his father's wishes.
   We will continue to treat fully and allow Mr. [**Known lastname 3596**] family to
   consider goals of care over the next two days and rediscuss based on
   his progress in the interim.
   CT Scan
Patient with CT showing moderate apical emphysema and no
   prominent infiltrates
   EEG performed this morning for further evaluation of altered mental
   status
   History obtained from Medical records
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2104-12-26**] 08:36 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2104-12-26**] 03:00 AM
   Heparin Sodium (Prophylaxis) - [**2104-12-26**] 09:10 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-12-26**] 11:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.3
C (99.1
   HR: 87 (70 - 117) bpm
   BP: 166/104(120) {92/51(61) - 188/118(130)} mmHg
   RR: 17 (10 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.1 kg (admission): 79.4 kg
   Height: 70 Inch
             Total In:
                                                                  2,418 mL
                                                                    995 mL
   PO:
             TF:
                                                                    366 mL
                                                                    412 mL
   IVF:
                                                                  1,822 mL
                                                                    463 mL
   Blood products:
   Total out:
                                                                  1,295 mL
                                                                    530 mL
   Urine:
                                                                  1,295 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,123 mL
                                                                    465 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 369 (360 - 678) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 73
   PIP: 41 cmH2O
   SpO2: 100%
   ABG: 7.47/45/216/29/8
   Ve: 16.1 L/min
   PaO2 / FiO2: 540
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
some increased air movement with time and
   steroid dosing increased yesterday.
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.3 g/dL
   292 K/uL
   119 mg/dL
   0.7 mg/dL
   29 mEq/L
   4.4 mEq/L
   25 mg/dL
   106 mEq/L
   143 mEq/L
   27.4 %
   8.6 K/uL
        [image002.jpg]
                            [**2104-12-24**]  02:42 AM
                            [**2104-12-24**]  08:14 AM
                            [**2104-12-24**]  04:44 PM
                            [**2104-12-24**]  09:46 PM
                            [**2104-12-25**]  03:02 AM
                            [**2104-12-25**]  04:50 AM
                            [**2104-12-25**]  10:08 AM
                            [**2104-12-26**]  02:09 AM
                            [**2104-12-26**]  07:31 AM
                            [**2104-12-26**]  07:45 AM
   WBC
   7.5
   8.3
   8.6
   Hct
   23.4
   29
   29.1
   27.4
   Plt
   [**Telephone/Fax (3) 3597**]
   Cr
   0.6
   0.7
   0.8
   0.8
   0.7
   TCO2
   37
   37
   39
   34
   Glucose
   86
   120
   72
   71
   119
   Other labs: PT / PTT / INR:12.3/23.6/1.0, CK / CKMB /
   Troponin-T:191/11/0.08, ALT / AST:70/50, Alk Phos / T Bili:33/0.3,
   Lactic Acid:1.3 mmol/L, LDH:454 IU/L, Ca++:9.6 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.0 mg/dL
   7.47/45/216
   Assessment and Plan
   64 yo male with admission with respiratory failure and now with
   prolonged course of both altered mental status, bacteremia and
   intermittent respiratory failure.  He has had dynamic hyperinflation
   limiting capacity to tolerate extubation.  This is in the setting of
   renewed maximal efforts at creating control of his airflow obstruction
   and minimize chances of failure of extubation.  He has had reassuring
   findings on MRI scanning noted but will undergo further evaluation with
   neurology and EEG to look to evaluate altered mental status.
   1)Respiratory Failure
Likely a combination of impaired strength and
   background lung disease.
   -Wean to PSV as tolerated
   -Continue with Solumdrol 80mg q 8 hrs
   -Bronchodilators standing
   -Patient to move to trail of extubation as soon as patient able to
   tolerate SBT
   -Mental status, chronic obstructive lung disease, weakness all
   contributing
   -Move to trial of extubation in am following continued trial of
   treatment and optimization of treatment of known barriers.
   -Seroquel to 50mg [**Hospital1 7**]
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 ALTERED MENTAL STATUS (NOT DELIRIUM)-
   -Seroquel
   -EEG today
   -PRN Seroquel
   -MRI reassuring
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CARDIAC ARREST
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 ALTERATION IN NUTRITION
 ELECTROLYTE & FLUID DISORDER, OTHER
 .H/O RESPIRATORY FAILURE, CHRONIC
 ANXIETY
 HYPERTENSION, BENIGN
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2104-12-25**] 10:03 PM
   Prophylaxis:
   DVT: Heparin Sq
   Stress ulcer: Lansoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35

2104-12-27 05:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Pt extubated successfully.
   Pt loss IV access overnight, attempted several peripheral IVs without
   success.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2104-12-26**] 08:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2104-12-26**] 09:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-12-27**] 05:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 94 (70 - 114) bpm
   BP: 115/72(82) {92/51(61) - 212/154(147)} mmHg
   RR: 24 (12 - 41) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 68.6 kg (admission): 79.4 kg
   Height: 70 Inch
                  Total In:
                                                                  1,671 mL
                  PO:
                  TF:
                                                                    412 mL
   IVF:
                                                                  1,139 mL
   Blood products:
   Total out:
                                                                    958 mL
                                                                    135 mL
   Urine:
                                                                    958 mL
                                                                    135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    713 mL
                                                                   -135 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: Standby
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 960 (271 - 960) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 0 cmH2O
   SpO2: 100%
   ABG: 7.42/58/157//11
   Ve: 10 L/min
   PaO2 / FiO2: 393
   Physical Examination
   GEN: Elderly male, intubated, awake
   HEENT: Pupils minimally asymmetric, but reactive bilaterally, sclera
   anicteric
   COR: RRR, no M/G/R, normal S1 S2, radial pulses +2
   PULM: Decreased breath sounds bilaterally; mild  end-expiratory
   wheezing.
    ABD: Soft, NT, ND, hypoactive BS, no HSM appreciated. Pulsatile
   abdominal aorta appreciated.
   EXT: No C/C/E.  Pneumoboots in place
   NEURO: Awake and alert, spontaneous movements of UE<LE, opens eyes to
   noxious stimuli; following simple commands including moving L v R
   legs.
   SKIN: No jaundice, cyanosis, ecchymoses.
   Skin:  No visible rashes.
   Labs / Radiology
   292 K/uL
   9.3 g/dL
   107 mg/dL
   0.7 mg/dL
   29 mEq/L
   4.2 mEq/L
   25 mg/dL
   97 mEq/L
   141 mEq/L
   27.4 %
   8.6 K/uL
        [image002.jpg]
                            [**2104-12-24**]  04:44 PM
                            [**2104-12-24**]  09:46 PM
                            [**2104-12-25**]  03:02 AM
                            [**2104-12-25**]  04:50 AM
                            [**2104-12-25**]  10:08 AM
                            [**2104-12-26**]  02:09 AM
                            [**2104-12-26**]  07:31 AM
                            [**2104-12-26**]  07:45 AM
                            [**2104-12-26**]  03:26 PM
                            [**2104-12-27**]  12:43 AM
   WBC
   8.3
   8.6
   Hct
   29
   29.1
   27.4
   Plt
   273
   292
   Cr
   0.7
   0.8
   0.8
   0.7
   TCO2
   37
   39
   34
   39
   39
   Glucose
   120
   72
   71
   119
   107
   Other labs: PT / PTT / INR:12.3/23.6/1.0, CK / CKMB /
   Troponin-T:191/11/0.08, ALT / AST:70/50, Alk Phos / T Bili:33/0.3,
   Lactic Acid:1.0 mmol/L, LDH:454 IU/L, Ca++:9.6 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.0 mg/dL
   Assessment and Plan
   64M homeless h/o COPD, asthma, EtOH abuse who intially presented with
   SOB, likely COPD exacerbation, left AMA, now s/p cardiac arrest x 2
   with bilateral CTs removed for PTX.  Extubated and suffering neurologic
   impairment with ?spinal cord compression.
   .
   # SOB/Resp Failure: Patient had been protecting his own airway and was
   reintubated to have MRI studies on evening of [**12-22**].  Was not able to
   be extubated yesterday due to respiratory distress during SBTs.
   Continues to look poorly from a respiratory standpoint despite
   appearing adequately sedated with seroquel.  Although it seemed likely
   that underlying lung disease was keeping him from being extubated,
   however the CT did not support this. It may be that he is now becoming
   deconditioned and this is contributing to his respiratory failure.  It
   is also possible that his COPD was steroid dependent and we tapered his
   steroids too quickly.  With increasing his steroids over the last 24
   hours, his air-movement has improved.  Agitation is also likely a
   contributing factorPatient is 11+ 4 days total of intubation currently.
   - Increase prednisone to 80 mg IV Q8H PO qday for COPD treatment
   - Continue atrovent nebs Q6H and xopenex nebs scheduled Q4H with prn
   Q2H; no albuterol to avoid tachycardia and increased agitation
   - SBT today w/ABG before attempting extubation.
   - Consider BiPAP or Heliox immediately following extubation.
   - Trend WBC count, fever curve
   # Cord injury?: MRI scan shows no evidence of epidural abscess or cord
   compression.  There is some cervical spine stenosis at C2-C3 and
   C3-C4.  MRI neg for cord injury.
   - soft collar d/c
   # Altered Mental Status:
 Reason for altered mental status and
   unresponsiveness remains unclear.  MRI of brain without evidence of
   significant anoxic brain injury or other causes to explain
   encephalopathy.  [**Month (only) 51**] be a result of his critical illness and multiple
   medications that he has received.  Neurology is following.  B12 level
   normal.
   - EMG & repeat EEG studies today
   - continue to follow neurology recommendations.
   - increase seroquel to 50 mg PO BID and 25 mg prn agitation.
   - d/c ativan
   # Positive Blood Cultures with Coag negative staph: Coag neg Staph in
   bottles from [**12-15**], [**12-17**], and [**12-20**] (1 of 2 bottles
 2^nd showed no
   growth).    Neg x 2 on [**12-16**], no growth yet on from [**12-22**], [**12-23**], [**12-25**],
   [**12-26**] blood cultures.  Sensitivities from [**12-20**] are different from
   [**12-15**].  PICC line tip removed [**12-23**] also growing Coag neg Staph.
   Unclear if one or more of these represent contamination, although
   culture of IV tip and BCx had matching results.  Otherwise afebrile and
   WBCs are trending down.  No vegetations seen on [**12-22**] ECHO.
   - Cont. Vancomycin for 14 day course (start [**12-22**] to end [**1-5**]) and
   continue to check surveillance cultures.
   # Acute HCT drop: Stable currently, but stool guaiac +.  Will continue
   to monitor.
   .
   #. Hypertension: On reviewing old records, pt. has a history of HTN and
   was previously discharged from this institution on lisinopril and
   atenolol.  Thus, he likely has HTN at baseline and requires some
   medication for this.  HTN also corresponds to agitation.
   - Increase Captopril to 37.5 PO TID
   - Holding beta blocker as pt. is bradycardic at times, bronchospastic
   - No albuterol
   - Control agitation with seroquel
   # CAD s/p silent myocardial infarction: s/p cardiac arrest and multiple
   shocks.
   - Add ASA
   - Hold B-blocker given intermittent bradycardia, bronchospasm
   - Consider statin.
   # Medical decision making:
   - Family to come to see patient and check in with team this weekend.
   - Pursing guardianship
 paperwork was given to SW
   .
   # PEG placement: Discussed with general surgery.  They are willing to
   place after patient has multiple negative blood cultures while on
   antibiotic therapy.  Consent to be obtained from patient
s son who is
   pursuing guardianship.
   .
   # Sinusitis: Pt
s head CT has fluid in sinuses and has purulent
   drainage L nostril c/w possible sinusitis. Currently afebrile.
   - See treatment above
   .
   # PTSD/bipolar disorder: Appears that he is not on medications as
   outpatient. Per family, has been seen in VA system.
   - psych to see once patient extubated, able to better communicate.
   # Hyperglycemia: Patient with BG 133-170 currently.
   -on low level standing glargine and regular insulin with sliding scale
   .
   # FEN:  Pt. tolerating TFs per nutrition recs. Metabolic alkolosis
   improved after diamox.  Replete electrolytes PRN.
   .
   # Access:  PIV x 2. Needs picc  but had positive blood cultures and was
   febrile.
   - call Picc team tomorrow if patient remains afebrile and no additional
   blood cultures become positive.
   # PPx:  Heparin SC TID, bowel regimen, On PPI
   # Code:  FULL presumed
   # Dispo:  MICU
   # Communication:  Brother = [**Name (NI) **] [**Name (NI) 2269**] (Cell [**0-0-**]). Closest
   family member is oldest son [**Name (NI) 3062**].  [**Name2 (NI) 3062**] and [**Doctor Last Name **] both in [**Location (un) 3063**].
   Social work spoke with [**Doctor Last Name 3062**] who would like to make medical decisions
   and pursue guardianship if necessary.  (see SW note).  Guardianship
   paperwork in progress.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2104-12-27 11:39:00 Physician Attending Progress Note
Chief Complaint: resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Extubated last night- doing well overnight
   Lost IV access overnight
   Single positive blood cx this AM - cannot get PICC for now
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2104-12-26**] 08:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2104-12-27**] 08:35 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-12-27**] 11:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.4
C (97.6
   HR: 85 (79 - 114) bpm
   BP: 109/67(76) {109/61(73) - 212/154(147)} mmHg
   RR: 16 (16 - 41) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.6 kg (admission): 79.4 kg
   Height: 70 Inch
                  Total In:
                                                                  1,671 mL
                                                                     60 mL
   PO:
                  TF:
                                                                    412 mL
   IVF:
                                                                  1,139 mL
   Blood products:
   Total out:
                                                                    958 mL
                                                                    265 mL
   Urine:
                                                                    958 mL
                                                                    265 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    713 mL
                                                                   -205 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: Standby
   Vt (Spontaneous): 960 (271 - 960) mL
   PS : 5 cmH2O
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 0 cmH2O
   SpO2: 99%
   ABG: 7.42/58/157//11
   Ve: 10 L/min
   PaO2 / FiO2: 393
   Physical Examination
   Gen: lying in bed, EEG leads in place, awake, not following commands
   Eyes / Conjunctiva: PERRL
   Cardiovascular: RR
   Respiratory / Chest: (Breath Sounds: Diminished, abd expiratory
   rounding
   Abd: soft NT
   Ext: no edema
   Skin:  warm
   Neurologic: moving spontaneously, dose not follow any commands,
   Labs / Radiology
   9.3 g/dL
   292 K/uL
   107 mg/dL
   0.7 mg/dL
   29 mEq/L
   4.2 mEq/L
   25 mg/dL
   97 mEq/L
   141 mEq/L
   27.4 %
   8.6 K/uL
        [image002.jpg]
                            [**2104-12-24**]  04:44 PM
                            [**2104-12-24**]  09:46 PM
                            [**2104-12-25**]  03:02 AM
                            [**2104-12-25**]  04:50 AM
                            [**2104-12-25**]  10:08 AM
                            [**2104-12-26**]  02:09 AM
                            [**2104-12-26**]  07:31 AM
                            [**2104-12-26**]  07:45 AM
                            [**2104-12-26**]  03:26 PM
                            [**2104-12-27**]  12:43 AM
   WBC
   8.3
   8.6
   Hct
   29
   29.1
   27.4
   Plt
   273
   292
   Cr
   0.7
   0.8
   0.8
   0.7
   TCO2
   37
   39
   34
   39
   39
   Glucose
   120
   72
   71
   119
   107
   Other labs: PT / PTT / INR:12.3/23.6/1.0, CK / CKMB /
   Troponin-T:191/11/0.08, ALT / AST:70/50, Alk Phos / T Bili:33/0.3,
   Lactic Acid:1.0 mmol/L, LDH:454 IU/L, Ca++:9.6 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.0 mg/dL
   Assessment and Plan
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CARDIAC ARREST
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 ALTERATION IN NUTRITION
 ELECTROLYTE & FLUID DISORDER, OTHER
 .H/O RESPIRATORY FAILURE, CHRONIC
 ANXIETY
 HYPERTENSION, BENIGN
   64 yo male with admission with respiratory failure and now with
   prolonged course of both altered mental status, bacteremia and
   intermittent respiratory failure.  He has had dynamic hyperinflation
   limiting capacity to tolerate extubation. He has had reassuring
   findings on MRI scanning noted but will undergo further evaluation with
   neurology and EEG to look to evaluate altered mental status.
   1)Respiratory Failure
Likely a combination of impaired strength and
   background lung disease. Extubated yesterday, is holding his own with
   adequate oxygenation and ventilation -Continue with Solumedrol 80mg q 8
   hrs -Bronchodilators standing
 ALTERED MENTAL STATUS (NOT DELIRIUM)-
   -Seroquel
   -EEG today
 speak with Neuro on [**Initials (NamePattern4) **] [**Last Name (NamePattern4) **]
   -MRI reassuring
   Repeat + Blood Cx: GPCs- await sensi but likely coag neg staph
   Lost access: try for PIV, if unable needs CVL (may have to be fem as he
   cannot lie flat)
   ICU Care
   Nutrition: tube feeds
   Glycemic Control:
   Lines: none
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: ppi
   Communication:  brother to come in today
   Code status: Full code
   Disposition :ICU
   ------ Protected Section ------
   MICU Attg addendum
   Did not address crit care or time in aboive note.
   He is criticall Ill
   Pt with tenuous respiratory status so needs to remin in ICU for close
   monitoring, serial ABG, and possible need for NIPPV but may not
   tolerate and in that event would only trial for 30 min then proceed to
   repeat iintubation.
   Crit Car time: 35 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 90**] [**Last Name (NamePattern1) 385**], MD
   on:[**2104-12-27**] 17:54 ------

2104-12-28 06:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2104-12-27**] 09:45 PM
   peripheral access obtained
   discussion with brother
   need to contact [**Name (NI) 212**] [**Name (NI) 3091**] or [**First Name8 (NamePattern2) 670**] [**Name (NI) **] so that relatives can
   connect w/the social worker to go over guardian paperwork/procedures.
   EMG with sensorimotor polyneuropathy, mostly axonal but some
   demyelination
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2104-12-27**] 08:08 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2104-12-27**] 08:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-12-28**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.3
C (97.4
   HR: 132 (81 - 134) bpm
   BP: 223/81(118) {107/61(73) - 223/119(130)} mmHg
   RR: 34 (16 - 54) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 68.6 kg (admission): 79.4 kg
   Height: 70 Inch
             Total In:
                                                                  1,124 mL
                                                                    534 mL
   PO:
             TF:
                                                                    661 mL
                                                                    467 mL
   IVF:
                                                                    253 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                    805 mL
                                                                    380 mL
   Urine:
                                                                    805 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    319 mL
                                                                    154 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: Standby
   Vt (Spontaneous): 960 (960 - 960) mL
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 0 cmH2O
   SpO2: 97%
   ABG: ///36/
   Physical Examination
   GEN: Elderly male, intubated, awake
   HEENT: Pupils minimally asymmetric, but reactive bilaterally, sclera
   anicteric
   COR: RRR, no M/G/R, normal S1 S2, radial pulses +2
   PULM: Decreased breath sounds bilaterally; prolonged expiratory phase,
   mild  end-expiratory wheezing.
    ABD: Soft, NT, ND, hypoactive BS, no HSM appreciated.
   EXT: No C/C/E.  Pneumoboots in place
   NEURO: Awake and alert, spontaneous movements of UE<LE, opens eyes
   spontaneously; following simple commands including moving L v R legs.
   SKIN: No jaundice, cyanosis, ecchymosis.
   Skin:  No visible rashes.
   Labs / Radiology
   295 K/uL
   9.5 g/dL
   142 mg/dL
   0.8 mg/dL
   36 mEq/L
   3.9 mEq/L
   27 mg/dL
   104 mEq/L
   145 mEq/L
   27.4 %
   8.2 K/uL
        [image002.jpg]
                            [**2104-12-24**]  09:46 PM
                            [**2104-12-25**]  03:02 AM
                            [**2104-12-25**]  04:50 AM
                            [**2104-12-25**]  10:08 AM
                            [**2104-12-26**]  02:09 AM
                            [**2104-12-26**]  07:31 AM
                            [**2104-12-26**]  07:45 AM
                            [**2104-12-26**]  03:26 PM
                            [**2104-12-27**]  12:43 AM
                            [**2104-12-27**]  08:37 PM
   WBC
   8.3
   8.6
   8.2
   Hct
   29
   29.1
   27.4
   27.4
   Plt
   273
   292
   295
   Cr
   0.8
   0.8
   0.7
   0.8
   TCO2
   37
   39
   34
   39
   39
   Glucose
   72
   71
   119
   107
   142
   Other labs: Ca++:9.8 mg/dL, Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   64M homeless h/o COPD, asthma, EtOH abuse who intially presented with
   SOB, likely COPD exacerbation, left AMA, now s/p cardiac arrest x 2
   with bilateral CTs removed for PTX.  Extubated and suffering continued
   depressed mental status
   .
   # Positive Blood Cultures with Coag negative staph: Coag neg Staph in
   bottles from [**12-15**], [**12-17**], [**12-20**] (1 of 2 bottles
 2^nd showed no growth),
   and [**12-26**].    Neg x 2 on [**12-16**], no growth yet on from [**12-22**], [**12-23**],
   [**12-25**] blood cultures.  Sensitivities from [**12-20**] are different from
   [**12-15**].  PICC line tip removed [**12-23**] also growing Coag neg Staph.
   Unclear if one or more of these represent contamination, although
   culture of IV tip and BCx had matching results, so unlikely that result
   is contaminate.  Throughout, patient has been afebrile. No vegetations
   seen on [**12-22**] ECHO.
   -          Cont. Vancomycin, restart 14 day course based on [**12-26**] BCx
   -          Continue to check surveillance cultures.
   -          TEE for tomorrow
   # SOB/Resp Failure: Patient had been protecting his own airway and was
   reintubated to have MRI studies on evening of [**12-22**].  He was
   successfully extubated [**12-26**] in the afternoon, with a good follow-up
   ABG.
   - Continue prednisone to 80 mg IV Q8H PO qday for COPD treatment
   - Continue atrovent nebs Q6H and xopenex nebs scheduled Q4H with prn
   Q2H; no albuterol to avoid tachycardia and increased agitation
   - Consider BiPAP if it appears patient may need re-intubation
   - ABG if tachypnic
   # Altered Mental Status:
 Reason for altered mental status and
   unresponsiveness remains unclear.  MRI of brain without evidence of
   significant anoxic brain injury or other causes to explain
   encephalopathy.  [**Month (only) 51**] be a result of his critical illness and multiple
   medications that he has received.  Neurology is following.  B12 level
   normal.   Per family, pt. has bipolar disorder and has not taken
   medications that he was previously prescribed.
   - f/u EEG, EMG
   - continue to follow neurology recommendations.
   - increased seroquel to 75 mg PO BID and 25 mg prn agitation.
   - psych consult on [**12-29**]
   # Anemia: Stable currently, but Hx stool guaiac +.
   -trend Hct
   -re-check stool FOB if Hct acutely drops
   - patient on PPI
   -transfuse if Hct <21 or patient symptomatic.
   #Hypertension: On reviewing old records, pt. has a history of HTN and
   was previously discharged from this institution on lisinopril and
   atenolol.  Thus, he likely has HTN at baseline and requires some
   medication for this.  HTN also corresponds to agitation.   Continue
   Captopril at 37.5 PO TID as his HTN is improved today.
   - Holding beta blocker as pt. is bradycardic at times, bronchospastic
   - No albuterol
   - Control agitation with seroquel
   # CAD s/p silent myocardial infarction: s/p cardiac arrest and multiple
   shocks.
   - Add ASA
   - Hold B-blocker given intermittent bradycardia, bronchospasm
   - Consider statin.
   # Medical decision making:
   - Family (brother & son) visited patient this weekend and were
   encouraged by his progress.  They will try to have family visiting to
   help orient patient and provide a familiar face.
   - Pursing guardianship
 paperwork was given to SW; waiting for son to
   return paperwork to SW
   - okay with PEG placement if deemed medically necessary.
   ([**Location (un) 2991**], NY ~10 months ago & [**Location (un) 3637**], GA ~ 3 yrs ago).
   .
   # PEG placement: Discussed with general surgery.  They are willing to
   place after patient has multiple negative blood cultures while on
   antibiotic therapy.  Consent to be obtained from patient
s son who is
   pursuing guardianship.
   .
   # PTSD/bipolar disorder: Appears that he is not on medications as
   outpatient. Per family, has been seen in VA system.
   - psych to see once patient extubated, able to better communicate.
   .
   # Hyperglycemia: Patient with BG 133-170 currently.
   -on low level standing glargine and regular insulin with sliding scale
   .
   # FEN:  Pt. tolerating TFs per nutrition recs. Metabolic alkolosis
   improved after diamox.  Replete electrolytes PRN.
   .
   # Access:  No access currently and patient in need of Vancomycin,
   Steroids. Want to avoid central venous line b/c of positive blood
   cultures.
   - nurses will try for peripheral IV placement today -> if unable will
   call anesthesia -> if unable will try u/s guided -> if unable will
   place femoral line.
   # PPx:  Heparin SC TID, bowel regimen, On PPI
   # Code:  FULL code, confirmed with brother & son, will revisit if
   status deteriorates.
   # Dispo:  MICU
   # Communication:  Brother = [**Name (NI) **] [**Name (NI) 2269**] (Cell [**0-0-**]). Closest
   family member is oldest son [**Name (NI) 3062**].  [**Name2 (NI) 3062**] and [**Doctor Last Name **] both in [**Location (un) 3063**].
   Social work spoke with [**Doctor Last Name 3062**] who would like to make medical decisions
   and pursue guardianship if necessary.  (see SW note).  Guardianship
   paperwork in progress.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2104-12-28**] 12:32 AM 70 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2104-12-27**] 06:49 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2104-12-28 11:33:00 Physician Attending Progress Note
Chief Complaint: respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2104-12-27**] 09:45 PM
   2 PIV placed -
   Agitation overnight which was responsive to Seroqeul
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2104-12-28**] 08:10 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2104-12-28**] 08:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea, Tachypnea
   Flowsheet Data as of  [**2104-12-28**] 11:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.8
   HR: 91 (81 - 134) bpm
   BP: 109/60(71) {104/56(66) - 223/119(130)} mmHg
   RR: 17 (17 - 54) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.6 kg (admission): 79.4 kg
   Height: 70 Inch
             Total In:
                                                                  1,124 mL
                                                                  1,182 mL
   PO:
             TF:
                                                                    661 mL
                                                                    807 mL
   IVF:
                                                                    253 mL
                                                                    315 mL
   Blood products:
   Total out:
                                                                    805 mL
                                                                    600 mL
   Urine:
                                                                    805 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    319 mL
                                                                    582 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: Standby
   Vt (Spontaneous): 960 (960 - 960) mL
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 0 cmH2O
   SpO2: 98%
   ABG: ///36/
   Physical Examination
   Gen: lying in bed, , awake, not following commands
   Eyes / Conjunctiva: PERRL
   Cardiovascular: RR
   Respiratory / Chest: (Breath Sounds: Diminished, abd expiratory
   rounding but less so than yesterday
   Abd: soft NT + BS
   Ext: no edema
   Skin:  warm
   Neurologic: moving spontaneously, dose not follow any commands, but
   orients to voice
   Labs / Radiology
   9.5 g/dL
   295 K/uL
   120
   0.8 mg/dL
   36 mEq/L
   3.9 mEq/L
   27 mg/dL
   104 mEq/L
   145 mEq/L
   27.4 %
   8.2 K/uL
        [image002.jpg]
                            [**2104-12-25**]  03:02 AM
                            [**2104-12-25**]  04:50 AM
                            [**2104-12-25**]  10:08 AM
                            [**2104-12-26**]  02:09 AM
                            [**2104-12-26**]  07:31 AM
                            [**2104-12-26**]  07:45 AM
                            [**2104-12-26**]  03:26 PM
                            [**2104-12-27**]  12:43 AM
                            [**2104-12-27**]  08:37 PM
                            [**2104-12-28**]  04:00 AM
   WBC
   8.3
   8.6
   8.2
   Hct
   29.1
   27.4
   27.4
   Plt
   273
   292
   295
   Cr
   0.8
   0.8
   0.7
   0.8
   TCO2
   39
   34
   39
   39
   Glucose
   72
   71
   119
   107
   142
   120
   Other labs: PT / PTT / INR:12.3/23.6/1.0, CK / CKMB /
   Troponin-T:191/11/0.08, ALT / AST:70/50, Alk Phos / T Bili:33/0.3,
   Lactic Acid:1.0 mmol/L, LDH:454 IU/L, Ca++:9.8 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.5 mg/dL
   Assessment and Plan
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CARDIAC ARREST
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 ALTERATION IN NUTRITION
 ELECTROLYTE & FLUID DISORDER, OTHER
 .H/O RESPIRATORY FAILURE, CHRONIC
 ANXIETY
 HYPERTENSION, BENIGN
   64 yo male with admission with respiratory failure and now with
   prolonged course of both altered mental status, bacteremia and
   intermittent respiratory failure.  He has had reassuring findings on
   MRI scanning noted but will undergo further evaluation with neurology
   and EEG to look to evaluate altered mental status.
   1)Respiratory Failure
 Extubated x 48 hrs and he is holding his own
   with adequate oxygenation and ventilation. Does have period agitation
   with tahcynea breath stcaking and distress but resolves either on its
   own or with anti psychotics.
   Continue with Solumedrol 80mg q 8 hrs but would favor convert to po by
   AM.  -Bronchodilators standing. Cpould need NIPPV again if does not
   respond.
   2) ALTERED MENTAL STATUS (NOT DELIRIUM)- DDX underlying psych disorder,
   ICU delirium and possible anoxia.
   -Seroquel for agitation. Avoid other sedating meds.
   -EEG complete
 speak with Neuro on [**Initials (NamePattern4) **] [**Last Name (NamePattern4) **]
   -MRI reassuring
   3) Bacteremia: Repeat + Blood Cx: recurrent GPC in blood. TTE negative
   but may need TEE and spine MRI to rule out epidural abscess. Must
   weightlikely   need for reintubation to get these invasive procedures
   versus repeat TEE and empiric ABX
 will continue ABX for now but if
   another + cx, needs to be readdressed. Repeat Echo in AM
   Remaining issues as per Housestaff notes
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2104-12-28**] 12:32 AM 70 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2104-12-27**] 06:49 PM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: ppi
   Communication:  with son and brother, SW in to se this AM, guardianship
   paperwork is in progress
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2104-12-29 06:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2104-12-29**] 04:08 AM
   - Family at bedside, pt. recognized them & spoke; full code confirmed;
   okay to place PEG if necessary
   - increased insulin sliding scale
   - consider tapering steroids?
   - Repeat TTE requested
   - Psych eval for bipolar treatment?
   - VA [**Location (un) 2991**] records obtained
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2104-12-28**] 08:05 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2104-12-29**] 12:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-12-29**] 06:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.6
C (97.8
   HR: 113 (90 - 120) bpm
   BP: 166/97(110) {104/56(66) - 209/123(132)} mmHg
   RR: 18 (17 - 35) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 68.6 kg (admission): 79.4 kg
   Height: 70 Inch
             Total In:
                                                                  2,590 mL
                                                                    492 mL
   PO:
             TF:
                                                                  1,680 mL
                                                                    431 mL
   IVF:
                                                                    640 mL
                                                                     62 mL
   Blood products:
   Total out:
                                                                  1,260 mL
                                                                    470 mL
   Urine:
                                                                  1,260 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,330 mL
                                                                     22 mL
   Respiratory support
   SpO2: 100%
   ABG: ///36/
   Physical Examination
   GEN: Elderly male, intubated, awake
   HEENT: Pupils minimally asymmetric, but reactive bilaterally, sclera
   anicteric
   COR: RRR, no M/G/R, normal S1 S2, radial pulses +2
   PULM: Decreased breath sounds bilaterally; prolonged expiratory phase,
   mild  end-expiratory wheezing.
    ABD: Soft, NT, ND, hypoactive BS, no HSM appreciated.
   EXT: No C/C/E.  Pneumoboots in place
   NEURO: Awake and alert, spontaneous movements of UE<LE, opens eyes
   spontaneously; following simple commands including moving L v R legs.
   SKIN: No jaundice, cyanosis, ecchymosis.
   Skin:  No visible rashes.
   Labs / Radiology
   298 K/uL
   9.4 g/dL
   110 mg/dL
   0.7 mg/dL
   36 mEq/L
   4.3 mEq/L
   26 mg/dL
   103 mEq/L
   143 mEq/L
   27.5 %
   9.6 K/uL
        [image002.jpg]
                            [**2104-12-25**]  04:50 AM
                            [**2104-12-25**]  10:08 AM
                            [**2104-12-26**]  02:09 AM
                            [**2104-12-26**]  07:31 AM
                            [**2104-12-26**]  07:45 AM
                            [**2104-12-26**]  03:26 PM
                            [**2104-12-27**]  12:43 AM
                            [**2104-12-27**]  08:37 PM
                            [**2104-12-28**]  04:00 AM
                            [**2104-12-29**]  03:12 AM
   WBC
   8.3
   8.6
   8.2
   9.6
   Hct
   29.1
   27.4
   27.4
   27.5
   Plt
   273
   292
   295
   298
   Cr
   0.8
   0.7
   0.8
   0.7
   TCO2
   39
   34
   39
   39
   Glucose
   71
   119
   107
   142
   120
   110
   Other labs: PT / PTT / INR:12.3/23.6/1.0, CK / CKMB /
   Troponin-T:191/11/0.08, ALT / AST:70/50, Alk Phos / T Bili:33/0.3,
   Lactic Acid:1.0 mmol/L, LDH:454 IU/L, Ca++:9.7 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.4 mg/dL
   Assessment and Plan
   64M homeless h/o COPD, asthma, EtOH abuse who intially presented with
   SOB, likely COPD exacerbation, left AMA, now s/p cardiac arrest x 2
   with bilateral CTs removed for PTX.  Extubated and suffering continued
   depressed mental status
   .
   # Positive Blood Cultures with Coag negative staph: Coag neg Staph in
   bottles from [**12-15**], [**12-17**], [**12-20**] (1 of 2 bottles
 2^nd showed no growth),
   and [**12-26**].    Neg x 2 on [**12-16**], no growth yet on from [**12-22**], [**12-23**],
   [**12-25**] blood cultures.  Sensitivities from [**12-20**] are different from
   [**12-15**].  PICC line tip removed [**12-23**] also growing Coag neg Staph.
   Unclear if one or more of these represent contamination, although
   culture of IV tip and BCx had matching results, so unlikely that result
   is contaminate.  Throughout, patient has been afebrile. No vegetations
   seen on [**12-22**] ECHO.
   -          Cont. Vancomycin, restart 14 day course based on [**12-26**] BCx
   -          Continue to check surveillance cultures.
   -          TEE for tomorrow
   # SOB/Resp Failure: Patient had been protecting his own airway and was
   reintubated to have MRI studies on evening of [**12-22**].  He was
   successfully extubated [**12-26**] in the afternoon, with a good follow-up
   ABG.
   - Continue prednisone to 80 mg IV Q8H PO qday for COPD treatment
   - Continue atrovent nebs Q6H and xopenex nebs scheduled Q4H with prn
   Q2H; no albuterol to avoid tachycardia and increased agitation
   - Consider BiPAP if it appears patient may need re-intubation
   - ABG if tachypnic
   # Altered Mental Status:
 Reason for altered mental status and
   unresponsiveness remains unclear.  MRI of brain without evidence of
   significant anoxic brain injury or other causes to explain
   encephalopathy.  [**Month (only) 51**] be a result of his critical illness and multiple
   medications that he has received.  Neurology is following.  B12 level
   normal.   Per family, pt. has bipolar disorder and has not taken
   medications that he was previously prescribed.
   - f/u EEG, EMG
   - continue to follow neurology recommendations.
   - increased seroquel to 75 mg PO BID and 25 mg prn agitation.
   - psych consult on [**12-29**]
   # Anemia: Stable currently, but Hx stool guaiac +.
   -trend Hct
   -re-check stool FOB if Hct acutely drops
   - patient on PPI
   -transfuse if Hct <21 or patient symptomatic.
   #Hypertension: On reviewing old records, pt. has a history of HTN and
   was previously discharged from this institution on lisinopril and
   atenolol.  Thus, he likely has HTN at baseline and requires some
   medication for this.  HTN also corresponds to agitation.   Continue
   Captopril at 37.5 PO TID as his HTN is improved today.
   - Holding beta blocker as pt. is bradycardic at times, bronchospastic
   - No albuterol
   - Control agitation with seroquel
   # CAD s/p silent myocardial infarction: s/p cardiac arrest and multiple
   shocks.
   - Add ASA
   - Hold B-blocker given intermittent bradycardia, bronchospasm
   - Consider statin.
   # Medical decision making:
   - Family (brother & son) visited patient this weekend and were
   encouraged by his progress.  They will try to have family visiting to
   help orient patient and provide a familiar face.
   - Pursing guardianship
 paperwork was given to SW; waiting for son to
   return paperwork to SW
   - okay with PEG placement if deemed medically necessary.
   ([**Location (un) 2991**], NY ~10 months ago & [**Location (un) 3637**], GA ~ 3 yrs ago).
   .
   # PEG placement: Discussed with general surgery.  They are willing to
   place after patient has multiple negative blood cultures while on
   antibiotic therapy.  Consent to be obtained from patient
s son who is
   pursuing guardianship.
   .
   # PTSD/bipolar disorder: Appears that he is not on medications as
   outpatient. Per family, has been seen in VA system.
   - psych to see once patient extubated, able to better communicate.
   .
   # Hyperglycemia: Patient with BG 133-170 currently.
   -on low level standing glargine and regular insulin with sliding scale
   .
   # FEN:  Pt. tolerating TFs per nutrition recs. Metabolic alkolosis
   improved after diamox.  Replete electrolytes PRN.
   .
   # Access:  No access currently and patient in need of Vancomycin,
   Steroids. Want to avoid central venous line b/c of positive blood
   cultures.
   - nurses will try for peripheral IV placement today -> if unable will
   call anesthesia -> if unable will try u/s guided -> if unable will
   place femoral line.
   # PPx:  Heparin SC TID, bowel regimen, On PPI
   # Code:  FULL code, confirmed with brother & son, will revisit if
   status deteriorates.
   # Dispo:  MICU
   # Communication:  Brother = [**Name (NI) **] [**Name (NI) 2269**] (Cell [**0-0-**]). Closest
   family member is oldest son [**Name (NI) 3062**].  [**Name2 (NI) 3062**] and [**Doctor Last Name **] both in [**Location (un) 3063**].
   Social work spoke with [**Doctor Last Name 3062**] who would like to make medical decisions
   and pursue guardianship if necessary.  (see SW note).  Guardianship
   paperwork in progress.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2104-12-29**] 04:07 AM 70 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2104-12-27**] 06:49 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2104-12-29 11:30:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient family in for discussions
   Full Code status confirmed
   Paitent with extubation status maintained
   Patient with persistent bactermia
   24 Hour Events:
 BLOOD CULTURED - At [**2104-12-29**] 04:08 AM
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2104-12-29**] 08:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2104-12-29**] 08:05 AM
   Heparin Sodium (Prophylaxis) - [**2104-12-29**] 08:05 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-12-29**] 11:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.7
C (98.1
   HR: 103 (85 - 120) bpm
   BP: 171/95(112) {122/66(79) - 191/123(132)} mmHg
   RR: 18 (17 - 27) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 68.6 kg (admission): 79.4 kg
   Height: 70 Inch
             Total In:
                                                                  2,590 mL
                                                                  1,281 mL
   PO:
             TF:
                                                                  1,680 mL
                                                                    788 mL
   IVF:
                                                                    640 mL
                                                                    313 mL
   Blood products:
   Total out:
                                                                  1,260 mL
                                                                    695 mL
   Urine:
                                                                  1,260 mL
                                                                    695 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,330 mL
                                                                    587 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///36/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   298 K/uL
   110 mg/dL
   0.7 mg/dL
   36 mEq/L
   4.3 mEq/L
   26 mg/dL
   103 mEq/L
   143 mEq/L
   27.5 %
   9.6 K/uL
        [image002.jpg]
                            [**2104-12-25**]  04:50 AM
                            [**2104-12-25**]  10:08 AM
                            [**2104-12-26**]  02:09 AM
                            [**2104-12-26**]  07:31 AM
                            [**2104-12-26**]  07:45 AM
                            [**2104-12-26**]  03:26 PM
                            [**2104-12-27**]  12:43 AM
                            [**2104-12-27**]  08:37 PM
                            [**2104-12-28**]  04:00 AM
                            [**2104-12-29**]  03:12 AM
   WBC
   8.3
   8.6
   8.2
   9.6
   Hct
   29.1
   27.4
   27.4
   27.5
   Plt
   273
   292
   295
   298
   Cr
   0.8
   0.7
   0.8
   0.7
   TCO2
   39
   34
   39
   39
   Glucose
   71
   119
   107
   142
   120
   110
   Other labs: PT / PTT / INR:12.3/23.6/1.0, CK / CKMB /
   Troponin-T:191/11/0.08, ALT / AST:70/50, Alk Phos / T Bili:33/0.3,
   Lactic Acid:1.0 mmol/L, LDH:454 IU/L, Ca++:9.7 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.4 mg/dL
   Imaging: EMG--moderately severe polyneuropathy with no generalized
   myopathy
   EEG-Report= pending
   ECHO-Pending from today
   Microbiology: C. Diff Neg x2
   Assessment and Plan
   64 yo male with history of COPD now with persistent respiratory failure
   as issue with continued need for close support of weaning.  This has
   been excellent progress in terms of his respiratory failure in the
   setting of significant lung disease.  Patient actually having meaninful
   resposne to quesitons in regards to place and time.
   Respiratory Failure-Patient extubated over weekend and maintaining
   stable status post extubation largely attributable to improved
   bronchospasm, improved volume status, decreased agitation and
   persistent bronchodilator therapy.
   -Wean O2 as tolerated
   -Continue with bronchodilators
   -Solumedrol to wean via
Predisone taper
   Sepsis-Bacteremia persists with unclear source-
   -[**Name (NI) 3667**]
   -Keep peripheral IV if possible
   -Continue with Vancomycin
   -C-spine imaged, exam reassuring to date with patient extubated
   -Follow neuro exam
   -Will need TEE follow up and final read
   Altered Mental Status-
   -Seroquel used to good effect with standing dosing increased
   -Will need continued PT to improve patient status
   -Will confer with neurology about dosing of medications
   -Will need emergency guardianship as his care goes forward
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CARDIAC ARREST
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 ALTERATION IN NUTRITION
 ELECTROLYTE & FLUID DISORDER, OTHER
 .H/O RESPIRATORY FAILURE, CHRONIC
 ANXIETY
 HYPERTENSION, BENIGN
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2104-12-29**] 04:07 AM 70 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2104-12-27**] 06:49 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2104-12-30 06:20:00 Physician Attending Progress Note
TITLE:  RESIDENT NOTE
   Chief Complaint: agitation, respiratory distress
   24 Hour Events:
          TRANSTHORACIC ECHO Negative for vegitations
          bilateral upper/lower extremities U/S: negative for DVT
          Psych consuled - recommended continuing with Seroquel -
   increased to 100 [**Hospital1 7**], then 150 [**Hospital1 7**] for today
          Has been getting PRN doses overnight, also tried some Ativan
   but settled down with nebs
          EEG - prelim read negative
          BCx sensitivity shows sensitive to vancomycin
   Allergies:
   No Known Drug Allergies
   Antibiotics:
   Vancomycin
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2104-12-29**] 08:05 AM
   Heparin Sodium (Prophylaxis) - [**2104-12-29**] 04:18 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-12-30**] 06:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.4
   HR: 86 (85 - 146) bpm
   BP: 103/69(77) {103/66(74) - 191/111(126)} mmHg
   RR: 15 (15 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.6 kg (admission): 79.4 kg
   Height: 70 Inch
             Total In:
                                                                  2,913 mL
                                                                    644 mL
   PO:
             TF:
                                                                  1,683 mL
                                                                    432 mL
   IVF:
                                                                    740 mL
                                                                     62 mL
   Blood products:
   Total out:
                                                                  1,395 mL
                                                                    410 mL
   Urine:
                                                                  1,395 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,518 mL
                                                                    235 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG:
   Physical Examination
   GEN: Elderly male, awake, following commands and responding to
   questions
   HEENT: Pupils minimally asymmetric, but reactive bilaterally, sclera
   anicteric
   COR: RRR, no M/G/R, normal S1 S2, radial pulses +2
   PULM: Decreased breath sounds b/l
   ABD: Soft, NT, ND, normal BS, no HSM appreciated.
   EXT: No C/C/E.  R femoral artery w/more prominent pulse, bruit
   auscultated.
   NEURO: Awake and alert, spontaneous movements of UE<LE, opens eyes
   spontaneously; following simple commands including moving L v R legs.
   Answers questions occasionally.
   SKIN: No jaundice, cyanosis, ecchymosis.
   Skin:  No visible rashes.
   Labs / Radiology
   9.3 g/dL
   344 K/uL
   107 mg/dL
   0.8 mg/dL
   36 mEq/L
   4.5 mEq/L
   29 mg/dL
   105 mEq/L
   147 mEq/L
   28.6 %
   8.3 K/uL
        [image002.jpg]
                            [**2104-12-25**]  10:08 AM
                            [**2104-12-26**]  02:09 AM
                            [**2104-12-26**]  07:31 AM
                            [**2104-12-26**]  07:45 AM
                            [**2104-12-26**]  03:26 PM
                            [**2104-12-27**]  12:43 AM
                            [**2104-12-27**]  08:37 PM
                            [**2104-12-28**]  04:00 AM
                            [**2104-12-29**]  03:12 AM
                            [**2104-12-30**]  04:25 AM
   WBC
   8.6
   8.2
   9.6
   8.3
   Hct
   27.4
   27.4
   27.5
   28.6
   Plt
   292
   295
   298
   344
   Cr
   0.7
   0.8
   0.7
   0.8
   TCO2
   39
   34
   39
   39
   Glucose
   119
   107
   142
   120
   110
   107
   Other labs:
   Micro: [**12-27**]. [**12-26**] BCx w/coag negative staph: 2 different organisms in
   the [**12-26**] culture. Sensitive to vancomycin
   TTE: RV slightly larger than in [**12-22**], mild LVH, normal EF, no
   vegitations
   UE/LE u/s: no DVTs
   EMG: moderate/severe chronic generalized sensorimotor polyneuropathy,
   primarly axonal. R elbow ulnar neuropathy.
   Assessment and Plan
   64M homeless man w h/o COPD, asthma, EtOH abuse who intially presented
   with SOB, likely COPD exacerbation, left AMA, now s/p cardiac arrest x
   2 with bilateral CTs removed for PTX.  Chest tube removed, pt
   extubated, mental status is depressed but seems to be improving.
   .
   #1 Positive Blood Cultures with Coag negative staph: Now cultures
   growing GPCs [**2104-12-27**].  Coag neg Staph in bottles from [**12-15**], [**12-17**], [**12-20**]
   (1 of 2 bottles
 2^nd showed no growth), and [**12-26**].    Neg x 2 on
   [**12-16**], no growth yet on from [**12-22**], [**12-23**], [**12-25**] blood cultures.
   Sensitivities from [**12-20**] are different from [**12-15**].  PICC line tip removed
   [**12-23**] also growing Coag neg Staph.   Throughout, patient has been
   afebrile. No vegetations seen on [**12-22**] ECHO, [**12-29**] echo. Staph from
   [**12-26**] sensitive to Vancomycin.  Still no clear source for positive
   blood cultures.  Possible that multiple tubes are contaminated w/skin
   flora?  Possibility for mycotic aneurysm (R femoral pulse more
   prominent than left, bruit heard)
          -       Ultrasound for aneurysm in R femoral area
   -          Cont. Vancomycin, restart 14 day course based on [**12-27**] BCx
   -          Continue to check surveillance cultures.
   #2 SOB/Resp Failure: Patient had been protecting his own airway and was
   reintubated to have MRI studies on evening of [**12-22**].  He was
   successfully extubated [**12-26**] in the afternoon, with a good follow-up
   ABG.  Lungs are clearer today.  Oxygenating well on 4L nasal canula.
   Respiratory distress related more to agitation, improves w/seroquel prn
   doses and with nebulizer treatments.
   - Slow steroid taper with Prednisone 60mg PO qday for several days (1
   week), then taper
   - Continue atrovent nebs Q6H and xopenex nebs scheduled Q4H with prn
   Q2H; no albuterol to avoid tachycardia and increased agitation
   - Consider BiPAP if it appears patient may need re-intubation
   #3 Altered Mental Status:
 Improving today with supportive care.  MRI
   of brain without evidence of significant anoxic brain injury or other
   causes to explain encephalopathy.  [**Month (only) 51**] be a result of his critical
   illness and multiple medications that he has received.  Neurology is
   following.  B12 level normal.   Per family, pt. has bipolar disorder
   and has not taken medications that he was previously prescribed.  EEG
   and EMG unrevealing.  Seroquel 100mg PO BID and PRN.  Neurology
   recommended repeat MRI but patient unable to remain still w/out being
   sedated and in light of difficulty weaning patient from vent
   previously, is best to avoid re-intubation.   IV thiamine re-started.
   - appreciate neurology recommendations.
   - psych consult on [**12-29**]
   - increase Seroquel to 150mg PO BID today,  PRN is 25-50mg q8 hours
   - f/u psych recs for further management
   # Anemia: Stable currently, but Hx stool guaiac +.
    -trend Hct
   - patient on PPI
   -transfuse if Hct <21 or patient symptomatic.
   #Hypertension: On reviewing old records, pt. has a history of HTN and
   was previously discharged from this institution on lisinopril and
   atenolol.  Thus, he likely has HTN at baseline and requires some
   medication for this.  HTN also corresponds to agitation.   Continue
   Captopril at 37.5 PO TID as his HTN is improved today.
   - Start Amlodipine 5mg PO qday today; continue Captopril 37.5mg PO TID
   - Holding beta blocker as pt. is bradycardic at times, bronchospastic
   - No albuterol
   - Control agitation with seroquel
   #Hypernatremia:
   - increase free H2O flushes to 300cc Q3 hours
   - follow Na w/am labs and adjust water flushes as appropriate.
   # CAD s/p silent myocardial infarction: s/p cardiac arrest and multiple
   shocks.
   - Add ASA
   - Hold B-blocker given intermittent bradycardia, bronchospasm
   - Consider statin.
   # Medical decision making:
   - Family (brother & son) visited patient this weekend and were
   encouraged by his progress.  They will try to have family visiting to
   help orient patient and provide a familiar face.
   - Pursing guardianship
 paperwork was given to SW; waiting for son to
   return paperwork to SW
   - okay with PEG placement if deemed medically necessary.
   ([**Location (un) 2991**], NY ~10 months ago & [**Location (un) 3637**], GA ~ 3 yrs ago).
   .
   # PTSD/bipolar disorder: Appears that he is not on medications as
   outpatient. Per family, has been seen in VA system.
   - psych to see once patient extubated, able to better communicate.
   .
   # Hyperglycemia: Patient with BG 133-170 currently.
   -on low level standing glargine and regular insulin with sliding scale
   .
   # FEN:  Pt. tolerating TFs per nutrition recs. Metabolic alkolosis
   improved after diamox.  Replete electrolytes PRN.
   .
   # Access:  L EJ placed [**2104-12-28**].  Needs new line.  Try peripheral line.
   Consider midline PICC?
   # PPx:  Heparin SC TID, bowel regimen, On PPI
   # Code:  FULL code, confirmed with brother & son, will revisit if
   status deteriorates.
   # Dispo:  MICU
   # Communication:  Brother = [**Name (NI) **] [**Name (NI) 2269**] (Cell [**0-0-**]). Closest
   family member is oldest son [**Name (NI) 3062**].  [**Name2 (NI) 3062**] and [**Doctor Last Name **] both in [**Location (un) 3063**].
   Social work spoke with [**Doctor Last Name 3062**] who would like to make medical decisions
   and pursue guardianship if necessary.  (see SW note).  Guardianship
   paperwork in progress.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2104-12-29**] 06:22 PM 70 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2104-12-27**] 06:49 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2104-12-30 09:49:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Altered Mental Status
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2104-12-29**] 08:45 AM
   -No vegitation seen
 EKG - At [**2104-12-29**] 01:58 PM
 ULTRASOUND - At [**2104-12-29**] 02:04 PM
   LENYS bilateral upper/lower extremities
   -No clot visualized
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2104-12-30**] 08:32 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2104-12-29**] 04:18 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-12-30**] 09:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 89 (82 - 146) bpm
   BP: 110/67(78) {103/67(74) - 191/111(129)} mmHg
   RR: 18 (15 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.6 kg (admission): 79.4 kg
   Height: 70 Inch
             Total In:
                                                                  2,913 mL
                                                                  1,292 mL
   PO:
             TF:
                                                                  1,683 mL
                                                                    666 mL
   IVF:
                                                                    740 mL
                                                                    296 mL
   Blood products:
   Total out:
                                                                  1,395 mL
                                                                    650 mL
   Urine:
                                                                  1,395 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,518 mL
                                                                    642 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///39/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: )
mild wheezes
   Extremities: Right: Trace, Left: Trace
he has prominent right femoral
   pulse but no bruit noted this morning on my exam
had been reported as
   bruit on previous exam.
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
patient moving UE
   and LE freely
   Labs / Radiology
   9.3 g/dL
   344 K/uL
   107 mg/dL
   0.8 mg/dL
   39 mEq/L
   4.5 mEq/L
   29 mg/dL
   105 mEq/L
   147 mEq/L
   28.6 %
   8.3 K/uL
        [image002.jpg]
                            [**2104-12-25**]  10:08 AM
                            [**2104-12-26**]  02:09 AM
                            [**2104-12-26**]  07:31 AM
                            [**2104-12-26**]  07:45 AM
                            [**2104-12-26**]  03:26 PM
                            [**2104-12-27**]  12:43 AM
                            [**2104-12-27**]  08:37 PM
                            [**2104-12-28**]  04:00 AM
                            [**2104-12-29**]  03:12 AM
                            [**2104-12-30**]  04:25 AM
   WBC
   8.6
   8.2
   9.6
   8.3
   Hct
   27.4
   27.4
   27.5
   28.6
   Plt
   292
   295
   298
   344
   Cr
   0.7
   0.8
   0.7
   0.8
   TCO2
   39
   34
   39
   39
   Glucose
   119
   107
   142
   120
   110
   107
   Other labs: PT / PTT / INR:12.3/23.6/1.0, CK / CKMB /
   Troponin-T:191/11/0.08, ALT / AST:70/50, Alk Phos / T Bili:33/0.3,
   Lactic Acid:1.0 mmol/L, LDH:454 IU/L, Ca++:9.8 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.0 mg/dL
   Imaging: U/S UE and LE without DVT
   Microbiology: [**12-27**] with postive cultures for coag negative staph.
   [**2104-12-29**] cultures are pending
   Assessment and Plan
   64 yo male with history of COPD and now with successful extubation and
   maintenance of support with O2 and bronchodilators with steroids Rx
   being weaned.  He, however, does have persistent fevers and
   intermittent positive blood cultures with coag negative staph species
   x2
   1)Respiratory Failure-Patient with good status following extubation
   with ongoing wean of FIO2 and steroids
   -Pred 60mg qd
   -Atrovent and B-agonist
   -Will need slow wean of steroids clearly
   2)Altered Mental Status-
   -Continue to treat as infection, prolonged ICU delirium as primary
   triggers for altered mental status
   -Seroquel to increase to 150mg [**Hospital1 7**]
   -Thiamine
   -Psychiatry to continue to follow
   3)Sepsis-Continued fever at low grade and repeated cultures positive as
   recently as [**12-27**] concerning for persistnet untreated source.  The one
   area suspicious is right femoral artery for possible mycotic aneurysm.
   -Continue with Vancomycin
   -Continue with cultures repeat
   -Will check right femoral artery ultrasound for possible aneurysm or AV
   fistula in area of previous instrumentation.
   -Monitor for any recurrent insult
   Additional issues to be addressed as defined in the plan outlined in
   the housestaff note of this date.
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RANGE OF MOTION, IMPAIRED
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CARDIAC ARREST
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 ALTERATION IN NUTRITION
 ELECTROLYTE & FLUID DISORDER, OTHER
 .H/O RESPIRATORY FAILURE, CHRONIC
 ANXIETY
 HYPERTENSION, BENIGN
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2104-12-30**] 08:30 AM 70 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2104-12-27**] 06:49 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Continuing to pursue Guardianship for medical
   decision making as patient moves to discharge
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2104-12-31 06:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2104-12-30**] 01:00 PM
   u.s of rt groin to detect any pseudo-aneurysm, bruit heard by micu
   resident at rt groin on rounds
     * BCx sensitivity back-sensitive to vanco
     * lost IV access again.
     * R femoral ultrasound unread
     * free water flushes increased
     * CM for rehab placement ([**First Name5 (NamePattern1) 455**] [**Last Name (NamePattern1) 3729**]?)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2104-12-30**] 08:32 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-12-31**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.7
C (98.1
   HR: 107 (85 - 144) bpm
   BP: 163/94(107) {110/60(72) - 192/128(132)} mmHg
   RR: 23 (14 - 39) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 68.6 kg (admission): 79.4 kg
   Height: 70 Inch
                  Total In:
                                                                  2,903 mL
                                                                    785 mL
   PO:
                  TF:
                                                                  1,676 mL
                                                                    475 mL
   IVF:
                                                                    353 mL
   Blood products:
   Total out:
                                                                  1,465 mL
                                                                    305 mL
   Urine:
                                                                  1,465 mL
                                                                    305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,438 mL
                                                                    480 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///36/
   Physical Examination
   GEN: Elderly male, awake, following commands and responding to
   questions
   HEENT: Pupils minimally asymmetric, but reactive bilaterally, sclera
   anicteric
   COR: RRR, no M/G/R, normal S1 S2, radial pulses +2
   PULM: Decreased breath sounds b/l
   ABD: Soft, NT, ND, normal BS, no HSM appreciated.
   EXT: No C/C/E.  R femoral artery w/more prominent pulse, bruit
   auscultated.
   NEURO: Awake and alert, spontaneous movements of UE<LE, opens eyes
   spontaneously; following simple commands including moving L v R legs.
   Answers questions occasionally.
   SKIN: No jaundice, cyanosis, ecchymosis.
   Skin:  No visible rashes.
   Labs / Radiology
   344 K/uL
   9.3 g/dL
   95 mg/dL
   0.7 mg/dL
   36 mEq/L
   4.5 mEq/L
   27 mg/dL
   104 mEq/L
   146 mEq/L
   28.6 %
   8.3 K/uL
        [image002.jpg]
                            [**2104-12-26**]  02:09 AM
                            [**2104-12-26**]  07:31 AM
                            [**2104-12-26**]  07:45 AM
                            [**2104-12-26**]  03:26 PM
                            [**2104-12-27**]  12:43 AM
                            [**2104-12-27**]  08:37 PM
                            [**2104-12-28**]  04:00 AM
                            [**2104-12-29**]  03:12 AM
                            [**2104-12-30**]  04:25 AM
                            [**2104-12-31**]  04:36 AM
   WBC
   8.6
   8.2
   9.6
   8.3
   Hct
   27.4
   27.4
   27.5
   28.6
   Plt
   292
   295
   298
   344
   Cr
   0.7
   0.8
   0.7
   0.8
   0.7
   TCO2
   34
   39
   39
   Glucose
   119
   107
   142
   120
   110
   107
   95
   Other labs: PT / PTT / INR:12.3/23.6/1.0, CK / CKMB /
   Troponin-T:191/11/0.08, ALT / AST:70/50, Alk Phos / T Bili:33/0.3,
   Lactic Acid:1.0 mmol/L, LDH:454 IU/L, Ca++:10.2 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.0 mg/dL
   Assessment and Plan
   Assessment and Plan
   64M homeless man w h/o COPD, asthma, EtOH abuse who intially presented
   with SOB, likely COPD exacerbation, left AMA, now s/p cardiac arrest x
   2 with bilateral CTs removed for PTX.  Chest tube removed, pt
   extubated, mental status is depressed but seems to be improving.
   .
   #1 Positive Blood Cultures with Coag negative staph: Now cultures
   growing GPCs [**2104-12-27**].  Coag neg Staph in bottles from [**12-15**], [**12-17**], [**12-20**]
   (1 of 2 bottles
 2^nd showed no growth), and [**12-26**].    Neg x 2 on
   [**12-16**], no growth yet on from [**12-22**], [**12-23**], [**12-25**] blood cultures.
   Sensitivities from [**12-20**] are different from [**12-15**].  PICC line tip removed
   [**12-23**] also growing Coag neg Staph.   Throughout, patient has been
   afebrile. No vegetations seen on [**12-22**] ECHO, [**12-29**] echo. Staph from
   [**12-26**] sensitive to Vancomycin.  Still no clear source for positive
   blood cultures.  Possible that multiple tubes are contaminated w/skin
   flora?  Possibility for mycotic aneurysm (R femoral pulse more
   prominent than left, bruit heard)
          -       Ultrasound for aneurysm in R femoral area
   -          Cont. Vancomycin, restart 14 day course based on [**12-27**] BCx
   -          Continue to check surveillance cultures.
   #2 SOB/Resp Failure: Patient had been protecting his own airway and was
   reintubated to have MRI studies on evening of [**12-22**].  He was
   successfully extubated [**12-26**] in the afternoon, with a good follow-up
   ABG.  Lungs are clearer today.  Oxygenating well on 4L nasal canula.
   Respiratory distress related more to agitation, improves w/seroquel prn
   doses and with nebulizer treatments.
   - Slow steroid taper with Prednisone 60mg PO qday for several days (1
   week), then taper
   - Continue atrovent nebs Q6H and xopenex nebs scheduled Q4H with prn
   Q2H; no albuterol to avoid tachycardia and increased agitation
   - Consider BiPAP if it appears patient may need re-intubation
   #3 Altered Mental Status:
 Improving today with supportive care.  MRI
   of brain without evidence of significant anoxic brain injury or other
   causes to explain encephalopathy.  [**Month (only) 51**] be a result of his critical
   illness and multiple medications that he has received.  Neurology is
   following.  B12 level normal.   Per family, pt. has bipolar disorder
   and has not taken medications that he was previously prescribed.  EEG
   and EMG unrevealing.  Seroquel 100mg PO BID and PRN.  Neurology
   recommended repeat MRI but patient unable to remain still w/out being
   sedated and in light of difficulty weaning patient from vent
   previously, is best to avoid re-intubation.   IV thiamine re-started.
   - appreciate neurology recommendations.
   - psych consult on [**12-29**]
   - increase Seroquel to 150mg PO BID today,  PRN is 25-50mg q8 hours
   - f/u psych recs for further management
   # Anemia: Stable currently, but Hx stool guaiac +.
    -trend Hct
   - patient on PPI
   -transfuse if Hct <21 or patient symptomatic.
   #Hypertension: On reviewing old records, pt. has a history of HTN and
   was previously discharged from this institution on lisinopril and
   atenolol.  Thus, he likely has HTN at baseline and requires some
   medication for this.  HTN also corresponds to agitation.   Continue
   Captopril at 37.5 PO TID as his HTN is improved today.
   - Start Amlodipine 5mg PO qday today; continue Captopril 37.5mg PO TID
   - Holding beta blocker as pt. is bradycardic at times, bronchospastic
   - No albuterol
   - Control agitation with seroquel
   #Hypernatremia:
   - increase free H2O flushes to 300cc Q3 hours
   - follow Na w/am labs and adjust water flushes as appropriate.
   # CAD s/p silent myocardial infarction: s/p cardiac arrest and multiple
   shocks.
   - Add ASA
   - Hold B-blocker given intermittent bradycardia, bronchospasm
   - Consider statin.
   # Medical decision making:
   - Family (brother & son) visited patient this weekend and were
   encouraged by his progress.  They will try to have family visiting to
   help orient patient and provide a familiar face.
   - Pursing guardianship
 paperwork was given to SW; waiting for son to
   return paperwork to SW
   - okay with PEG placement if deemed medically necessary.
   ([**Location (un) 2991**], NY ~10 months ago & [**Location (un) 3637**], GA ~ 3 yrs ago).
   .
   # PTSD/bipolar disorder: Appears that he is not on medications as
   outpatient. Per family, has been seen in VA system.
   - psych to see once patient extubated, able to better communicate.
   .
   # Hyperglycemia: Patient with BG 133-170 currently.
   -on low level standing glargine and regular insulin with sliding scale
   .
   # FEN:  Pt. tolerating TFs per nutrition recs. Metabolic alkolosis
   improved after diamox.  Replete electrolytes PRN.
   .
   # Access:  L EJ placed [**2104-12-28**].  Needs new line.  Try peripheral line.
   Consider midline PICC?
   # PPx:  Heparin SC TID, bowel regimen, On PPI
   # Code:  FULL code, confirmed with brother & son, will revisit if
   status deteriorates.
   # Dispo:  MICU
   # Communication:  Brother = [**Name (NI) **] [**Name (NI) 2269**] (Cell [**0-0-**]). Closest
   family member is oldest son [**Name (NI) 3062**].  [**Name2 (NI) 3062**] and [**Doctor Last Name **] both in [**Location (un) 3063**].
   Social work spoke with [**Doctor Last Name 3062**] who would like to make medical decisions
   and pursue guardianship if necessary.  (see SW note).  Guardianship
   paperwork in progress.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2104-12-30**] 10:46 PM 70 mL/hour
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2104-12-31 12:03:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2104-12-30**] 01:00 PM
   u.s of rt groin to detect any pseudo-aneurysm, bruit heard by micu
   resident at rt groin on rounds
   No evidence of abnormality on prelim read
   IV access lost last pm
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2104-12-30**] 08:32 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever, 99.8
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2104-12-31**] 11:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37
C (98.6
   HR: 125 (85 - 144) bpm
   BP: 184/116(128) {113/60(72) - 192/128(132)} mmHg
   RR: 27 (15 - 39) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 68.6 kg (admission): 79.4 kg
   Height: 70 Inch
                  Total In:
                                                                  2,903 mL
                                                                  1,168 mL
   PO:
                  TF:
                                                                  1,676 mL
                                                                    828 mL
   IVF:
                                                                    353 mL
   Blood products:
   Total out:
                                                                  1,465 mL
                                                                    495 mL
   Urine:
                                                                  1,465 mL
                                                                    495 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,438 mL
                                                                    673 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///36/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
Patient with moving of upper
   and lower extremities with increasing strength over time.
   Labs / Radiology
   9.3 g/dL
   344 K/uL
   95 mg/dL
   0.7 mg/dL
   36 mEq/L
   4.5 mEq/L
   27 mg/dL
   104 mEq/L
   146 mEq/L
   28.6 %
   8.3 K/uL
        [image002.jpg]
                            [**2104-12-26**]  02:09 AM
                            [**2104-12-26**]  07:31 AM
                            [**2104-12-26**]  07:45 AM
                            [**2104-12-26**]  03:26 PM
                            [**2104-12-27**]  12:43 AM
                            [**2104-12-27**]  08:37 PM
                            [**2104-12-28**]  04:00 AM
                            [**2104-12-29**]  03:12 AM
                            [**2104-12-30**]  04:25 AM
                            [**2104-12-31**]  04:36 AM
   WBC
   8.6
   8.2
   9.6
   8.3
   Hct
   27.4
   27.4
   27.5
   28.6
   Plt
   292
   295
   298
   344
   Cr
   0.7
   0.8
   0.7
   0.8
   0.7
   TCO2
   34
   39
   39
   Glucose
   119
   107
   142
   120
   110
   107
   95
   Other labs: PT / PTT / INR:12.3/23.6/1.0, CK / CKMB /
   Troponin-T:191/11/0.08, ALT / AST:70/50, Alk Phos / T Bili:33/0.3,
   Lactic Acid:1.0 mmol/L, LDH:454 IU/L, Ca++:10.2 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.0 mg/dL
   Microbiology: Blood Cultures--[**12-26**] and [**12-27**] with 2 separate coag neg
   staph species with Vanco sensisitve species with mild elevation in MIC
   BC's negative from [**12-29**] and [**12-30**]
   Assessment and Plan
   64 yo male with history of COPD now with improved respiratory status
   following extubation and now has slow to improve mental status and
   absence of  positive cultures following most recent cultures.  This may
   represent improving sepsis, respiratory failure and delirium all
   proceeding in parallel.
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
   -Seroquel
   -Haldol
   -Seroquel PRN
   Respiratory Failure-
   -Decrease prednisone to 40mg today
   -Continue standing nebs at current dose and use PRN
   Sepsis/Bacteremia-
   -Patient with coag neg staph sepcies identified with reassuring
   negative cultures over past 3 days.
   -Continue Vancomycin and would favor change addition of Gentamycin but
   team will discuss with ID
   -Alternative sources not clearly identified
   -MRI done of C-spine but not of lower extremities and patient showing
   substantial improvement in extremity exam
 BALANCE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RANGE OF MOTION, IMPAIRED
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CARDIAC ARREST
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 ALTERATION IN NUTRITION
 ELECTROLYTE & FLUID DISORDER, OTHER
 .H/O RESPIRATORY FAILURE, CHRONIC
 ANXIETY
 HYPERTENSION, BENIGN
   ICU Care
   Nutrition: Favor speech and swallow trial today with improving mental
   status and prolonged period of extubation.
   Fibersource HN (Full) - [**2104-12-30**] 10:46 PM 70 mL/hour
   Glycemic Control:
   Lines: --Peripheral IV in place
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2105-01-01 05:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Lost IV access - and new PIV placed
   - Discussed abx w/ ID, cont vanc + imaging
   - tapered prednisone to 40 mg
   - failed speech & swallow eval
   - NGT placed & position verified
   - free water increased
   - pt. stayed in ICU due to lost access and respiratory agitation
   overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2104-12-31**] 10:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-1-1**] 05:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36
C (96.8
   HR: 99 (86 - 151) bpm
   BP: 121/77(86) {112/63(74) - 204/125(136)} mmHg
   RR: 20 (16 - 37) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.6 kg (admission): 79.4 kg
   Height: 70 Inch
                  Total In:
                                                                  1,990 mL
                                                                    383 mL
   PO:
                  TF:
                                                                  1,020 mL
                                                                    383 mL
   IVF:
                                                                    400 mL
   Blood products:
   Total out:
                                                                  1,100 mL
                                                                    260 mL
   Urine:
                                                                  1,100 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    890 mL
                                                                    123 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ////
   Physical Examination
   GEN: Elderly male, awake, following commands and responding to
   questions
   HEENT: Pupils minimally asymmetric, but reactive bilaterally, sclera
   anicteric
   COR: RRR, no M/G/R, normal S1 S2, radial pulses +2
   PULM: Decreased breath sounds b/l
   ABD: Soft, NT, ND, normal BS, no HSM appreciated.
   EXT: No C/C/E.
   NEURO: Awake and alert, spontaneous movements of UE<LE, opens eyes
   spontaneously; following simple commands including moving L v R legs.
   Answers questions occasionally.
   SKIN: No jaundice, cyanosis, ecchymosis.
   Skin:  No visible rashes.
   Labs / Radiology
   333 K/uL
   10.9 g/dL
   95 mg/dL
   0.7 mg/dL
   36 mEq/L
   4.5 mEq/L
   27 mg/dL
   104 mEq/L
   146 mEq/L
   32.1 %
   5.5 K/uL
        [image002.jpg]
                            [**2104-12-26**]  07:31 AM
                            [**2104-12-26**]  07:45 AM
                            [**2104-12-26**]  03:26 PM
                            [**2104-12-27**]  12:43 AM
                            [**2104-12-27**]  08:37 PM
                            [**2104-12-28**]  04:00 AM
                            [**2104-12-29**]  03:12 AM
                            [**2104-12-30**]  04:25 AM
                            [**2104-12-31**]  04:36 AM
                            [**2105-1-1**]  04:30 AM
   WBC
   8.6
   8.2
   9.6
   8.3
   5.5
   Hct
   27.4
   27.4
   27.5
   28.6
   32.1
   Plt
   292
   295
   298
   344
   333
   Cr
   0.8
   0.7
   0.8
   0.7
   TCO2
   34
   39
   39
   Glucose
   107
   142
   120
   110
   107
   95
   Other labs: PT / PTT / INR:12.3/23.6/1.0, CK / CKMB /
   Troponin-T:191/11/0.08, ALT / AST:70/50, Alk Phos / T Bili:33/0.3,
   Differential-Neuts:79.3 %, Lymph:11.0 %, Mono:7.6 %, Eos:2.0 %, Lactic
   Acid:1.0 mmol/L, LDH:454 IU/L, Ca++:10.2 mg/dL, Mg++:2.1 mg/dL, PO4:3.0
   mg/dL
   Assessment and Plan
   64M homeless man w h/o COPD, asthma, EtOH abuse who intially presented
   with SOB, likely COPD exacerbation, left AMA, now s/p cardiac arrest x
   2 with bilateral CTs removed for PTX.  Chest tube removed, pt
   extubated, mental status is depressed but seems to be improving.
   Persistent bacteremia with coag negative staph.
   .
   #1 Positive Blood Cultures with Coag negative staph:  Coag neg Staph
   [**12-27**], [**12-15**], [**12-17**], [**12-20**] (1 of 2 bottles
 2^nd showed no growth), and
   [**12-15**].    Neg x 2 on [**12-16**], no growth yet on from [**12-22**], [**12-23**], [**12-25**]
   blood cultures.  Sensitivities show 2 different morphologies, sensitive
   to vanc but MIC = 2.  PICC line tip removed [**12-23**] is likely source of
   Coag neg Staph.   Throughout, patient has been afebrile. No vegetations
   seen on [**12-22**] ECHO, [**12-29**] echo. Staph from [**12-26**] sensitive to
   Vancomycin.  Still no clear source for positive blood cultures, however
   were likely from PICC line, now removed.
   - f/u final read of ultrasound for aneurysm in R femoral area
   - cont. Vancomycin, restart 14 day course based on [**12-27**] BCx
   - continue to check surveillance cultures.
   - ID consult for continued management, changing abxs or increased vanc
   dosing
   #2 SOB/Resp Failure: Patient had been protecting his own airway and was
   reintubated to have MRI studies on evening of [**12-22**].  He was
   successfully extubated [**12-26**] in the afternoon, with a good follow-up
   ABG.  Lungs are clearer today.  Oxygenating well on 4L nasal canula.
   Respiratory distress related more to agitation, improves w/seroquel prn
   doses and with nebulizer treatments. Not requiring many PRN nebs
   - taper Prednisone with 40mg today
   - Continue atrovent nebs Q6H and xopenex nebs scheduled Q4H with prn
   Q2H; no albuterol to avoid tachycardia and increased agitation
   #3 Altered Mental Status:
 Improving today with supportive care.  MRI
   of brain without evidence of significant anoxic brain injury or other
   causes to explain encephalopathy.  [**Month (only) 51**] be a result of his critical
   illness and multiple medications that he has received.  Neurology is
   following.  B12 level normal.   Per family, pt. has bipolar disorder
   and has not taken medications that he was previously prescribed.  EEG
   and EMG unrevealing.  Seroquel 150mg PO BID and PRN.  Neurology
   recommended repeat MRI but patient unable to remain still w/out being
   sedated and in light of difficulty weaning patient from vent
   previously, is best to avoid re-intubation.
   - appreciate neurology recommendations.
   - psych consult on [**12-29**]
   - continue current Seroquel dose at 150mg PO BID today,  PRN is 25-50mg
   q8 hours
   - f/u psych recs for further management
   # Anemia: Stable currently, but Hx stool guaiac +.
    -trend Hct
   - patient on PPI
   -transfuse if Hct <21 or patient symptomatic.
   #Hypertension: On reviewing old records, pt. has a history of HTN and
   was previously discharged from this institution on lisinopril and
   atenolol.  Thus, he likely has HTN at baseline and requires some
   medication for this.  HTN also corresponds to agitation.   Continue
   Captopril at 37.5 PO TID as his HTN is improved today.
   - regimen is Amlodipine 5mg PO qday, Captopril 37.5mg PO TID
   - Holding beta blocker as pt. is bradycardic at times, bronchospastic
   - No albuterol
   - Control agitation with seroquel
   #Hypernatremia:
   - increase free H2O flushes
   - follow Na w/am labs and adjust water flushes as appropriate.
   # CAD s/p silent myocardial infarction: s/p cardiac arrest and multiple
   shocks.
   - Add ASA
   - Hold B-blocker given intermittent bradycardia, bronchospasm
   - Consider statin.
   # Medical decision making:
   - Family (brother & son) visited patient this weekend and were
   encouraged by his progress.  They will try to have family visiting to
   help orient patient and provide a familiar face.
   - Pursing guardianship
 paperwork done by medical team, SW working
   with family
   - okay with PEG placement if deemed medically necessary.
   .
   # PTSD/bipolar disorder: Appears that he is not on medications as
   outpatient. Per family, has been seen in VA system.
   - psych f/u
   .
   # Hyperglycemia: Patient with BG 133-170 currently.
   -on low level standing glargine and regular insulin with sliding scale
   .
   # FEN:  Pt. tolerating TFs per nutrition recs.  Replete electrolytes
   PRN.
   .
   # Access:  PIV
   # PPx:  Heparin SC TID, bowel regimen, On PPI
   # Code:  FULL code, confirmed with brother & son, will revisit if
   status deteriorates.
   # Dispo:  MICU
   # Communication:  Brother = [**Name (NI) **] [**Name (NI) 2269**] (Cell [**0-0-**]). Closest
   family member is oldest son [**Name (NI) 3062**].  [**Name2 (NI) 3062**] and [**Doctor Last Name **] both in [**Location (un) 3063**].
   Social work spoke with [**Doctor Last Name 3062**] who would like to make medical decisions
   and pursue guardianship if necessary.  (see SW note).  Guardianship
   paperwork in progress. Guaridian needs to be legal guardian, not family
   because the guardian needs to be in-state.  Family will come in each
   weekend to visit.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2104-12-31**] 10:29 PM 70 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2105-1-1**] 12:22 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2105-01-01 11:04:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Cardiac Arrest
   Bacteremia
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Vanco continued for bacteremia
   -Femoral artery showing increase in diameter on final read but upon
   further review conclusion was that there was no evidence of significant
   aneurysm
   -S+S failed and NGT persistently required.
   -Seroquel required PRN dosing in addition to 150mg [**Hospital1 7**]
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2105-1-1**] 07:49 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2105-1-1**] 08:01 AM
   Heparin Sodium (Prophylaxis) - [**2105-1-1**] 08:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-1-1**] 10:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.1
C (97
   HR: 84 (84 - 151) bpm
   BP: 98/56(64) {97/56(64) - 204/139(144)} mmHg
   RR: 14 (14 - 37) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.6 kg (admission): 79.4 kg
   Height: 70 Inch
             Total In:
                                                                  1,790 mL
                                                                  1,429 mL
   PO:
             TF:
                                                                  1,020 mL
                                                                    754 mL
   IVF:
                                                                    200 mL
                                                                    215 mL
   Blood products:
   Total out:
                                                                  1,100 mL
                                                                    450 mL
   Urine:
                                                                  1,100 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    690 mL
                                                                    979 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///37/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.9 g/dL
   333 K/uL
   105 mg/dL
   0.7 mg/dL
   37 mEq/L
   4.0 mEq/L
   31 mg/dL
   104 mEq/L
   148 mEq/L
   32.1 %
   5.5 K/uL
        [image002.jpg]
                            [**2104-12-26**]  07:31 AM
                            [**2104-12-26**]  07:45 AM
                            [**2104-12-26**]  03:26 PM
                            [**2104-12-27**]  12:43 AM
                            [**2104-12-27**]  08:37 PM
                            [**2104-12-28**]  04:00 AM
                            [**2104-12-29**]  03:12 AM
                            [**2104-12-30**]  04:25 AM
                            [**2104-12-31**]  04:36 AM
                            [**2105-1-1**]  04:30 AM
   WBC
   8.6
   8.2
   9.6
   8.3
   5.5
   Hct
   27.4
   27.4
   27.5
   28.6
   32.1
   Plt
   292
   295
   298
   344
   333
   Cr
   0.8
   0.7
   0.8
   0.7
   0.7
   TCO2
   34
   39
   39
   Glucose
   107
   142
   120
   110
   107
   95
   105
   Other labs: PT / PTT / INR:12.3/23.6/1.0, CK / CKMB /
   Troponin-T:191/11/0.08, ALT / AST:20/25, Alk Phos / T Bili:60/0.6,
   Differential-Neuts:79.3 %, Lymph:11.0 %, Mono:7.6 %, Eos:2.0 %, Lactic
   Acid:1.0 mmol/L, Albumin:3.6 g/dL, LDH:454 IU/L, Ca++:9.9 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR--NGT in position by Radiology [**Location (un) **].  Substantial
   improvement in pulmonary opacities.
   Assessment and Plan
   64 yo male with history of COPD now admitted initially with
   exacerbation of his underlying obstructive lung disease with hosptial
   course complicated by cardiac arrest, continued bacteremia, persistent
   ventilatory failure and altered mental status.
   1)Respiratory Failure--Chronic obstructive lung disease with acute
   exacerbation-
   -Reasonable improvement in ventilation outside of acute paroxysms of
   dyspnea, tachypnea and agiation which may or may not be primary
   respiratory trigger
   -Wean prednisone further 40mg/d
30mg/d if stable today
   2)Agitation/Altered Mental Status-Patient with reassuring
   -Seroquel dosing to continue
   -Thiamine
   -Patient moving all extremities with good strength
   -Likely background untreated psychiatric illness in addition to
   resolving ICU delirium
   3)Sepsis--No followed by persistent bacteremia.  We have discussed with
   ID team and will continue to Rx and search for possible persistent
   sources.
   -Blood cultures form 11/17/11/8 and [**12-31**] have been negative to date
   -Vanco to continue x 14 day course
   -Likely catheter tip source from past.
   -Will move to TEE for persistent positive cultures vs. empiric
   extension of antibiotic dosing duration
   -With encouraging neuro exam showing continued improvement in strength
   will pursue MRI only for change in neuro exam
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RANGE OF MOTION, IMPAIRED
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CARDIAC ARREST
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 ALTERATION IN NUTRITION
 ELECTROLYTE & FLUID DISORDER, OTHER
 .H/O RESPIRATORY FAILURE, CHRONIC
 ANXIETY
 HYPERTENSION, BENIGN
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2104-12-31**] 10:29 PM 70 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2105-1-1**] 12:22 AM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2105-01-03 05:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2105-1-2**] 01:25 PM
   single lumen picc
          back to MICU for trigger on floor 2x today for respiratory
   distress
 abg and sats fine, but pt w/tachypnea
          no trouble on - VSS
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2105-1-2**] 07:52 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2105-1-3**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-1-3**] 05:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.2
C (97.1
   HR: 107 (92 - 117) bpm
   BP: 150/85(100) {94/55(63) - 175/113(121)} mmHg
   RR: 31 (14 - 34) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 68.6 kg (admission): 79.4 kg
   Height: 70 Inch
                  Total In:
                                                                    867 mL
                                                                    531 mL
   PO:
                  TF:
                                                                    494 mL
                                                                    471 mL
   IVF:
                                                                    202 mL
   Blood products:
   Total out:
                                                                    470 mL
                                                                    200 mL
   Urine:
                                                                    470 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    397 mL
                                                                    331 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///36/
   Physical Examination
   GEN: Elderly male, awake, following commands and responding to
   questions
   HEENT: Pupils minimally asymmetric, but reactive bilaterally, sclera
   anicteric
   COR: RRR, no M/G/R, normal S1 S2, radial pulses +2
   PULM: CTA b/l
   ABD: Soft, NT, ND, normal BS, no HSM appreciated.
   EXT: No C/C/E.
   NEURO: Awake and alert, spontaneous movements of UE<LE, opens eyes
   spontaneously; following simple commands including moving L v R legs.
   Answers questions occasionally.
   SKIN: No jaundice, cyanosis, ecchymosis.
   Skin:  No visible rashes.
   Labs / Radiology
   390 K/uL
   9.9 g/dL
   135 mg/dL
   0.7 mg/dL
   36 mEq/L
   4.1 mEq/L
   30 mg/dL
   101 mEq/L
   141 mEq/L
   28.6 %
   7.2 K/uL
        [image002.jpg]
                            [**2104-12-26**]  07:45 AM
                            [**2104-12-26**]  03:26 PM
                            [**2104-12-27**]  12:43 AM
                            [**2104-12-27**]  08:37 PM
                            [**2104-12-28**]  04:00 AM
                            [**2104-12-29**]  03:12 AM
                            [**2104-12-30**]  04:25 AM
                            [**2104-12-31**]  04:36 AM
                            [**2105-1-1**]  04:30 AM
                            [**2105-1-3**]  04:00 AM
   WBC
   8.2
   9.6
   8.3
   5.5
   7.2
   Hct
   27.4
   27.5
   28.6
   32.1
   28.6
   Plt
   295
   298
   344
   333
   390
   Cr
   0.8
   0.7
   0.8
   0.7
   0.7
   0.7
   TCO2
   34
   39
   39
   Glucose
   107
   142
   120
   110
   107
   95
   105
   135
   Other labs: PT / PTT / INR:13.3/30.2/1.1, CK / CKMB /
   Troponin-T:191/11/0.08, ALT / AST:20/25, Alk Phos / T Bili:60/0.6,
   Differential-Neuts:79.3 %, Lymph:11.0 %, Mono:7.6 %, Eos:2.0 %, Lactic
   Acid:1.0 mmol/L, Albumin:3.6 g/dL, LDH:454 IU/L, Ca++:9.1 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   64M homeless man w h/o COPD, asthma, EtOH abuse who intially presented
   with SOB, likely COPD exacerbation, left AMA, now s/p cardiac arrest x
   2 with bilateral CTs removed for PTX.  Chest tube removed, pt
   extubated, mental status is depressed but seems to be improving.
   Persistent bacteremia with coag negative staph.
   .
   #1 Coag Negative Staph Bacteremia:  Most recent positive cultures from
   [**12-27**]. .  Sensitivities show 2 different morphologies, sensitive to
   vanc but MIC = 2.  PICC line tip removed [**12-23**] is likely source of Coag
   neg Staph.   Throughout, patient has been afebrile. No vegetations seen
   on [**12-22**] ECHO, [**12-29**] echo.  Still no clear source for positive blood
   cultures, however were likely from PICC line, now removed.  Per
   radiology, no thrombus in veins, no arterial pseudoanerysms.
   - cont. Vancomycin, restart 14 day course based on [**12-27**] BCx
   - continue to check surveillance cultures.
   - appreciate ID recs
   #2 SOB/Resp Failure: Patient had been protecting his own airway and was
   reintubated to have MRI studies on evening of [**12-22**].  He was
   successfully extubated [**12-26**] in the afternoon, with a good follow-up
   ABG.  Lungs are clear, CXR clear.  Oxygenating well on nc.  Respiratory
   distress related more to agitation, improves w/seroquel prn doses and
   with nebulizer treatments. Not requiring many PRN nebs
   - Prednisone with 40mg today with long taper
   - Continue atrovent nebs Q6H and xopenex nebs scheduled Q4H with prn
   Q2H; no albuterol to avoid tachycardia and increased agitation
   #3 Altered Mental Status:
 Improving today with supportive care.  MRI
   of brain without evidence of significant anoxic brain injury or other
   causes to explain encephalopathy.  [**Month (only) 51**] be a result of his critical
   illness and multiple medications that he has received.  Neurology is
   following.  B12 level normal.   Per family, pt. has bipolar disorder
   and has not taken medications that he was previously prescribed.  EEG
   and EMG unrevealing.  Seroquel 150mg PO BID and PRN.  Neurology
   recommended repeat MRI but patient unable to remain still w/out being
   sedated and in light of difficulty weaning patient from vent
   previously, is best to avoid re-intubation.
   - appreciate neurology recommendations.
   - f/u psych recs
   - increase Seroquel to 150mg PO TID today due to multiple PRN doses
   received last night
   # Anemia: Stable currently, but Hx stool guaiac +.
    -trend Hct
   - patient on PPI
   -transfuse if Hct <21 or patient symptomatic.
   #Hypertension: On reviewing old records, pt. has a history of HTN and
   was previously discharged from this institution on lisinopril and
   atenolol.  Thus, he likely has HTN at baseline and requires some
   medication for this.  HTN also corresponds to agitation.   Continue
   Captopril at 37.5 PO TID as his HTN is improved today.
   - regimen is Amlodipine 5mg PO qday, Captopril 37.5mg PO TID
   - Holding beta blocker as pt. is bradycardic at times, bronchospastic
   - No albuterol
   - Control agitation with seroquel
   #Hypernatremia:
   - continue free water boluses
   - follow Na w/am labs and adjust water flushes as appropriate.
   # CAD s/p silent myocardial infarction: s/p cardiac arrest and multiple
   shocks.
   - Add ASA
   - Hold B-blocker given intermittent bradycardia, bronchospasm
   - Consider statin.
   # Medical decision making:
   - Family (brother & son) visited patient this weekend and were
   encouraged by his progress.  They will try to have family visiting to
   help orient patient and provide a familiar face.
   - Pursing guardianship
 paperwork done by medical team, SW working
   with family
   - okay with PEG placement if deemed medically necessary.
   .
   # PTSD/bipolar disorder: Appears that he is not on medications as
   outpatient. Per family, has been seen in VA system.
   - psych f/u
   .
   # Hyperglycemia: Patient with BG 133-170 currently.
   -on low level standing glargine and regular insulin with sliding scale
   .
   # FEN:  Pt. tolerating TFs per nutrition recs.  Replete electrolytes
   PRN.  Failed speech and swallow eval but hope MS will improve over
   time.
   .
   # Access:  PIV, requesting PICC line
   # PPx:  Heparin SC TID, bowel regimen, On PPI
   # Code:  FULL code, confirmed with brother & son, will revisit if
   status deteriorates.
   # Dispo:  call out to floor
   # Communication:  Brother = [**Name (NI) **] [**Name (NI) 2269**] (Cell [**0-0-**]). Closest
   family member is oldest son [**Name (NI) 3062**].  [**Name2 (NI) 3062**] and [**Doctor Last Name **] both in [**Location (un) 3063**].
   Social work spoke with [**Doctor Last Name 3062**] who would like to make medical decisions
   and pursue guardianship if necessary.  (see SW note).  Guardianship
   paperwork in progress. Guaridian needs to be legal guardian, not family
   because the guardian needs to be in-state.  Family will come in each
   weekend to visit.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2105-1-2**] 06:12 PM 80 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2105-1-2**] 01:25 PM
   20 Gauge - [**2105-1-2**] 01:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   Critical Care
   Present for key portion of history and exam. Agree with assessment and
   plan above.  Tachypneic today but relatively comfortable when not
   stressed.  Will try to diurese given pos I&O over admission. Completing
   abx course for coag neg staph
   Time spent
 35 min

2105-01-04 05:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Captopril changed to Lisinopril 10mg PO qday
   Pt currently being screened for rehab.
   Blood culture positive from [**1-2**] with GPCs.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2105-1-3**] 08:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2105-1-3**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-1-4**] 05:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.1
C (97
   HR: 110 (95 - 132) bpm
   BP: 122/67(80) {75/46(52) - 160/94(109)} mmHg
   RR: 32 (15 - 38) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 68.6 kg (admission): 79.4 kg
   Height: 70 Inch
                  Total In:
                                                                  2,546 mL
                                                                    693 mL
   PO:
                  TF:
                                                                  1,926 mL
                                                                    443 mL
   IVF:
                                                                    400 mL
   Blood products:
   Total out:
                                                                  1,370 mL
                                                                    470 mL
   Urine:
                                                                  1,370 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,176 mL
                                                                    223 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///35/
   Physical Examination
   General Appearance: No acute distress, Thin, Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Wheezes : bilaterally)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): not oriented, Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   437 K/uL
   10.4 g/dL
   92 mg/dL
   0.7 mg/dL
   35 mEq/L
   4.5 mEq/L
   23 mg/dL
   100 mEq/L
   140 mEq/L
   30.8 %
   9.2 K/uL
        [image002.jpg]
                            [**2104-12-26**]  03:26 PM
                            [**2104-12-27**]  12:43 AM
                            [**2104-12-27**]  08:37 PM
                            [**2104-12-28**]  04:00 AM
                            [**2104-12-29**]  03:12 AM
                            [**2104-12-30**]  04:25 AM
                            [**2104-12-31**]  04:36 AM
                            [**2105-1-1**]  04:30 AM
                            [**2105-1-3**]  04:00 AM
                            [**2105-1-4**]  03:03 AM
   WBC
   8.2
   9.6
   8.3
   5.5
   7.2
   9.2
   Hct
   27.4
   27.5
   28.6
   32.1
   28.6
   30.8
   Plt
   295
   298
   344
   333
   390
   437
   Cr
   0.8
   0.7
   0.8
   0.7
   0.7
   0.7
   0.7
   TCO2
   39
   39
   Glucose
   107
   142
   120
   110
   107
   95
   105
   135
   92
   Other labs: PT / PTT / INR:13.3/30.2/1.1, CK / CKMB /
   Troponin-T:191/11/0.08, ALT / AST:20/25, Alk Phos / T Bili:60/0.6,
   Differential-Neuts:79.3 %, Lymph:11.0 %, Mono:7.6 %, Eos:2.0 %, Lactic
   Acid:1.0 mmol/L, Albumin:3.6 g/dL, LDH:454 IU/L, Ca++:9.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   64 yo M transferred back to the MICU with complicated PMH including
   COPD, EtOH abuse admitted with SOB, left AMA and had a seizure in
   lobby, with PEA arrest with subsequent hospital course complicated by
   PTX s/p chest tubes, AMS/agitation, respiratory distress and coag
   negative staph bacteremia.
   .
   # Dyspnea / COPD exacerbation:  He has been improving since IV steroid
   course and now with stable respiratory status on prednisone taper.  He
   was transferred back to the ICU today for episode of agitation and
   concern for respiratory distress with ABG of 7.3/56/57/38.  He was
   given usual tx of nebulizers and seroquel which improved his status
   however the floor team was uncomfortable with managing on the floor
   -continue seroquel 150 TID  for agitation, consider uptitrating
   -continue xopenex and ipratropium nebulizers
   -continue slow prednisone taper with Prednisone 30mg PO qday starting
   tomorrow morning
   .
   # Altered Mental Status/Bipolar disorder: Reason Most likely due to
   underlying psychiatric diagnosis Bipolar vs schizoaffective disorder as
   well as superimposed delirium [**3-15**] long ICU
   stay/bacteremia/intubation/IV steroids.  He had MRI brain without
   evidence of anoxic brain injury or other causes to explain
   encephalopathy.
   -          continue seroquel
   -          appreciate psych input
   .
   #Coag negative staph Bacteremia:  New cultures from [**1-2**] positive with
   unclear source.  Has had extensive workup in the past with TTE X 2
   (most recent [**12-29**]), LENIs with imaging of femoral arteries to assess
   for aneurysm, MRI of head and C-spine without evidence of abscess.  Pt
   would not tolerate repeat MRI or TEE at this point without
   re-intubation.
   -continue vancomycin to complete a 6-week course after last positive
   blood culture
   - would favor treating through [**Last Name **] problem of poor venous access
   - appreciate ID input
   .
   # Hypertension: prior to this admission was on lisinopril and atenolol,
   blood pressure improved on current regimen although he does become very
   hypertensive w/agitated episodes, which resolves w/seroquel.
   - on Lisinopril 10mg PO qday, Amlodipine 5mg PO qday
   - use seroquel for hypertension associated with episodes of agitation.
   .
   # Abnormal neuro exam: Imaging and EEG have shown no explanation for
   persistent encephalopathy and abnormal reflexes. However, with
   treatment for bacteremia and seroquel for agitation with improvement in
   mental status, the patient's neuro exam has begun to improve. Of note,
   he did have an EMG that was concerning for polyneuropathy. B12 was
   normal.
   - appreciate neuro recs
   - monitor mental status and neuro exam
   . .
   # s/p cardiac arrest: Cause unknown, a seizure may have been a
   component of the initial picture given his unresponsiveness, abnormal
   movements, and incontinence. Per his family, he has had cardiac arrests
   in the past. He is now s/p paralysis and sedation for the cardiac
   arrest cooling protocol. He was started on an amiodarone gtt which has
   since been d/c'd. He had a head CT after he was rewarmed that was
   unremarkable.
   - continue aspirin
   - beta blocker is being held due to COPD exacerbation and respiratory
   distress
   - continue telemetry
    .
   # ETOH abuse: unknown history of withdrawal seizures or DTs. Arrest may
   have been due to withdrawal seizure given timing to serum etoh levels
   on day of event.   Has been off benzo
s now for over one week.
   -continue folate, thiamine, MVI
   ..
   # History of alcoholic hepatitis: No LFTs in many years, but normal on
   check [**2104-12-4**].
   .
   # FEN He failed a speech and swallow evaluation on [**12-31**], continue with
   tube feeds via NGT for now, may require PEG.  Appears that he is likely
   at a new baseline and concern for little improvement from here.  Will
   continue to assess and address with family.
   .
   #Medical decision making: Given the patient's inability to communicate
   his own wishes, his son is currently pursuing guardianship. call
   [**First Name9 (NamePattern2) 3793**] [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **] 7-1888 on friday. attorney @[**Hospital1 **] [**First Name8 (NamePattern2) **]
   [**Last Name (NamePattern1) **]
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2105-1-3**] 07:06 PM 80 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2105-1-2**] 01:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2105-01-05 05:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
          BLOOD CULTURED - At [**2105-1-4**] 09:35 AM
          via picc line and peripheral
          [**1-2**] Blood culture is now positive.  Discussed on rounds
   and with ID.  Due to extremely poor access, PICC line is being left in
   place and opting to treat through.  Vancomycin levels have been low,
   increased dose last night after PM trough.  Perhaps persistent low
   grade-bacteremia from subtherapeutic levels?  No further workup for
   nidus of infection is planned to due inability to tolerate MRI or TEE
   w/out intubating and subsequent difficulty weaning from the vent.
          Prednisone decreased to 30mg PO yesterday.
          Ordered for Dobhoff to be placed by IR.
          Tube feeds held for high residuals
          Overnight, had one episode of hypotension with SBPs in the
   70s.  Got 1L NS with appropriate response.  Per nursing, had not been
   getting free water with tube feeds (changed order in POE).  Was more
   somnolent during hypotension
 decreased Seroquel to 100mg PO TID.
   Allergies:
   No Known Drug Allergies
   Antibiotics:
   Vancomycin
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2105-1-4**] 08:07 AM
   Heparin Sodium (Prophylaxis) - [**2105-1-4**] 04:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-1-5**] 05:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.6
C (97.8
   HR: 110 (90 - 133) bpm
   BP: 155/108(120) {75/19(43) - 155/108(120)} mmHg
   RR: 23 (14 - 37) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.6 kg (admission): 79.4 kg
   Height: 70 Inch
             Total In:
                                                                  2,518 mL
                                                                  1,527 mL
   PO:
             TF:
                                                                  1,688 mL
                                                                    468 mL
   IVF:
                                                                    580 mL
                                                                  1,059 mL
   Blood products:
   Total out:
                                                                  1,805 mL
                                                                    325 mL
   Urine:
                                                                  1,805 mL
                                                                    325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    713 mL
                                                                  1,202 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   Physical Examination
   General Appearance: No acute distress, Thin,
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube in place
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: Quiet breath sounds b/l
 poor air movement. Able
   to speak in full sentences.
   Abdominal: Soft, Non-tender, Bowel sounds present
   Neurologic: Attentive, conversational. Follows simple commands. Not
   Oriented. Moves all extremities spontaneously.
   Labs / Radiology
   396 K/uL
   9.5 g/dL
   105 mg/dL
   0.6 mg/dL
   34 mEq/L
   3.8 mEq/L
   20 mg/dL
   106 mEq/L
   143 mEq/L
   28.2 %
   8.2 K/uL
        [image002.jpg]
                            [**2104-12-27**]  12:43 AM
                            [**2104-12-27**]  08:37 PM
                            [**2104-12-28**]  04:00 AM
                            [**2104-12-29**]  03:12 AM
                            [**2104-12-30**]  04:25 AM
                            [**2104-12-31**]  04:36 AM
                            [**2105-1-1**]  04:30 AM
                            [**2105-1-3**]  04:00 AM
                            [**2105-1-4**]  03:03 AM
                            [**2105-1-5**]  04:38 AM
   WBC
   8.2
   9.6
   8.3
   5.5
   7.2
   9.2
   8.2
   Hct
   27.4
   27.5
   28.6
   32.1
   28.6
   30.8
   28.2
   Plt
   295
   298
   344
   333
   390
   437
   396
   Cr
   0.8
   0.7
   0.8
   0.7
   0.7
   0.7
   0.7
   TCO2
   39
   Glucose
   107
   142
   120
   110
   107
   95
   105
   135
   92
   Other labs:
   PT / PTT / INR:14.0/36.1/1.2
   Ca++:8.7 mg/dL, Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   BCx: [**12-15**], [**12-17**], [**12-20**], [**12-26**], [**12-27**] positive for coag negative staph
   sensitive to Vanco
   Central line tip [**12-23**]: coag negative staph.
   BCx: [**1-2**] w/G+ cocci
   BCx: [**12-29**], [**12-30**], [**12-31**], [**1-1**], [**1-4**] pending
   BCx: [**12-13**], [**12-16**], [**12-20**], [**12-22**], [**12-25**], [**12-29**], [**12-30**] negative.
   Assessment and Plan
   64 yo M transferred back to the MICU with complicated PMH including
   COPD, EtOH abuse admitted with SOB, left AMA and had a seizure in
   lobby, with PEA arrest with subsequent hospital course complicated by
   PTX s/p chest tubes, AMS/agitation, respiratory distress and coag
   negative staph bacteremia.
   .
   # Dyspnea / COPD exacerbation:  He has been improving since IV steroid
   course and now with stable respiratory status on prednisone taper.  He
   was transferred back to the ICU today for episode of agitation and
   concern for respiratory distress with ABG of 7.3/56/57/38.  He was
   given usual tx of nebulizers and seroquel which improved his status
   however the floor team was uncomfortable with managing on the floor
   -decrease seroquel to 100 TID  for agitation b/c of episode of
   somnolence last night.
   -continue xopenex and ipratropium nebulizers
   -continue slow prednisone taper with Prednisone 30mg PO qday starting
   tomorrow morning
   .
   # Altered Mental Status/Bipolar disorder: Reason Most likely due to
   underlying psychiatric diagnosis Bipolar vs schizoaffective disorder as
   well as superimposed delirium [**3-15**] long ICU
   stay/bacteremia/intubation/IV steroids.  He had MRI brain without
   evidence of anoxic brain injury or other causes to explain
   encephalopathy.
   -          continue seroquel
   -          appreciate psych input
   .
   #Coag negative staph Bacteremia:  New cultures from [**1-2**] positive with
   unclear source.  Has had extensive workup in the past with TTE X 2
   (most recent [**12-29**]), LENIs with imaging of femoral arteries to assess
   for aneurysm, MRI of head and C-spine without evidence of abscess.  Pt
   would not tolerate repeat MRI or TEE at this point without
   re-intubation.
   -continue vancomycin to complete a 6-week course after last positive
   blood culture
   - would favor treating through [**Last Name **] problem of poor venous access
   - appreciate ID input
   .
   # Hypertension: prior to this admission was on lisinopril and atenolol,
   blood pressure improved on current regimen although he does become very
   hypertensive w/agitated episodes, which resolves w/seroquel.
   - on Lisinopril 10mg PO qday, Amlodipine 5mg PO qday: follow BP, if too
   low w/10 of lisinopril, consider decreasing dose (not 1:1dosing with
   captopril).
   - use seroquel for hypertension associated with episodes of agitation.
   .
   # Abnormal neuro exam: Imaging and EEG have shown no explanation for
   persistent encephalopathy and abnormal reflexes. However, with
   treatment for bacteremia and seroquel for agitation with improvement in
   mental status, the patient's neuro exam has begun to improve. Of note,
   he did have an EMG that was concerning for polyneuropathy. B12 was
   normal.
   - appreciate neuro recs
   - monitor mental status and neuro exam
   . .
   # s/p cardiac arrest: Cause unknown, a seizure may have been a
   component of the initial picture given his unresponsiveness, abnormal
   movements, and incontinence. Per his family, he has had cardiac arrests
   in the past. He is now s/p paralysis and sedation for the cardiac
   arrest cooling protocol. He was started on an amiodarone gtt which has
   since been d/c'd. He had a head CT after he was rewarmed that was
   unremarkable.
   - continue aspirin
   - beta blocker is being held due to COPD exacerbation and respiratory
   distress
   - continue telemetry
    .
   # ETOH abuse: unknown history of withdrawal seizures or DTs. Arrest may
   have been due to withdrawal seizure given timing to serum etoh levels
   on day of event.   Has been off benzo
s now for over one week.
   -continue folate, thiamine, MVI
   ..
   # History of alcoholic hepatitis: No LFTs in many years, but normal on
   check [**2104-12-4**].
   .
   # FEN He failed a speech and swallow evaluation on [**12-31**], continue with
   tube feeds via NGT for now, may require PEG.  Appears that he is likely
   at a new baseline and concern for little improvement from here.  Will
   continue to assess and address with family. Needs repeat S&S now that
   mental status has improved.
   .
   #Medical decision making: Given the patient's inability to communicate
   his own wishes, his son is currently pursuing guardianship. call
   [**First Name9 (NamePattern2) 3793**] [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **] 7-1888 on friday. attorney @[**Hospital1 **] [**First Name8 (NamePattern2) **]
   [**Last Name (NamePattern1) **]  .
   .
   Dispo: appropriate for rehab. Screening once guardianship finalized..
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2105-1-4**] 11:00 PM 80 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2105-1-2**] 01:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2105-01-05 14:12:00 Physician Attending Progress Note
Chief Complaint: respiratory distress.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   64 yo man with prolonged hospital stay for respiratory failure, PEA
   arrest, b/l pneumothorices.  Was on medical floor, but returned for
   respiratory distress.
   24 Hour Events:
 BLOOD CULTURED - At [**2105-1-4**] 09:35 AM
   via picc line and peripheral
   Blood cx from [**1-3**] now with coag negative staph being treated through
   infection due to poor infection.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2105-1-5**] 09:04 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2105-1-5**] 09:04 AM
   Lansoprazole (Prevacid) - [**2105-1-5**] 09:04 AM
   Other medications:
   SSI
   amlodipine
   NaCl
   xopenex
   prednisone 30mg
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: No(t) Dysuria
   Psychiatric / Sleep: No(t) Agitated, No(t) Delirious
   Flowsheet Data as of  [**2105-1-5**] 02:11 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.3
C (97.3
   HR: 110 (85 - 128) bpm
   BP: 140/89(100) {75/45(50) - 161/108(120)} mmHg
   RR: 22 (14 - 37) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 68.6 kg (admission): 79.4 kg
   Height: 70 Inch
             Total In:
                                                                  2,518 mL
                                                                  2,260 mL
   PO:
             TF:
                                                                  1,688 mL
                                                                    920 mL
   IVF:
                                                                    580 mL
                                                                  1,340 mL
   Blood products:
   Total out:
                                                                  1,805 mL
                                                                    775 mL
   Urine:
                                                                  1,805 mL
                                                                    775 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    713 mL
                                                                  1,485 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///34/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Breath Sounds: Crackles : bibasilary, Diminished:
   )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: No(t) Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   396 K/uL
   105 mg/dL
   0.6 mg/dL
   34 mEq/L
   3.8 mEq/L
   20 mg/dL
   106 mEq/L
   143 mEq/L
   28.2 %
   8.2 K/uL
        [image002.jpg]
                            [**2104-12-27**]  12:43 AM
                            [**2104-12-27**]  08:37 PM
                            [**2104-12-28**]  04:00 AM
                            [**2104-12-29**]  03:12 AM
                            [**2104-12-30**]  04:25 AM
                            [**2104-12-31**]  04:36 AM
                            [**2105-1-1**]  04:30 AM
                            [**2105-1-3**]  04:00 AM
                            [**2105-1-4**]  03:03 AM
                            [**2105-1-5**]  04:38 AM
   WBC
   8.2
   9.6
   8.3
   5.5
   7.2
   9.2
   8.2
   Hct
   27.4
   27.5
   28.6
   32.1
   28.6
   30.8
   28.2
   Plt
   295
   298
   344
   333
   390
   437
   396
   Cr
   0.8
   0.7
   0.8
   0.7
   0.7
   0.7
   0.7
   0.6
   TCO2
   39
   Glucose
   107
   142
   120
   110
   107
   95
   105
   135
   92
   105
   Other labs: PT / PTT / INR:14.0/36.1/1.2, CK / CKMB /
   Troponin-T:191/11/0.08, ALT / AST:20/25, Alk Phos / T Bili:60/0.6,
   Differential-Neuts:79.3 %, Lymph:11.0 %, Mono:7.6 %, Eos:2.0 %, Lactic
   Acid:1.0 mmol/L, Albumin:3.6 g/dL, LDH:454 IU/L, Ca++:8.7 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   COPD:  On steroid taper.   Continue advair and nebs.
   Coag negative staph bacteremia:  On vanco treating through line.
   ETOH abuse:
   ICU Care
   Nutrition:
   Comments: MS [**First Name (Titles) 912**] [**Last Name (Titles) 3890**] speech and swallow.
   Glycemic Control:
   Lines:
   PICC Line - [**2105-1-2**] 01:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2105-01-06 05:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FLUOROSCOPY - At [**2105-1-5**] 04:01 PM
   post pyloric dobhoff placed
     * dobhoff tube placed
     * Regarding guradianship: [**Year (4 digits) **] paged ([**First Name8 (NamePattern2) 670**] [**Last Name (NamePattern1) **]), Dr [**Last Name (STitle) 347**]
       filled out paperwork, returned to case management.
     * Vanco dose increased
     * S/S eval ordered.
     * Called to bedside this am for diaphoresis, belly breathing, pt.
       stated he was comfortable, breathing was okay, moving lots of air
       on exam
 one of his typical episodes and resolved with seroquel
       and time.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2105-1-5**] 08:00 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2105-1-5**] 09:04 AM
   Heparin Sodium (Prophylaxis) - [**2105-1-6**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-1-6**] 05:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98
   HR: 94 (85 - 128) bpm
   BP: 98/56(67) {98/56(66) - 201/119(133)} mmHg
   RR: 20 (14 - 37) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.6 kg (admission): 79.4 kg
   Height: 70 Inch
             Total In:
                                                                  3,350 mL
                                                                    874 mL
   PO:
             TF:
                                                                  1,560 mL
                                                                    360 mL
   IVF:
                                                                  1,690 mL
                                                                     54 mL
   Blood products:
   Total out:
                                                                  2,185 mL
                                                                    355 mL
   Urine:
                                                                  2,185 mL
                                                                    355 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,165 mL
                                                                    519 mL
   Respiratory support
   SpO2: 100%
   ABG: ///34/
   Physical Examination
   General Appearance: No acute distress, Thin,
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, dubhoff tube in place
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: Good air movement, some wheezing.  Able to speak
   in full sentences.
   Abdominal: Soft, Non-tender, Bowel sounds present
   Neurologic: Attentive, conversational. Follows simple commands. Not
   Oriented. Moves all extremities spontaneously.
   Labs / Radiology
   381 K/uL
   8.0 g/dL
   113 mg/dL
   0.7 mg/dL
   34 mEq/L
   4.3 mEq/L
   17 mg/dL
   102 mEq/L
   140 mEq/L
   25.6 %
   6.7 K/uL
        [image002.jpg]
                            [**2104-12-27**]  08:37 PM
                            [**2104-12-28**]  04:00 AM
                            [**2104-12-29**]  03:12 AM
                            [**2104-12-30**]  04:25 AM
                            [**2104-12-31**]  04:36 AM
                            [**2105-1-1**]  04:30 AM
                            [**2105-1-3**]  04:00 AM
                            [**2105-1-4**]  03:03 AM
                            [**2105-1-5**]  04:38 AM
                            [**2105-1-6**]  03:08 AM
   WBC
   8.2
   9.6
   8.3
   5.5
   7.2
   9.2
   8.2
   6.7
   Hct
   27.4
   27.5
   28.6
   32.1
   28.6
   30.8
   28.2
   25.6
   Plt
   295
   298
   344
   333
   390
   437
   396
   381
   Cr
   0.8
   0.7
   0.8
   0.7
   0.7
   0.7
   0.7
   0.6
   0.7
   Glucose
   142
   120
   110
   107
   95
   105
   135
   92
   105
   113
   Other labs: Ca++:9.3 mg/dL, Mg++:2.3 mg/dL, PO4:3.3 mg/dL
   Micro: Blood culture from [**1-2**] growing Coag neg Staph
   Assessment and Plan
   64 yo M transferred back to the MICU with complicated PMH including
   COPD, EtOH abuse admitted with SOB, left AMA and had a seizure in
   lobby, with PEA arrest with subsequent hospital course complicated by
   PTX s/p chest tubes, AMS/agitation, respiratory distress and coag
   negative staph bacteremia.
   .
   # Dyspnea / COPD exacerbation:  He has been improving since IV steroid
   course and now with stable respiratory status on prednisone taper,
   though he continues to have daily episodes of tachypnea, wheezing,
   belly breathing, and diaphoresis.  These episodes usually occur at
   night when he is awakened by nursing for bed turns or labs and resolve
   with nebs and seroquel.  He was transferred back to the ICU from the
   floor for similar episodes.  This morning he was moving more air in his
   lungs than usual and stated that he was comfortable.  Previous episodes
   have demonstratred normal ABGs.
   -cont. lower dose of seroquel 100 mg TID  b/c of episode of somnolence
   on [**1-4**].
   -continue xopenex and ipratropium nebulizers
   -continue slow prednisone taper with Prednisone 30mg PO qday then 20 mg
   qday starting [**1-8**]
   .
   # Altered Mental Status/Bipolar disorder:  Reason Most likely due to
   underlying psychiatric diagnosis, bipolar vs schizoaffective disorder,
   as well as superimposed delirium [**3-15**] long ICU
   stay/bacteremia/intubation/IV steroids.  He had MRI brain without
   evidence of anoxic brain injury or other causes to explain
   encephalopathy that was performed a couple of weeks after his cardiac
   arrest.  Due to this interval time period, the team does not feel that
   a second MRI would be beneficial or suggest alternative causes for
   continued AMS.  Additionally, patient would need to be re-intubated for
   MRI.
   -          continue seroquel
   -          appreciate psych input
   .
   #Coag negative staph Bacteremia:  New cultures from [**1-2**] positive with
   unclear source.  Has had extensive workup in the past with TTE X 2
   (most recent [**12-29**]), LENIs with imaging of femoral arteries to assess
   for aneurysm, MRI of head and C-spine without evidence of abscess.  Pt
   would not tolerate repeat MRI or TEE at this point without
   re-intubation.    Vanco dose has been increased, will recheck level.
   -continue vancomycin to complete a 6-week course after last positive
   blood culture
   - would favor treating through [**Last Name **] problem of poor venous access
   - appreciate ID input
   .
   # Hypertension: prior to this admission was on lisinopril and atenolol,
   blood pressure improved on current regimen although he does become very
   hypertensive w/agitated episodes, which resolves w/seroquel.
   - on Lisinopril 10mg PO qday, Amlodipine 5mg PO qday: follow BP, if too
   low w/10 of lisinopril, consider decreasing dose (not 1:1dosing with
   captopril).
   - use seroquel for hypertension associated with episodes of agitation.
   .
   # Abnormal neuro exam: Imaging and EEG have shown no explanation for
   persistent encephalopathy and abnormal reflexes. However, with
   treatment for bacteremia and seroquel for agitation with improvement in
   mental status, the patient's neuro exam has begun to improve. Of note,
   he did have an EMG that was concerning for polyneuropathy. B12 was
   normal.
   - appreciate neuro recs
   - monitor mental status and neuro exam
   . .
   # s/p cardiac arrest: Cause unknown, a seizure may have been a
   component of the initial picture given his unresponsiveness, abnormal
   movements, and incontinence. Per his family, he has had cardiac arrests
   in the past. He is now s/p paralysis and sedation for the cardiac
   arrest cooling protocol. He was started on an amiodarone gtt which has
   since been d/c'd. He had a head CT after he was rewarmed that was
   unremarkable.
   - continue aspirin
   - beta blocker is being held due to COPD exacerbation and respiratory
   distress
   - continue telemetry
    .
   # ETOH abuse: unknown history of withdrawal seizures or DTs. Arrest may
   have been due to withdrawal seizure given timing to serum etoh levels
   on day of event.   Has been off benzo
s now for a few weeks.
   -continue folate, thiamine, MVI
   ..
   # History of alcoholic hepatitis: No LFTs in many years, but normal on
   check [**2104-12-4**].
   .
   # FEN:  failed a speech and swallow evaluation on [**12-31**]; Dubhoff placed
   [**1-5**]; Passed swallow eval on [**1-6**]: start with ground solids (due to
   lack of teeth) and thin liquids, 1:1 with foods to watch for aspiration
   and CXR on [**1-8**].  Cont. TF for now until patient can take adequate POs
   and it is clear that the patient is not aspirating.
   .
   #Medical decision making: Given the patient's inability to communicate
   his own wishes, his son is currently pursuing guardianship. call
   [**First Name9 (NamePattern2) 3793**] [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **] 7-1888 on friday. attorney @[**Hospital1 **] [**First Name8 (NamePattern2) **]
   [**Last Name (NamePattern1) **]  .
   .
   Dispo: Appropriate for rehab. Screening in progress.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2105-1-2**] 01:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2105-01-06 12:08:00 Physician Attending Progress Note
Chief Complaint: respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   64 yo man with respiratory failure, PEA arrest, complicated hospital
   course
   24 Hour Events:
 FLUOROSCOPY - At [**2105-1-5**] 04:01 PM
   post pyloric dobhoff placed '
   Episode of respriatory distress yesterdau resolved with seroquel.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2105-1-6**] 09:55 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2105-1-6**] 09:54 AM
   Heparin Sodium (Prophylaxis) - [**2105-1-6**] 09:54 AM
   Other medications:
   glargine/SSI
   zonpenex
   norvasc
   thiamine
   prevacid
   asa
   atrovent
   lisinopril
   prednisone 30 qd
   seroquel
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: No(t) Dyspnea
   Flowsheet Data as of  [**2105-1-6**] 12:08 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 35.7
C (96.3
   HR: 109 (87 - 122) bpm
   BP: 144/77(92) {98/56(66) - 201/125(133)} mmHg
   RR: 25 (15 - 37) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 68.6 kg (admission): 79.4 kg
   Height: 70 Inch
             Total In:
                                                                  3,352 mL
                                                                  1,897 mL
   PO:
             TF:
                                                                  1,562 mL
                                                                    957 mL
   IVF:
                                                                  1,690 mL
                                                                    420 mL
   Blood products:
   Total out:
                                                                  2,185 mL
                                                                    745 mL
   Urine:
                                                                  2,185 mL
                                                                    745 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,167 mL
                                                                  1,152 mL
   Respiratory support
   SpO2: 95%
   ABG: ///34/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : b/l )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed, confused
   Labs / Radiology
   8.0 g/dL
   381 K/uL
   113 mg/dL
   0.7 mg/dL
   34 mEq/L
   4.3 mEq/L
   17 mg/dL
   102 mEq/L
   140 mEq/L
   25.6 %
   6.7 K/uL
        [image002.jpg]
                            [**2104-12-27**]  08:37 PM
                            [**2104-12-28**]  04:00 AM
                            [**2104-12-29**]  03:12 AM
                            [**2104-12-30**]  04:25 AM
                            [**2104-12-31**]  04:36 AM
                            [**2105-1-1**]  04:30 AM
                            [**2105-1-3**]  04:00 AM
                            [**2105-1-4**]  03:03 AM
                            [**2105-1-5**]  04:38 AM
                            [**2105-1-6**]  03:08 AM
   WBC
   8.2
   9.6
   8.3
   5.5
   7.2
   9.2
   8.2
   6.7
   Hct
   27.4
   27.5
   28.6
   32.1
   28.6
   30.8
   28.2
   25.6
   Plt
   295
   298
   344
   333
   390
   437
   396
   381
   Cr
   0.8
   0.7
   0.8
   0.7
   0.7
   0.7
   0.7
   0.6
   0.7
   Glucose
   142
   120
   110
   107
   95
   105
   135
   92
   105
   113
   Other labs: PT / PTT / INR:14.0/36.1/1.2, CK / CKMB /
   Troponin-T:191/11/0.08, ALT / AST:20/25, Alk Phos / T Bili:60/0.6,
   Differential-Neuts:79.3 %, Lymph:11.0 %, Mono:7.6 %, Eos:2.0 %, Lactic
   Acid:1.0 mmol/L, Albumin:3.6 g/dL, LDH:454 IU/L, Ca++:9.3 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.3 mg/dL
   Microbiology: [**12-24**]  Coag negative staph
   Assessment and Plan
   Respiratory failure:  COPD, VAP.  Continue to taper steroids.
   Delerium:  Still confused, unclear what amount is due to anoxic brain
   injury and how much is recoverable.
   Guardianship paperwork pending.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2105-1-6**] 04:27 AM 80 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2105-1-2**] 01:25 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2105-01-07 05:39:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2105-1-7**] 04:28 AM
   - passed speech & swallow eval; CXR ordered for [**1-8**] am to check for
   aspiration
   - pm vanc level 16, but was drawn 1.5 hours early; pm trough ordered
   for tonight again
   - pm hct improved
   - respiratory agitation events continued overnight, received at least
   two 50mg doses of Seroquel PRN and 1mg Ativan for agitation.
   Allergies:
   No Known Drug Allergies
   Antibiotics:
   Vancomycin
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2105-1-6**] 09:54 AM
   Heparin Sodium (Prophylaxis) - [**2105-1-7**] 12:22 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Unable to assess
   Flowsheet Data as of  [**2105-1-7**] 05:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.2
C (97.2
   HR: 91 (84 - 117) bpm
   BP: 83/57(62) {83/57(62) - 161/125(133)} mmHg
   RR: 15 (15 - 35) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.6 kg (admission): 79.4 kg
   Height: 70 Inch
             Total In:
                                                                  3,518 mL
                                                                  1,016 mL
   PO:
                                                                    120 mL
             TF:
                                                                  1,928 mL
                                                                    429 mL
   IVF:
                                                                    790 mL
                                                                     56 mL
   Blood products:
   Total out:
                                                                  2,825 mL
                                                                    280 mL
   Urine:
                                                                  2,825 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    693 mL
                                                                    736 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   Physical Examination
   General Appearance: Sleeping, not able to waken but withdraws from
   painful stimuli.  No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, dubhoff tube in place
   Cardiovascular: RRR, no m/r/g
   Respiratory / Chest: Poor  air movement b/l
   Abdominal: Soft, Non-tender, Bowel sounds present
   Neurologic: Sleeping, not arousable but moves all 4 extremities to
   irritating stimuli.
   Labs / Radiology
   402 K/uL
   10.2 g/dL
   104 mg/dL
   0.7 mg/dL
   33 mEq/L
   4.0 mEq/L
   19 mg/dL
   99 mEq/L
   138 mEq/L
   29.5 %
   8.5 K/uL
        [image002.jpg]
                            [**2104-12-29**]  03:12 AM
                            [**2104-12-30**]  04:25 AM
                            [**2104-12-31**]  04:36 AM
                            [**2105-1-1**]  04:30 AM
                            [**2105-1-3**]  04:00 AM
                            [**2105-1-4**]  03:03 AM
                            [**2105-1-5**]  04:38 AM
                            [**2105-1-6**]  03:08 AM
                            [**2105-1-6**]  03:45 PM
                            [**2105-1-7**]  04:17 AM
   WBC
   9.6
   8.3
   5.5
   7.2
   9.2
   8.2
   6.7
   8.5
   Hct
   27.5
   28.6
   32.1
   28.6
   30.8
   28.2
   25.6
   29.2
   29.5
   Plt
   298
   344
   333
   390
   437
   396
   381
   402
   Cr
   0.7
   0.8
   0.7
   0.7
   0.7
   0.7
   0.6
   0.7
   0.7
   Glucose
   110
   107
   95
   105
   135
   92
   105
   113
   104
   Other labs:
   Ca++:8.9 mg/dL, Mg++:2.0 mg/dL, PO4:3.9 mg/dL
   Vanco trough: 16.7
   CXR: NAD, no change from prior
   Assessment and Plan
   64 yo M transferred back to the MICU with complicated PMH including
   COPD, EtOH abuse admitted with SOB, left AMA and had a seizure in
   lobby, with PEA arrest with subsequent hospital course complicated by
   PTX s/p chest tubes, AMS/agitation, respiratory distress and coag
   negative staph bacteremia.
   .
   # Dyspnea / Respiratory Distress:  He had been improving throughout IV
   steroid course and now with stable respiratory status on prednisone
   taper, though he continues to have daily episodes of tachypnea,
   wheezing, belly breathing, and diaphoresis.  These episodes usually
   occur at night when he is awakened by nursing for bed turns or labs and
   resolve with nebs and seroquel.  He was transferred back to the ICU
   from the floor for similar episodes.  Last night he had one such
   episode that resolved with 2 PRN doses of 50mg of Seoquel and 1 dose of
   1mg of Ativan.  This morning he was not moving air well but that is
   likely due to the fact that he was due to have a nebulizer treatment.
   Previous episodes have demonstratred normal ABGs.
   -Considering Seroquel dose was lowered two days ago and prns were
   needed, will increase am and qhs seroquel doses t o150mg and f/u
   w/psych recommendations RE treating agitation.
   -continue xopenex and ipratropium nebulizers
   -continue slow prednisone taper with Prednisone 30mg PO qday then 20 mg
   qday starting [**1-8**]
   .
   # Altered Mental Status/Bipolar disorder:  Reason Most likely due to
   underlying psychiatric diagnosis, bipolar vs schizoaffective disorder,
   as well as superimposed delirium [**3-15**] long ICU
   stay/bacteremia/intubation/IV steroids.  He had MRI brain without
   evidence of anoxic brain injury or other causes to explain
   encephalopathy that was performed a couple of weeks after his cardiac
   arrest.  Due to this interval time period, the team does not feel that
   a second MRI would be beneficial or suggest alternative causes for
   continued AMS.  Additionally, patient would need to be re-intubated for
   MRI.
   -          continue seroquel  at increased am and qhs doses.
   -          appreciate psych input
   .
   #Coag negative staph Bacteremia:  New cultures from [**1-2**] positive with
   unclear source.  Has had extensive workup in the past with TTE X 2
   (most recent [**12-29**]), LENIs with imaging of femoral arteries to assess
   for aneurysm, MRI of head and C-spine without evidence of abscess.  Pt
   would not tolerate repeat MRI or TEE at this point without
   re-intubation.    Vanco dose has been increased, will recheck level.
   -continue vancomycin to complete a 6-week course after last positive
   blood culture
   -appreciate ID input
   -will replace picc with one in other arm
   -if additional BCx come back positive, would favor treating through
   [**Last Name **] problem of poor venous access\
   .
   # Hypertension: prior to this admission was on lisinopril and atenolol,
   blood pressure improved on current regimen although he does become very
   hypertensive w/agitated episodes, which resolves w/seroquel.  On
   Lisinopril 10mg PO qday, Amlodipine 5mg PO qday
   - BP has been relatively low w/10mg of Lisinopril, can decrease to 5mg
   Lisinopril PO.
   - use Seroquel for hypertension associated with episodes of agitation.
   .
   # Abnormal neuro exam: Imaging and EEG have shown no explanation for
   persistent encephalopathy and abnormal reflexes. However, with
   treatment for bacteremia and seroquel for agitation with improvement in
   mental status, the patient's neuro exam has begun to improve. Of note,
   he did have an EMG that was concerning for polyneuropathy. B12 was
   normal.
   - appreciate neuro recs
   - monitor mental status and neuro exam
   . .
   # s/p cardiac arrest: Cause unknown, a seizure may have been a
   component of the initial picture given his unresponsiveness, abnormal
   movements, and incontinence. Per his family, he has had cardiac arrests
   in the past. He is now s/p paralysis and sedation for the cardiac
   arrest cooling protocol. He was started on an amiodarone gtt which has
   since been d/c'd. He had a head CT after he was rewarmed that was
   unremarkable.
   - continue aspirin
   - beta blocker is being held due to COPD exacerbation and respiratory
   distress. To consider re-starting today or tomorrow if patient is
   tachycardic/if bp allows.
   .
   # ETOH abuse: unknown history of withdrawal seizures or DTs. Arrest may
   have been due to withdrawal seizure given timing to serum etoh levels
   on day of event.   Has been off benzo
s now for a few weeks.
   -continue folate, thiamine, MVI
   ..
   # History of alcoholic hepatitis: No LFTs in many years, but normal on
   check [**2104-12-4**].
   .
   # FEN:  failed a speech and swallow evaluation on [**12-31**]; Dubhoff placed
   [**1-5**]; Passed swallow eval on [**1-6**]: start with ground solids (due to
   lack of teeth) and thin liquids, 1:1 with foods to watch for aspiration
   and CXR on [**1-8**].  Cont. TF for now until patient can take adequate POs
   and it is clear that the patient is not aspirating.  CXR today was
   normal
   -f/u CXR tomorrow.
   .
   #Medical decision making: Given the patient's inability to communicate
   his own wishes, his son is currently pursuing guardianship. call
   [**First Name9 (NamePattern2) 3793**] [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **] 7-1888 on friday. attorney @[**Hospital1 **] [**First Name8 (NamePattern2) **]
   [**Last Name (NamePattern1) **]  .
   .
   #PPX: heparin sc, PPI, bowel regimen.
   .
   #Dispo: Appropriate for rehab. Screening in progress.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2105-1-2**] 01:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2105-01-07 09:35:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   64 yo man with severe COPD, admitted with exacerbation, complicated by
   PEA arrest, prolonged hospitalization.
   24 Hour Events:
 BLOOD CULTURED - At [**2105-1-7**] 04:28 AM
   Episode of respiratory distress last night, required multiple doses of
   seroquel to reduce agitation.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2105-1-7**] 08:32 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2105-1-7**] 06:25 AM
   Lansoprazole (Prevacid) - [**2105-1-7**] 08:32 AM
   Heparin Sodium (Prophylaxis) - [**2105-1-7**] 08:32 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: No(t) Dyspnea
   Flowsheet Data as of  [**2105-1-7**] 09:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.2
C (97.2
   HR: 101 (84 - 117) bpm
   BP: 86/58(65) {72/50(56) - 216/119(127)} mmHg
   RR: 15 (15 - 31) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 68.6 kg (admission): 79.4 kg
   Height: 70 Inch
             Total In:
                                                                  3,521 mL
                                                                  1,797 mL
   PO:
                                                                    120 mL
             TF:
                                                                  1,931 mL
                                                                    753 mL
   IVF:
                                                                    790 mL
                                                                    394 mL
   Blood products:
   Total out:
                                                                  2,825 mL
                                                                    420 mL
   Urine:
                                                                  2,825 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    696 mL
                                                                  1,378 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///33/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, Movement: Not assessed, Tone: Not assessed,
   sedated, responsive only to pain
   Labs / Radiology
   10.2 g/dL
   402 K/uL
   104 mg/dL
   0.7 mg/dL
   33 mEq/L
   4.0 mEq/L
   19 mg/dL
   99 mEq/L
   138 mEq/L
   29.5 %
   8.5 K/uL
        [image002.jpg]
                            [**2104-12-29**]  03:12 AM
                            [**2104-12-30**]  04:25 AM
                            [**2104-12-31**]  04:36 AM
                            [**2105-1-1**]  04:30 AM
                            [**2105-1-3**]  04:00 AM
                            [**2105-1-4**]  03:03 AM
                            [**2105-1-5**]  04:38 AM
                            [**2105-1-6**]  03:08 AM
                            [**2105-1-6**]  03:45 PM
                            [**2105-1-7**]  04:17 AM
   WBC
   9.6
   8.3
   5.5
   7.2
   9.2
   8.2
   6.7
   8.5
   Hct
   27.5
   28.6
   32.1
   28.6
   30.8
   28.2
   25.6
   29.2
   29.5
   Plt
   298
   344
   333
   390
   437
   396
   381
   402
   Cr
   0.7
   0.8
   0.7
   0.7
   0.7
   0.7
   0.6
   0.7
   0.7
   Glucose
   110
   107
   95
   105
   135
   92
   105
   113
   104
   Other labs: PT / PTT / INR:14.0/36.1/1.2, CK / CKMB /
   Troponin-T:191/11/0.08, ALT / AST:20/25, Alk Phos / T Bili:60/0.6,
   Differential-Neuts:79.3 %, Lymph:11.0 %, Mono:7.6 %, Eos:2.0 %, Lactic
   Acid:1.0 mmol/L, Albumin:3.6 g/dL, LDH:454 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   Agitation:  currently sedated due to multiple doses of seroquel.  Will
   try to increase dose of seroquel at night.
   COPD:  Continue to wean steroids q 3 days.
   Coag negative staph bacteremia:  cultures negative since [**1-2**].
   HTN:  On lisinopril, being held due to low BP today associated with
   ETOH Abuse.
   F/E/N: PO diet and calorie count when awake.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2105-1-7**] 05:18 AM 80 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2105-1-2**] 01:25 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2105-01-08 06:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
          Tachycardic w/ movement back down to 90s w/ rest
          Increased  seroquel standing dose - also getting 25mg Q2h
   for PRN
          Called picc nurse, difficult access on contralateral side,
   did not d/c picc b/c will need IR to place new one.
   Allergies:
   No Known Drug Allergies
   Antibiotics:
   Vancomycin
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2105-1-7**] 08:32 AM
   Heparin Sodium (Prophylaxis) - [**2105-1-8**] 12:37 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-1-8**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.1
C (97
   HR: 97 (89 - 131) bpm
   BP: 121/75(84) {72/43(52) - 162/108(113)} mmHg
   RR: 17 (14 - 36) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.6 kg (admission): 79.4 kg
   Height: 70 Inch
             Total In:
                                                                  4,074 mL
                                                                    910 mL
   PO:
             TF:
                                                                  1,924 mL
                                                                    503 mL
   IVF:
                                                                    790 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                  2,220 mL
                                                                    800 mL
   Urine:
                                                                  2,220 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,854 mL
                                                                    110 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///33/
   Physical Examination
   General Appearance: Awake, alert, conversational though difficult to
   understand.  No acute distress though slightly diaphoretic.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, dubhoff tube in place
   Cardiovascular: RRR, no m/r/g
   Respiratory / Chest: Poor air movement b/l. Breathing comfortably.
   Abdominal: Soft, Non-tender, Bowel sounds present
   Neurologic: AAA, oriented x2, moving all 4 extremities.
   Labs / Radiology
   391 K/uL
   10.6 g/dL
   91 mg/dL
   0.6 mg/dL
   33 mEq/L
   4.3 mEq/L
   19 mg/dL
   99 mEq/L
   138 mEq/L
   30.5 %
   9.0 K/uL
        [image002.jpg]
                            [**2104-12-30**]  04:25 AM
                            [**2104-12-31**]  04:36 AM
                            [**2105-1-1**]  04:30 AM
                            [**2105-1-3**]  04:00 AM
                            [**2105-1-4**]  03:03 AM
                            [**2105-1-5**]  04:38 AM
                            [**2105-1-6**]  03:08 AM
                            [**2105-1-6**]  03:45 PM
                            [**2105-1-7**]  04:17 AM
                            [**2105-1-8**]  03:52 AM
   WBC
   8.3
   5.5
   7.2
   9.2
   8.2
   6.7
   8.5
   9.0
   Hct
   28.6
   32.1
   28.6
   30.8
   28.2
   25.6
   29.2
   29.5
   30.5
   Plt
   344
   333
   390
   437
   396
   381
   402
   391
   Cr
   0.8
   0.7
   0.7
   0.7
   0.7
   0.6
   0.7
   0.7
   0.6
   Glucose
   107
   95
   105
   135
   92
   105
   113
   104
   91
   Other labs:
   Vanco trough: 18.3
   CXR: NAD, picc catheter now migrated out of SVC and up into neck veins
   Assessment and Plan
   64 yo M transferred back to the MICU with complicated PMH including
   COPD, EtOH abuse admitted with SOB, left AMA and had a seizure in
   lobby, with PEA arrest with subsequent hospital course complicated by
   PTX s/p chest tubes, AMS/agitation, respiratory distress and coag
   negative staph bacteremia.
   .
   #1 Dyspnea / Respiratory Distress:  He had been improving throughout IV
   steroid course and now with stable respiratory status on prednisone
   taper, though he continues to have daily episodes of tachypnea,
   wheezing, belly breathing, and diaphoresis.  These episodes usually
   occur at night when he is awakened by nursing for bed turns or labs and
   resolve with nebs and seroquel.  He was transferred back to the ICU
   from the floor for similar episodes.  Last night he had one such
   episode that resolved with 2 PRN doses of 50mg of Seoquel and 1 dose of
   1mg of Ativan.  This morning and last he was not moving air well but
   that is likely due to the fact that he was due to have a nebulizer
   treatment.  Previous episodes have demonstratred normal ABGs.
   -Considering Seroquel dose was lowered three days ago and although
   increased yesterday prns were needed, will increase doses to
   200/150/200 w/25mg PRNs (with total of 800mg daily MAX) and f/u w/psych
   recommendations RE treating agitation.
   -continue xopenex and ipratropium nebulizers
   -continue slow prednisone taper with Prednisone 30mg PO qday then 20 mg
   qday starting [**1-8**]
   .
   #2 Altered Mental Status/Bipolar disorder:  Reason Most likely due to
   underlying psychiatric diagnosis, bipolar vs schizoaffective disorder,
   as well as superimposed delirium [**3-15**] long ICU
   stay/bacteremia/intubation/IV steroids.  He had MRI brain without
   evidence of anoxic brain injury or other causes to explain
   encephalopathy that was performed a couple of weeks after his cardiac
   arrest.  Due to this interval time period, the team does not feel that
   a second MRI would be beneficial or suggest alternative causes for
   continued AMS.  Additionally, patient would need to be re-intubated for
   MRI.
   -          continue seroquel  at increased doses.
   -          appreciate psych input
   .
   #3 Coag negative staph Bacteremia:  New cultures from [**1-2**] positive
   with unclear source.  Has had extensive workup in the past with TTE X 2
   (most recent [**12-29**]), LENIs with imaging of femoral arteries to assess
   for aneurysm, MRI of head and C-spine without evidence of abscess.  Pt
   would not tolerate repeat MRI or TEE at this point without
   re-intubation.    Vanco dose has been increased, will recheck level.
   -continue vancomycin to complete a 6-week course after last positive
   blood culture
   -appreciate ID input
   -will replace picc with one in other arm tomorrow (in IR) if BCx from
   [**1-4**] still pending or turns positive
   -if additional BCx come back positive after PICC replaced, team would
   favor treating through [**Last Name **] problem of poor venous access
   .
   # Hypertension: prior to this admission was on lisinopril and atenolol,
   blood pressure improved on current regimen although he does become very
   hypertensive w/agitated episodes, which resolves w/seroquel.  On
   Amlodipine 5mg PO qday.  BP was relatively low w/10mg of Lisinopril,
   decreased to 5mg Lisinopril PO and BPs have been stable.
   - use Seroquel PRN for hypertension associated with episodes of
   agitation.
   .
   # Abnormal neuro exam: Imaging and EEG have shown no explanation for
   persistent encephalopathy and abnormal reflexes. However, with
   treatment for bacteremia and seroquel for agitation with improvement in
   mental status, the patient's neuro exam has begun to improve. Of note,
   he did have an EMG that was concerning for polyneuropathy. B12 was
   normal.
   - appreciate neuro recs
   - monitor mental status and neuro exam
   . .
   # s/p cardiac arrest: Cause unknown, a seizure may have been a
   component of the initial picture given his unresponsiveness, abnormal
   movements, and incontinence. Per his family, he has had cardiac arrests
   in the past. He is now s/p paralysis and sedation for the cardiac
   arrest cooling protocol. He was started on an amiodarone gtt which has
   since been d/c'd. He had a head CT after he was rewarmed that was
   unremarkable.
   - continue aspirin
   - beta blocker is being held due to COPD exacerbation and respiratory
   distress. To consider re-starting today or tomorrow if patient is
   tachycardic/if bp allows.
   .
   # ETOH abuse: unknown history of withdrawal seizures or DTs. Arrest may
   have been due to withdrawal seizure given timing to serum etoh levels
   on day of event.   Has been off benzo
s now for a few weeks.
   -continue folate, thiamine, MVI
   .
   # History of alcoholic hepatitis: No LFTs in many years, but normal on
   check [**2104-12-4**].
   .
   # FEN:  failed a speech and swallow evaluation on [**12-31**]; Dubhoff placed
   [**1-5**]; Passed swallow eval on [**1-6**]: start with ground solids (due to
   lack of teeth) and thin liquids, 1:1 with foods to watch for aspiration
   and CXR on [**1-8**].  Cont. TF for now until patient can take adequate POs
   and it is clear that the patient is not aspirating.  CXR today was
   normal
   -f/u CXR tomorrow.
   .
   #Medical decision making: Given the patient's inability to communicate
   his own wishes, his son is currently pursuing guardianship. call
   [**First Name9 (NamePattern2) 3793**] [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **] 7-1888 on friday. attorney @[**Hospital1 **] [**First Name8 (NamePattern2) **]
   [**Last Name (NamePattern1) **]  .
   .
   #PPX: heparin sc, PPI, bowel regimen.
   .
   #Dispo: Appropriate for rehab. Screening in progress.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2105-1-2**] 01:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2105-01-08 11:31:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   64 yo man with severe COPD, prolonged hospital stay after PEA arrest
   24 Hour Events:
   Agitated during the day yesterday requiring frequent dosing of
   seroquel.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2105-1-7**] 08:36 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2105-1-8**] 09:20 AM
   Lansoprazole (Prevacid) - [**2105-1-8**] 10:20 AM
   Other medications:
   prednisone 20mg po qd
   atrovent/zoponex
   thiamine
   norvasc
   SSI
   prevacid
   asa
   lisinopril
   seroquel
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-1-8**] 11:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.3
C (97.3
   HR: 99 (82 - 131) bpm
   BP: 156/49(75) {82/43(52) - 170/90(106)} mmHg
   RR: 27 (14 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.6 kg (admission): 79.4 kg
   Height: 70 Inch
             Total In:
                                                                  4,074 mL
                                                                  1,445 mL
   PO:
             TF:
                                                                  1,924 mL
                                                                    893 mL
   IVF:
                                                                    790 mL
                                                                    112 mL
   Blood products:
   Total out:
                                                                  2,220 mL
                                                                  1,220 mL
   Urine:
                                                                  2,220 mL
                                                                  1,220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,854 mL
                                                                    225 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///33/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Wheezes : b/l, Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.6 g/dL
   391 K/uL
   91 mg/dL
   0.6 mg/dL
   33 mEq/L
   4.3 mEq/L
   19 mg/dL
   99 mEq/L
   138 mEq/L
   30.5 %
   9.0 K/uL
        [image002.jpg]
                            [**2104-12-30**]  04:25 AM
                            [**2104-12-31**]  04:36 AM
                            [**2105-1-1**]  04:30 AM
                            [**2105-1-3**]  04:00 AM
                            [**2105-1-4**]  03:03 AM
                            [**2105-1-5**]  04:38 AM
                            [**2105-1-6**]  03:08 AM
                            [**2105-1-6**]  03:45 PM
                            [**2105-1-7**]  04:17 AM
                            [**2105-1-8**]  03:52 AM
   WBC
   8.3
   5.5
   7.2
   9.2
   8.2
   6.7
   8.5
   9.0
   Hct
   28.6
   32.1
   28.6
   30.8
   28.2
   25.6
   29.2
   29.5
   30.5
   Plt
   344
   333
   390
   437
   396
   381
   402
   391
   Cr
   0.8
   0.7
   0.7
   0.7
   0.7
   0.6
   0.7
   0.7
   0.6
   Glucose
   107
   95
   105
   135
   92
   105
   113
   104
   91
   Other labs: PT / PTT / INR:13.2/49.2/1.1, CK / CKMB /
   Troponin-T:191/11/0.08, ALT / AST:20/25, Alk Phos / T Bili:60/0.6,
   Differential-Neuts:79.3 %, Lymph:11.0 %, Mono:7.6 %, Eos:2.0 %, Lactic
   Acid:1.0 mmol/L, Albumin:3.6 g/dL, LDH:454 IU/L, Ca++:9.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   severe COPD:   Continues in intermittent SOB and agitation.  Continue
   prednisone taper.  Continue atrovent and zopenex
   agitation:  Continue seroquel standing and prn for agitation.
   coag neg staph bacteremia:  Follow-up cultures all negative.
   await placement to rehab.
   Will contact IV team about repositioning PIC
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2105-1-8**] 06:16 AM 80 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2105-1-2**] 01:25 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2105-01-09 05:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
     * Increased standing seroquel to match prns in effort to decrease the
       number of respiratory distress episodes.  Seroquel is now dosed at
       200/150/200 with 25-50mg Q6h with a max 24h total seroquel dose of
       800mg.
     * picc pulled back
     * very active in evening, trying to get out of bed
     * need to call psych today if continued problems with agitation v
       somnolence w/seroquel
   Allergies:
   No Known Drug Allergies
   Antibiotics:
   Vancomycin
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2105-1-8**] 10:20 AM
   Heparin Sodium (Prophylaxis) - [**2105-1-8**] 11:58 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-1-9**] 05:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.6
C (97.9
   HR: 89 (82 - 119) bpm
   BP: 132/79(92) {94/49(67) - 170/93(106)} mmHg
   RR: 16 (16 - 33) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.6 kg (admission): 79.4 kg
   Height: 70 Inch
             Total In:
                                                                  4,020 mL
                                                                    522 mL
   PO:
                                                                    360 mL
             TF:
                                                                  1,920 mL
                                                                    464 mL
   IVF:
                                                                    840 mL
                                                                     58 mL
   Blood products:
   Total out:
                                                                  3,470 mL
                                                                    480 mL
   Urine:
                                                                  3,470 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    550 mL
                                                                     42 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///38/
   Physical Examination
   General Appearance: Awake, alert, conversational though difficult to
   understand.  No acute distress though slightly diaphoretic.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, dubhoff tube in place
   Cardiovascular: RRR, no m/r/g
   Respiratory / Chest: Poor air movement b/l. Breathing comfortably.
   Abdominal: Soft, Non-tender, Bowel sounds present
   Neurologic: AAA, oriented x2, moving all 4 extremities.
   Labs / Radiology
   329 K/uL
   10.0 g/dL
   90 mg/dL
   0.7 mg/dL
   38 mEq/L
   4.0 mEq/L
   19 mg/dL
   98 mEq/L
   140 mEq/L
   30.1 %
   9.1 K/uL
        [image002.jpg]
                            [**2104-12-31**]  04:36 AM
                            [**2105-1-1**]  04:30 AM
                            [**2105-1-3**]  04:00 AM
                            [**2105-1-4**]  03:03 AM
                            [**2105-1-5**]  04:38 AM
                            [**2105-1-6**]  03:08 AM
                            [**2105-1-6**]  03:45 PM
                            [**2105-1-7**]  04:17 AM
                            [**2105-1-8**]  03:52 AM
                            [**2105-1-9**]  04:14 AM
   WBC
   5.5
   7.2
   9.2
   8.2
   6.7
   8.5
   9.0
   9.1
   Hct
   32.1
   28.6
   30.8
   28.2
   25.6
   29.2
   29.5
   30.5
   30.1
   Plt
   333
   390
   437
   396
   381
   402
   391
   329
   Cr
   0.7
   0.7
   0.7
   0.7
   0.6
   0.7
   0.7
   0.6
   0.7
   Glucose
   95
   105
   135
   92
   105
   113
   104
   91
   90
   Other labs: PT / PTT / INR:13.4/67.9/1.2, CK / CKMB /
   Troponin-T:191/11/0.08, ALT / AST:20/25, Alk Phos / T Bili:60/0.6,
   Differential-Neuts:79.1 %, Lymph:15.0 %, Mono:5.0 %, Eos:0.9 %, Lactic
   Acid:1.0 mmol/L, Albumin:3.6 g/dL, LDH:454 IU/L, Ca++:9.2 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   64 yo M transferred back to the MICU with complicated PMH including
   COPD, EtOH abuse admitted with SOB, left AMA and had a seizure in
   lobby, with PEA arrest with subsequent hospital course complicated by
   PTX s/p chest tubes, AMS/agitation, respiratory distress and coag
   negative staph bacteremia.
   .
   #1 Dyspnea / Respiratory Distress:  He had been improving throughout IV
   steroid course and now with stable respiratory status on prednisone
   taper, though he continues to have daily episodes of tachypnea,
   wheezing, belly breathing, and diaphoresis.  These episodes usually
   occur at night when he is awakened by nursing for bed turns or labs and
   resolve with nebs and seroquel.  He was transferred back to the ICU
   from the floor for similar episodes.  Last night he had one such
   episode that resolved with 2 PRN doses of 50mg of Seoquel and 1 dose of
   1mg of Ativan.  This morning and last he was not moving air well but
   that is likely due to the fact that he was due to have a nebulizer
   treatment.  Previous episodes have demonstratred normal ABGs.
   -Considering Seroquel dose was lowered three days ago and although
   increased yesterday prns were needed, will increase doses to
   200/150/200 w/25mg PRNs (with total of 800mg daily MAX) and f/u w/psych
   recommendations RE treating agitation.
   -continue xopenex and ipratropium nebulizers
   -continue slow prednisone taper with Prednisone 30mg PO qday then 20 mg
   qday starting [**1-8**]
   .
   #2 Altered Mental Status/Bipolar disorder:  Reason Most likely due to
   underlying psychiatric diagnosis, bipolar vs schizoaffective disorder,
   as well as superimposed delirium [**3-15**] long ICU
   stay/bacteremia/intubation/IV steroids.  He had MRI brain without
   evidence of anoxic brain injury or other causes to explain
   encephalopathy that was performed a couple of weeks after his cardiac
   arrest.  Due to this interval time period, the team does not feel that
   a second MRI would be beneficial or suggest alternative causes for
   continued AMS.  Additionally, patient would need to be re-intubated for
   MRI.
   -          continue seroquel  at increased doses.
   -          appreciate psych input
   .
   #3 Coag negative staph Bacteremia:  New cultures from [**1-2**] positive
   with unclear source.  Has had extensive workup in the past with TTE X 2
   (most recent [**12-29**]), LENIs with imaging of femoral arteries to assess
   for aneurysm, MRI of head and C-spine without evidence of abscess.  Pt
   would not tolerate repeat MRI or TEE at this point without
   re-intubation.    Vanco dose has been increased, will recheck level.
   -continue vancomycin to complete a 6-week course after last positive
   blood culture
   -appreciate ID input
   -will replace picc with one in other arm tomorrow (in IR) if BCx from
   [**1-4**] still pending or turns positive
   -if additional BCx come back positive after PICC replaced, team would
   favor treating through [**Last Name **] problem of poor venous access
   .
   # Hypertension: prior to this admission was on lisinopril and atenolol,
   blood pressure improved on current regimen although he does become very
   hypertensive w/agitated episodes, which resolves w/seroquel.  On
   Amlodipine 5mg PO qday.  BP was relatively low w/10mg of Lisinopril,
   decreased to 5mg Lisinopril PO and BPs have been stable.
   - use Seroquel PRN for hypertension associated with episodes of
   agitation.
   .
   # Abnormal neuro exam: Imaging and EEG have shown no explanation for
   persistent encephalopathy and abnormal reflexes. However, with
   treatment for bacteremia and seroquel for agitation with improvement in
   mental status, the patient's neuro exam has begun to improve. Of note,
   he did have an EMG that was concerning for polyneuropathy. B12 was
   normal.
   - appreciate neuro recs
   - monitor mental status and neuro exam
   . .
   # s/p cardiac arrest: Cause unknown, a seizure may have been a
   component of the initial picture given his unresponsiveness, abnormal
   movements, and incontinence. Per his family, he has had cardiac arrests
   in the past. He is now s/p paralysis and sedation for the cardiac
   arrest cooling protocol. He was started on an amiodarone gtt which has
   since been d/c'd. He had a head CT after he was rewarmed that was
   unremarkable.
   - continue aspirin
   - beta blocker is being held due to COPD exacerbation and respiratory
   distress. To consider re-starting today or tomorrow if patient is
   tachycardic/if bp allows.
   .
   # ETOH abuse: unknown history of withdrawal seizures or DTs. Arrest may
   have been due to withdrawal seizure given timing to serum etoh levels
   on day of event.   Has been off benzo
s now for a few weeks.
   -continue folate, thiamine, MVI
   .
   # History of alcoholic hepatitis: No LFTs in many years, but normal on
   check [**2104-12-4**].
   .
   # FEN:  failed a speech and swallow evaluation on [**12-31**]; Dubhoff placed
   [**1-5**]; Passed swallow eval on [**1-6**]: start with ground solids (due to
   lack of teeth) and thin liquids, 1:1 with foods to watch for aspiration
   and CXR on [**1-8**].  Cont. TF for now until patient can take adequate POs
   and it is clear that the patient is not aspirating.  CXR today was
   normal
   -f/u CXR tomorrow.
   .
   #Medical decision making: Given the patient's inability to communicate
   his own wishes, his son is currently pursuing guardianship. call
   [**First Name9 (NamePattern2) 3793**] [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **] 7-1888 on friday. attorney @[**Hospital1 **] [**First Name8 (NamePattern2) **]
   [**Last Name (NamePattern1) **]  .
   .
   #PPX: heparin sc, PPI, bowel regimen.
   .
   #Dispo: Appropriate for rehab. Screening in progress.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2105-1-8**] 06:43 PM 80 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2105-1-2**] 01:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2105-01-09 11:16:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   64 yo man with severe COPD, PEA arrest, prolonged hospitalization.
   Still with periodic agitation, but improved after increased dose of
   standing seroquel.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2105-1-9**] 08:45 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2105-1-8**] 11:58 PM
   Other medications:
   lantis
   prednisone 20mg
   vanco
   atrovent
   zopenex
   thiamine
   norvasc
   prevacid
   asa
   colace
   lisinopril
   seroquel
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: No(t) Dyspnea
   Flowsheet Data as of  [**2105-1-9**] 11:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.1
C (97
   HR: 97 (89 - 119) bpm
   BP: 108/70(79) {89/66(70) - 151/93(103)} mmHg
   RR: 21 (15 - 33) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.7 kg (admission): 79.4 kg
   Height: 70 Inch
             Total In:
                                                                  4,020 mL
                                                                  1,351 mL
   PO:
                                                                    360 mL
             TF:
                                                                  1,920 mL
                                                                    889 mL
   IVF:
                                                                    840 mL
                                                                    361 mL
   Blood products:
   Total out:
                                                                  3,470 mL
                                                                    775 mL
   Urine:
                                                                  3,470 mL
                                                                    775 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    550 mL
                                                                    576 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///38/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Wheezes : , Diminished: b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed, very
   sleep currently but earlier did PT for 1 hour
   Labs / Radiology
   10.0 g/dL
   329 K/uL
   90 mg/dL
   0.7 mg/dL
   38 mEq/L
   4.0 mEq/L
   19 mg/dL
   98 mEq/L
   140 mEq/L
   30.1 %
   9.1 K/uL
        [image002.jpg]
                            [**2104-12-31**]  04:36 AM
                            [**2105-1-1**]  04:30 AM
                            [**2105-1-3**]  04:00 AM
                            [**2105-1-4**]  03:03 AM
                            [**2105-1-5**]  04:38 AM
                            [**2105-1-6**]  03:08 AM
                            [**2105-1-6**]  03:45 PM
                            [**2105-1-7**]  04:17 AM
                            [**2105-1-8**]  03:52 AM
                            [**2105-1-9**]  04:14 AM
   WBC
   5.5
   7.2
   9.2
   8.2
   6.7
   8.5
   9.0
   9.1
   Hct
   32.1
   28.6
   30.8
   28.2
   25.6
   29.2
   29.5
   30.5
   30.1
   Plt
   333
   390
   437
   396
   381
   402
   391
   329
   Cr
   0.7
   0.7
   0.7
   0.7
   0.6
   0.7
   0.7
   0.6
   0.7
   Glucose
   95
   105
   135
   92
   105
   113
   104
   91
   90
   Other labs: PT / PTT / INR:13.4/67.9/1.2, CK / CKMB /
   Troponin-T:191/11/0.08, ALT / AST:20/25, Alk Phos / T Bili:60/0.6,
   Differential-Neuts:79.1 %, Lymph:15.0 %, Mono:5.0 %, Eos:0.9 %, Lactic
   Acid:1.0 mmol/L, Albumin:3.6 g/dL, LDH:454 IU/L, Ca++:9.2 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   Severe COPD:  continue steroid taper
   agitation:  improved on new seroquel regimen.
   coag neg staph bacteremia.  Subsequent cx.  all negative.  Continue
   vanco for total of 2 week course.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2105-1-9**] 07:10 AM 80 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2105-1-2**] 01:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:   35 minutes

2105-01-10 05:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Per psych, can increase pm seroquel to as high as 300 mg if necessary
   and then decrease am doses.
   - Called to bedside at 0430, pt. tachy to 130s, trying to crawl out of
   bed, still restless after 150 + 50 of seroquel; xopenex given.
   - Clarify abx course - 2w from [**12-27**] or [**1-2**]?
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2105-1-9**] 08:05 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2105-1-9**] 04:41 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-1-10**] 05:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.1
C (97
   HR: 106 (91 - 118) bpm
   BP: 132/90(101) {89/61(71) - 157/102(105)} mmHg
   RR: 30 (15 - 36) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 65.7 kg (admission): 79.4 kg
   Height: 70 Inch
             Total In:
                                                                  3,380 mL
                                                                    492 mL
   PO:
                                                                    500 mL
             TF:
                                                                  1,920 mL
                                                                    437 mL
   IVF:
                                                                    790 mL
                                                                     55 mL
   Blood products:
   Total out:
                                                                  3,145 mL
                                                                    490 mL
   Urine:
                                                                  3,145 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    235 mL
                                                                      2 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///33/
   Physical Examination
   General Appearance: Awake, alert, conversational though difficult to
   understand.  No acute distress, breathing comfortably.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, dubhoff tube in place
   Cardiovascular: RRR, no m/r/g
   Respiratory / Chest: Poor air movement b/l. Breathing comfortably.
   Abdominal: Soft, Non-tender, Bowel sounds present
   Neurologic: AAA, oriented x2, moving all 4 extremities.
   Labs / Radiology
   292 K/uL
   10.2 g/dL
   101 mg/dL
   0.6 mg/dL
   33 mEq/L
   4.5 mEq/L
   17 mg/dL
   100 mEq/L
   138 mEq/L
   30.4 %
   9.3 K/uL
        [image002.jpg]
                            [**2105-1-1**]  04:30 AM
                            [**2105-1-3**]  04:00 AM
                            [**2105-1-4**]  03:03 AM
                            [**2105-1-5**]  04:38 AM
                            [**2105-1-6**]  03:08 AM
                            [**2105-1-6**]  03:45 PM
                            [**2105-1-7**]  04:17 AM
                            [**2105-1-8**]  03:52 AM
                            [**2105-1-9**]  04:14 AM
                            [**2105-1-10**]  01:55 AM
   WBC
   5.5
   7.2
   9.2
   8.2
   6.7
   8.5
   9.0
   9.1
   9.3
   Hct
   32.1
   28.6
   30.8
   28.2
   25.6
   29.2
   29.5
   30.5
   30.1
   30.4
   Plt
   333
   390
   437
   396
   381
   402
   391
   329
   292
   Cr
   0.7
   0.7
   0.7
   0.6
   0.7
   0.7
   0.6
   0.7
   0.6
   Glucose
   105
   135
   92
   105
   113
   104
   91
   90
   101
   Other labs: PT / PTT / INR:13.2/36.6/1.1, CK / CKMB /
   Troponin-T:191/11/0.08, ALT / AST:20/25, Alk Phos / T Bili:60/0.6,
   Differential-Neuts:77.0 %, Lymph:14.9 %, Mono:6.5 %, Eos:1.4 %, Lactic
   Acid:1.0 mmol/L, Albumin:3.6 g/dL, LDH:454 IU/L, Ca++:9.2 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   64 yo M transferred back to the MICU with complicated PMH including
   COPD, EtOH abuse admitted with SOB, left AMA and had a seizure in
   lobby, with PEA arrest with subsequent hospital course complicated by
   PTX s/p chest tubes, AMS/agitation, respiratory distress and coag
   negative staph bacteremia.
   .
   #1 Dyspnea / Respiratory Distress:  He had been improving throughout IV
   steroid course and now with stable respiratory status on prednisone
   taper, though he continues to have daily episodes of tachypnea,
   wheezing, belly breathing, and diaphoresis.  These episodes usually
   occur at night when he is awakened by nursing for bed turns or labs and
   resolve with nebs and seroquel.  He was transferred back to the ICU
   from the floor for similar episodes.  Previous episodes have
   demonstratred normal ABGs.  Decreased respiratory distress overnight on
   new, increased standing dose of seroquel
   -Cont. trial of Seroquel 200/150/200 w/25mg PRNs (with total of 800mg
   daily MAX) and f/u w/psych recommendations RE treating agitation.
   -continue xopenex and ipratropium nebulizers
   -continue slow prednisone taper with Prednisone 20 mg qday (then 10 mg
   qd x 3 days, then 5 mg
   .
   #2 Altered Mental Status/Bipolar disorder:  Reason Most likely due to
   underlying psychiatric diagnosis, bipolar vs schizoaffective disorder,
   as well as superimposed delirium [**3-15**] long ICU
   stay/bacteremia/intubation/IV steroids.  He had MRI brain without
   evidence of anoxic brain injury or other causes to explain
   encephalopathy that was performed a couple of weeks after his cardiac
   arrest.  Due to this interval time period, the team does not feel that
   a second MRI would be beneficial or suggest alternative causes for
   continued AMS.  Additionally, patient would need to be re-intubated for
   MRI.
   -          continue seroquel  at increased doses.
   -          appreciate psych input
   .
   #3 Coag negative staph Bacteremia:  New cultures from [**1-2**] positive
   with unclear source.  Has had extensive workup in the past with TTE X 2
   (most recent [**12-29**]), LENIs with imaging of femoral arteries to assess
   for aneurysm, MRI of head and C-spine without evidence of abscess.  Pt
   would not tolerate repeat MRI or TEE at this point without
   re-intubation.    No further cultures have come back positive, so [**1-2**] be a contaminate.
   -continue vancomycin to complete a 2-week course after last positive
   blood culture
   -will keep PICC line in for now as patient has poor access.
   .
   # Hypertension: prior to this admission was on lisinopril and atenolol,
   blood pressure improved on current regimen although he does become very
   hypertensive w/agitated episodes, which resolves w/seroquel.  On
   Amlodipine 5mg PO qday.  BP was relatively low w/10mg of Lisinopril,
   decreased to 5mg Lisinopril PO and BPs have been stable.
   - use Seroquel PRN for hypertension associated with episodes of
   agitation.
   .
   # Abnormal neuro exam: Imaging and EEG have shown no explanation for
   persistent encephalopathy and abnormal reflexes. However, with
   treatment for bacteremia and seroquel for agitation with improvement in
   mental status, the patient's neuro exam has begun to improve. Of note,
   he did have an EMG that was concerning for polyneuropathy. B12 was
   normal.
   - appreciate neuro recs
   - monitor mental status and neuro exam
   . .
   # s/p cardiac arrest: Cause unknown, a seizure may have been a
   component of the initial picture given his unresponsiveness, abnormal
   movements, and incontinence. Per his family, he has had cardiac arrests
   in the past. He is now s/p paralysis and sedation for the cardiac
   arrest cooling protocol. He was started on an amiodarone gtt which has
   since been d/c'd. He had a head CT after he was rewarmed that was
   unremarkable.
   - continue aspirin
   - beta blocker is being held due to COPD exacerbation and respiratory
   distress. To consider re-starting today or tomorrow if patient is
   tachycardic/if bp allows.
   .
   # ETOH abuse: unknown history of withdrawal seizures or DTs. Arrest may
   have been due to withdrawal seizure given timing to serum etoh levels
   on day of event.   Has been off benzo
s now for a few weeks.
   -continue folate, thiamine, MVI
   .
   # History of alcoholic hepatitis: No LFTs in many years, but normal on
   check [**2104-12-4**].
   .
   # FEN:  failed a speech and swallow evaluation on [**12-31**]; Dubhoff placed
   [**1-5**]; Passed swallow eval on [**1-6**]: start with ground solids (due to
   lack of teeth) and thin liquids, 1:1 with foods to watch for aspiration
   and CXR on [**1-8**].  Cont. TF for now until patient can take adequate
   POs.  Patient is unable to eat by himself as he lacks the motor
   coordination to do so.
   Would like to avoid PEG tube placement as patient would likely not have
   wanted that and given his respiratory status may require intubation for
   PEG placement.
   .
   #Medical decision making: Given the patient's inability to communicate
   his own wishes, his son is currently pursuing guardianship. call
   [**First Name9 (NamePattern2) 3793**] [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **] 7-1888 on friday. attorney @[**Hospital1 **] [**First Name8 (NamePattern2) **]
   [**Last Name (NamePattern1) **]  .
   .
   #PPX: heparin sc, PPI, bowel regimen.
   .
   #Dispo: Appropriate for rehab. Screening in progress.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2105-1-9**] 07:36 PM 80 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2105-1-2**] 01:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2105-01-10 11:30:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Patient with increased evening Seroquel dosing
some improvement in
   mental status and respiratory status but still with paroxysms
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2105-1-10**] 09:34 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2105-1-9**] 04:41 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever
   Ear, Nose, Throat: Dry mouth
   Nutritional Support: Tube feeds
   Psychiatric / Sleep: Daytime somnolence
   Flowsheet Data as of  [**2105-1-10**] 11:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 98 (93 - 132) bpm
   BP: 98/82(86) {84/49(57) - 157/102(107)} mmHg
   RR: 17 (15 - 36) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.7 kg (admission): 79.4 kg
   Height: 70 Inch
             Total In:
                                                                  3,380 mL
                                                                  1,217 mL
   PO:
                                                                    500 mL
             TF:
                                                                  1,920 mL
                                                                    904 mL
   IVF:
                                                                    790 mL
                                                                    313 mL
   Blood products:
   Total out:
                                                                  3,145 mL
                                                                    785 mL
   Urine:
                                                                  3,145 mL
                                                                    785 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    235 mL
                                                                    432 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///33/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: NG tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.2 g/dL
   292 K/uL
   101 mg/dL
   0.6 mg/dL
   33 mEq/L
   4.5 mEq/L
   17 mg/dL
   100 mEq/L
   138 mEq/L
   30.4 %
   9.3 K/uL
        [image002.jpg]
                            [**2105-1-1**]  04:30 AM
                            [**2105-1-3**]  04:00 AM
                            [**2105-1-4**]  03:03 AM
                            [**2105-1-5**]  04:38 AM
                            [**2105-1-6**]  03:08 AM
                            [**2105-1-6**]  03:45 PM
                            [**2105-1-7**]  04:17 AM
                            [**2105-1-8**]  03:52 AM
                            [**2105-1-9**]  04:14 AM
                            [**2105-1-10**]  01:55 AM
   WBC
   5.5
   7.2
   9.2
   8.2
   6.7
   8.5
   9.0
   9.1
   9.3
   Hct
   32.1
   28.6
   30.8
   28.2
   25.6
   29.2
   29.5
   30.5
   30.1
   30.4
   Plt
   333
   390
   437
   396
   381
   402
   391
   329
   292
   Cr
   0.7
   0.7
   0.7
   0.6
   0.7
   0.7
   0.6
   0.7
   0.6
   Glucose
   105
   135
   92
   105
   113
   104
   91
   90
   101
   Other labs: PT / PTT / INR:13.2/36.6/1.1, CK / CKMB /
   Troponin-T:191/11/0.08, ALT / AST:20/25, Alk Phos / T Bili:60/0.6,
   Differential-Neuts:77.0 %, Lymph:14.9 %, Mono:6.5 %, Eos:1.4 %, Lactic
   Acid:1.0 mmol/L, Albumin:3.6 g/dL, LDH:454 IU/L, Ca++:9.2 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Imaging: None new
   Microbiology: [**1-4**], [**1-6**], [**1-7**]--NGTD
   Last positive-[**1-2**]
   Assessment and Plan
   64 yo male with chronic obstructive lung disease now with prolonged ICU
   course complicated by recurrent bacteremia, respiratory failure and
   altered mental status.  He now has had continued good stability post
   extubation and with slow to improve mental status.
   1)Respiratory Failure-
   -O2 to wean as tolerated
   -Continue with inhaled bronchodilators (Atrovent/Xopenex)
   -Prednisone completed today
   -OOB and ambulate as tolerated
   2)Altered Mental Status--Very tenuous balance.  Patient at baseline has
   been reported to be agitated and combative.  Have worked to try to
   establish baseline level of medication to allow patient activity and
   minimization of excess sedation while continuing to allow him active
   participation in care.
   -Seroquel--increase evening dosing--200mg q pm
   -PRN use during the day
   -Thiamine po
   -Psychiatry input essential
Underlying bipolar disorder
   3)Sepsis-->Bactermia
   -Vanco to continue with goal of two week course for bacteremia
   following negative cultures which have been reassuring
 WHEEZING
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RANGE OF MOTION, IMPAIRED
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CARDIAC ARREST
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 ALTERATION IN NUTRITION
 ELECTROLYTE & FLUID DISORDER, OTHER
 .H/O RESPIRATORY FAILURE, CHRONIC
 ANXIETY
 HYPERTENSION, BENIGN
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2105-1-10**] 07:55 AM 80 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2105-1-2**] 01:25 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
reasonable for floor transfer is Seroquel dosing
   stabilized
   Total time spent: 35 minutes

2105-01-10 17:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 CALLED OUT
   Per psych can increase pm seroquel to as high as 300mg if necessary and
   decrease am doses
   Tachycardic overnight, trying to crawl out of bed, still restless after
   150+50 0f seroquel.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2105-1-10**] 09:34 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-1-10**] 05:22 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.9
   HR: 98 (93 - 132) bpm
   BP: 119/70(82) {84/49(57) - 145/91(107)} mmHg
   RR: 21 (15 - 36) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.7 kg (admission): 79.4 kg
   Height: 70 Inch
             Total In:
                                                                  3,380 mL
                                                                  1,489 mL
   PO:
                                                                    500 mL
                                                                    300 mL
   TF:
                                                                  1,920 mL
                                                                    816 mL
   IVF:
                                                                    790 mL
                                                                    373 mL
   Blood products:
   Total out:
                                                                  3,145 mL
                                                                  1,665 mL
   Urine:
                                                                  3,145 mL
                                                                  1,665 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    235 mL
                                                                   -176 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///33/
   Physical Examination
   Gen: Extremely somnolent, minimally arousable with repositioning,
   breathing comfortably
   HEENt: PERRL, doboff in place
   Heart: RRR, No MRG
   Lungs: CTAB, severely diminished breath sounds diffusely
   Abd: Soft, NT, ND, BS+
   Ext: No peripheral edema
   Labs / Radiology
   292 K/uL
   10.2 g/dL
   101 mg/dL
   0.6 mg/dL
   33 mEq/L
   4.5 mEq/L
   17 mg/dL
   100 mEq/L
   138 mEq/L
   30.4 %
   9.3 K/uL
        [image002.jpg]
                            [**2105-1-1**]  04:30 AM
                            [**2105-1-3**]  04:00 AM
                            [**2105-1-4**]  03:03 AM
                            [**2105-1-5**]  04:38 AM
                            [**2105-1-6**]  03:08 AM
                            [**2105-1-6**]  03:45 PM
                            [**2105-1-7**]  04:17 AM
                            [**2105-1-8**]  03:52 AM
                            [**2105-1-9**]  04:14 AM
                            [**2105-1-10**]  01:55 AM
   WBC
   5.5
   7.2
   9.2
   8.2
   6.7
   8.5
   9.0
   9.1
   9.3
   Hct
   32.1
   28.6
   30.8
   28.2
   25.6
   29.2
   29.5
   30.5
   30.1
   30.4
   Plt
   333
   390
   437
   396
   381
   402
   391
   329
   292
   Cr
   0.7
   0.7
   0.7
   0.6
   0.7
   0.7
   0.6
   0.7
   0.6
   Glucose
   105
   135
   92
   105
   113
   104
   91
   90
   101
   Other labs: PT / PTT / INR:13.2/36.6/1.1, CK / CKMB /
   Troponin-T:191/11/0.08, ALT / AST:20/25, Alk Phos / T Bili:60/0.6,
   Differential-Neuts:77.0 %, Lymph:14.9 %, Mono:6.5 %, Eos:1.4 %, Lactic
   Acid:1.0 mmol/L, Albumin:3.6 g/dL, LDH:454 IU/L, Ca++:9.2 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   64 yo M transferred back to the MICU with complicated PMH including
   COPD, EtOH abuse admitted with SOB, left AMA and had a seizure in
   lobby, with PEA arrest with subsequent hospital course complicated by
   PTX s/p chest tubes, AMS/agitation, respiratory distress and coag
   negative staph bacteremia.  Now extubated, periodically having anxiety
   leading to tachypnea and fininishing course of Abx for bacteremia,
   screening for rehab.
   .
   #1 Dyspnea / Respiratory Distress:  He had been improving throughout IV
   steroid course and now with stable respiratory status on prednisone
   taper, though he continues to have daily episodes of tachypnea,
   wheezing, belly breathing, and diaphoresis.  These episodes usually
   occur at night when he is awakened by nursing for bed turns or labs and
   resolve with nebs and seroquel.  He was transferred back to the ICU
   from the floor for similar episodes.  Previous episodes have
   demonstratred normal ABGs.  Decreased respiratory distress overnight on
   new, increased standing dose of seroquel
   -Cont. Seroquel w/25mg PRNs (with total of 800mg daily MAX) and f/u
   w/psych recommendations RE treating agitation.
   -switch to albuterol and ipratropium MDIs
   -continue slow prednisone taper with Prednisone 20 mg qday (then 10 mg
   qd x 3 days, then 5 mg
   .
   #2 Altered Mental Status/Bipolar disorder: Acutely this a.m. most
   likely [**3-15**] large doses of seroquel o/n for agitation o/n which was at
   one point him trying to crawl out of bed.  Chronic likely due to
   underlying psychiatric diagnosis, bipolar vs schizoaffective disorder,
   as well as superimposed delirium [**3-15**] long ICU
   stay/bacteremia/intubation/IV steroids.  He had MRI brain without
   evidence of anoxic brain injury or other causes to explain
   encephalopathy that was performed a couple of weeks after his cardiac
   arrest.  Due to this interval time period, the team does not feel that
   a second MRI would be beneficial or suggest alternative causes for
   continued AMS.  Additionally, patient would need to be re-intubated for
   MRI.
   -          Decrease PRN doses of seroquel
   -          Clarify  that PRN seroquel is to be used for anxiety and
   tachypnea not
agitation
 (agitation has many meanings)
   -          appreciate psych input
   .
   #3 Coag negative staph Bacteremia:  Last + culture was on [**1-2**] and
   had same resistance panel, likely same infection rather than
   contaminant.  Has had extensive workup in the past with TTE X 2 (most
   recent [**12-29**]), LENIs with imaging of femoral arteries to assess for
   aneurysm, MRI of head and C-spine without evidence of abscess.  Pt
   would not tolerate repeat MRI or TEE at this point without
   re-intubation.    No further cultures have come back positive, so [**1-2**]
   represents last positive surveillance culture for now and would treat
   for 14 days past this.
   -continue vancomycin to complete a 2-week course after [**1-2**] ([**1-15**])
   -Attempted PICC change but PICC nurse unable to place on opposite side,
   would withdrawl PICC and resite vs. tx w/ linezolid PO if unable to
   resite.
   .
   # Hypertension: prior to this admission was on lisinopril and atenolol,
   blood pressure improved on current regimen although he does become very
   hypertensive/tachycardic w/ anxious/tachypnic episodes, which resolves
   w/seroquel.  On Amlodipine 5mg PO qday.  BP was relatively low w/10mg
   of Lisinopril, decreased to 5mg Lisinopril PO and BPs have been stable.
   - use Seroquel PRN for hypertension associated with episodes of
   anxiety/tachypnea
   .
   # Abnormal neuro exam: Imaging and EEG have shown no explanation for
   persistent encephalopathy and abnormal reflexes. However, with
   treatment for bacteremia and seroquel for agitation with improvement in
   mental status, the patient's neuro exam has begun to improve. Of note,
   he did have an EMG that was concerning for polyneuropathy. B12 was
   normal.
   - No recent neuro recs
   - monitor mental status and neuro exam
   . .
   # s/p cardiac arrest: Cause unknown, a seizure may have been a
   component of the initial picture given his unresponsiveness, abnormal
   movements, and incontinence. Per his family, he has had cardiac arrests
   in the past. He is now s/p paralysis and sedation for the cardiac
   arrest cooling protocol. He was started on an amiodarone gtt which has
   since been d/c'd. He had a head CT after he was rewarmed that was
   unremarkable.
   - continue aspirin
   - beta blocker is being held due to COPD exacerbation and respiratory
   distress.
   .
   # ETOH abuse: unknown history of withdrawal seizures or DTs. Arrest may
   have been due to withdrawal seizure given timing to serum etoh levels
   on day of event.   Has been off benzo
s now for a few weeks.
   -continue folate, thiamine, MVI
   .
   # History of alcoholic hepatitis: No LFTs in many years, but normal on
   check [**2104-12-4**].
   .
# FEN: passed  a speech and swallow evaluation on [**1-6**] reccomendations were: 1.
 PO diet: ground solids, thin liquids 2. PO meds: crushed in puree 3. 1:1 superv
ision with PO to maintain aspiration precautions and assist with self-feeding.
4. Nutrition f/u re: NGT feedings
5. If there are further concerns for aspiration either clinically
by RN or objectively by CXR, please place videoswallow study
order for further objective assessment of swallow function.
- Nutrition consult for calorie count and if sufficient would pull dopoff
   .
   #Medical decision making: Given the patient's inability to communicate
   his own wishes, his son is currently pursuing guardianship. call
   [**First Name9 (NamePattern2) 3793**] [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **] 7-1888 on friday. attorney @[**Hospital1 **] [**First Name8 (NamePattern2) **]
   [**Last Name (NamePattern1) **]  .
   .
   #PPX: heparin sc, PPI, bowel regimen.
   .
   #Dispo: Appropriate for rehab. Screening in progress. Transfer to floor
   if not rehab, will need to inform accepting team of frequent episodes
   of tachypnea.